2192-08-14 06:34:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Allergies:
   Amoxicillin
   Rash;
   Nortriptyline
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-8-14**] 06:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 106 (87 - 154) bpm
   BP: 104/64(74) {74/49(29) - 126/75(132)} mmHg
   RR: 21 (21 - 31) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 66 Inch
             Total In:
                                                                  1,000 mL
                                                                    550 mL
   PO:
             TF:
   IVF:
                                                                  1,000 mL
                                                                    550 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    480 mL
   Urine:
   480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,000 mL
                                                                     70 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///30/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   208 mg/dL
   1.0 mg/dL
   30 mEq/L
   3.7 mEq/L
   19 mg/dL
   106 mEq/L
   143 mEq/L
        [image002.jpg]
                             [**2192-8-14**]  12:28 AM
   Cr
   1.0
   Glucose
   208
   Other labs: Ca++:7.8 mg/dL, Mg++:1.4 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   A/P: 62 yo W with PMH of DM, HTN, CAD, diastolic CHF, polysubstance
   abuse here with cellulitis.
   .
   Cellulitis: Elevated wbc count though afebril
   - Continue vanco. Add clinda given PCN allergy
   - Obtain bcx
   .
   ARF: LIkely prerenal given hyperglycemia.
   - IVFs
   - urine lytes
   - monitor I/O's
   .
   AG acidosis: elevated lactate and possibly ketoacidosis
   - continue IVFs
   - trend lactate and chem
   - monitor FS and ISS
   .
   SVT: ? MAT on EKG. Has not received metoprolol for several days. [**Month (only) 11**] be
   rebound tachycardia. Could also be secondary to hypovolemia
   - IVFs
   - metoprolol
   - monitor on tele
   .
   Diastolic heart failure: peripheral edema but lungs sound clear
   - monitor clinically
   - restart lasix/spironolactone when stable
   .
   Afib: documented in past; here appears in MAT vs sinus arrythmia
   -continue rate control
   .
   Hx of substance abuse: occasionally sleepy during interview.
   - ck tox screen.
   .
   COPD: Sounds clear on exam.
   - ipratropium PRN
   Depression: continue OP meds
   OSA: Does not wear CPAP on home:
   - CPAP with settings per RT
   .
   Intertriginous erythema: Likely secondary to fungal infection. [**Month (only) 11**] be
   superinfected.
   - Topical miconazole
   - Monitor for improvement.
   S/P fall: sounds mechanical; denies concerning symptoms. Not currently
   reporting pain.
   - monitor on tele
   .
   FEN: DM diet, IVFs, monitor electrolytes and replete PRN
   .
   PPX: Bowel regimen, hep SC
   .
   ACCESS: 2 PIV
   .
   CODE: FULL
   .
   CONTACT: Daughter [**Name2 (NI) 6018**] [**Name2 (NI) 6019**] [**Telephone/Fax (1) 6021**]
   .
   .
   DISPO: Pending above. SW to evaluate housing situation
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2192-8-13**] 11:35 PM
   18 Gauge - [**2192-8-13**] 11:36 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:Transfer to floor

2192-08-14 12:17:00 Physician Attending Progress Note
Chief Complaint: tachycardia, leg ulcers, lactic acidosis on metformin,
   hyperglycemia.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   wbc trending down. renal failure presistent. Lactic acidosis resolved.
   History obtained from Patient
   Allergies:
   Amoxicillin
   Rash;
   Nortriptyline
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2192-8-14**] 08:50 AM
   Clindamycin - [**2192-8-14**] 10:50 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Lopressor 50 po bid, prozac, abilify, heparin s/c q8h.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems: negative for pain, nausea, vomiting, GI complaints.
   Flowsheet Data as of  [**2192-8-14**] 11:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 98 (87 - 154) bpm
   BP: 103/65(79) {74/49(29) - 126/75(132)} mmHg
   RR: 25 (21 - 31) insp/min
   SpO2: 75%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 66 Inch
             Total In:
                                                                  1,000 mL
                                                                    800 mL
   PO:
             TF:
   IVF:
                                                                  1,000 mL
                                                                    800 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    595 mL
   Urine:
   595 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,000 mL
                                                                    205 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 75%
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Obese
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+, non pitting, weeping ulcers LLE
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, somnolent and difficult to arouse, arouses with ABG
   Labs / Radiology
   13.0 g/dL
   292 K/uL
   151 mg/dL
   1.4 mg/dL
   28 mEq/L
   4.0 mEq/L
   21 mg/dL
   104 mEq/L
   142 mEq/L
   45.4 %
   15.2 K/uL
                             [**2192-8-14**]  12:28 AM
                             [**2192-8-14**]  06:07 AM
   WBC
   15.2
   Hct
   45.4
   Plt
   292
   Cr
   1.0
   1.4
   Glucose
   208
   151
   Other labs: PT / PTT / INR:14.5/31.6/1.3, Albumin:3.0 g/dL, Ca++:7.7
   mg/dL, Mg++:1.6 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 OBSTRUCTIVE SLEEP APNEA (OSA)
   ABG with acute on chronic respiratory acidosis, PO2 of 88, will attempt
   to place her on Bipap now, and discontinue supplemental oxygen. She had
   been refusing prolonged Bipap, and this is limiting her management.
 ATRIAL FIBRILLATION (AFIB)
   Decrease dose of lopressor, as BP is borderline. Likely in setting of
sepsis
 from LE wound. Is volume sensitive for now..
 IMPAIRED SKIN INTEGRITY
   Topical myconazole ointment for intertriginous [**Female First Name (un) 444**] infection.
 Diabetes: gap resolved. Will cover with insulin sliding scale, will
   list metformin as allergy to lactic acidosis, will follow up
   fingersticks q6hr.
 Renal failure: FENA low. Likely prerenal. Will give another liter of
   LR x1 for repletion. (avoid saline as not to worsen her acidosis)
   Follow up creatinine
 Cellulitis: Consult wound care. Switch to vanco, cipro and flagyl for
   diabetic cellulitis. Surgical consult for ? debridement pending.
 SVT: resolved,  likely due to hypovolemia, continue tele, lopressor
   and gentle hydration
 INEFFECTIVE COPING:
   Patient refusing multiple interventions including Bipap limiting her
   management. Will continue to advise her and monitor carefully.
   ICU Care
   Nutrition: diabetic diet.
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2192-8-13**] 11:35 PM
   18 Gauge - [**2192-8-14**] 06:32 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: none
   Communication:  Comments.
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2192-08-15 07:50:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: [**8-14**]
   - pt had AMS, and later was hypoxic with CO2 retention, thought to
   start after pt was witnessed to aspirate on water
   - vascular was consulted, recommendations to have ABIs on LEs
   - was combative and given haldol 5mg x 1 IV
   - due to respirtory distress was intubated with fiberoptic scope, was
   given Ketamine and Vecuronium
   - failed multiple attemps at aline in all four limbs
   - SC line placed on left
   - was tachy despite multiple fluid boluses and had decreased UO, was
   started on neo gtt
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2192-8-14**] 02:15 PM
 NON-INVASIVE VENTILATION - STOP [**2192-8-14**] 06:00 PM
 INVASIVE VENTILATION - START [**2192-8-14**] 06:00 PM
 MULTI LUMEN - START [**2192-8-14**] 07:00 PM
   Allergies:
   Amoxicillin
   Rash;
   Nortriptyline
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2192-8-14**] 10:14 PM
   Clindamycin - [**2192-8-15**] 04:00 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Phenylephrine - 0.5 mcg/Kg/min
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Propofol - [**2192-8-14**] 06:10 PM
   Vecuronium - [**2192-8-14**] 06:15 PM
   Heparin Sodium (Prophylaxis) - [**2192-8-14**] 06:45 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-8-15**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.3
C (97.4
   HR: 74 (68 - 109) bpm
   BP: 103/45(61) {89/33(53) - 153/109(114)} mmHg
   RR: 17 (16 - 36) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
    Mixed Venous O2% Sat: 83 - 83
   Total In:
                                                                  2,528 mL
                                                                    596 mL
   PO:
   TF:
   IVF:
                                                                  2,528 mL
                                                                    596 mL
   Blood products:
   Total out:
                                                                    945 mL
                                                                    520 mL
   Urine:
                                                                    945 mL
                                                                    520 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,583 mL
                                                                     76 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 420 (301 - 420) mL
   PS : 10 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 70%
   RSBI Deferred: No Spon Resp
   PIP: 28 cmH2O
   Plateau: 20 cmH2O
   SpO2: 99%
   ABG: 7.25/65/87.[**Numeric Identifier 274**]/28/0
   Ve: 7.9 L/min
   PaO2 / FiO2: 126
   Physical Examination
   Intubated, sedated, NAD, obese
   lungs- with some wheezes
   CV- RRR, weak pulses in extremities, but warm
   abd- soft, NT, ND, rash in skin folds
   ext- warm, erythema of left leg, weaping ulcer, swollen left ankle
   Labs / Radiology
   323 K/uL
   12.3 g/dL
   0
   1.4 mg/dL
   28 mEq/L
   3.8 mEq/L
   25 mg/dL
   106 mEq/L
   142 mEq/L
   40.5 %
   14.1 K/uL
        [image002.jpg]
                             [**2192-8-14**]  12:28 AM
                             [**2192-8-14**]  06:07 AM
                             [**2192-8-14**]  12:02 PM
                             [**2192-8-14**]  05:35 PM
                             [**2192-8-14**]  09:32 PM
                             [**2192-8-15**]  03:42 AM
                             [**2192-8-15**]  06:00 AM
   WBC
   15.2
   14.1
   Hct
   45.4
   34
   40.5
   Plt
   292
   323
   Cr
   1.0
   1.4
   1.7
   1.4
   TCO2
   30
   Glucose
   [**Telephone/Fax (3) 7986**]65
   0
   Other labs: PT / PTT / INR:14.5/31.6/1.3, Lactic Acid:1.4 mmol/L,
   Albumin:3.0 g/dL, Ca++:8.1 mg/dL, Mg++:1.9 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   A/P: 62 yo W with PMH of DM, HTN, CAD, diastolic CHF, polysubstance
   abuse here with cellulitis.
   .
   Repiratory distress/COPD: pt had hypoxia yesterday and hypercarbia with
   increased work of breathing, now s/p intubation. Likely secondary to
   CO2 retention and septic picture. Also potential for aspiration.
   Decrease her FI02 to 60%.
   - wean vent as able
   - ipratroprium nebs
   - continue abx.
   - attempt a line
   - ck VBG
   Cellulitis: Elevated wbc count though afebrile. D/c clinda and change
   to flagyl for anaerobic coverage, given more narrow spectrum.
   - Continue vanco /cipro/flagyl
   - f/u culture data: NGTD
   - f/u vascular recs
   - ? attempt ABI
   .
   ARF: LIkely prerenal given hyperglycemia. Decreased UO throughout the
   day, but now improving.
   - IVFs
   - continue to monitor creatinine
   - monitor I/O's
   .
   AG acidosis: Likely combined metabolic/respiratory acidosis
   - continue IVFs
   - trend lactate and chem
   - monitor FS and ISS
   .
   SVT: ? MAT on EKG after being off metoprolol at home, now HR better
   controlled, may have been secondary to hypovolemia
   - IVFs as needed
   - metoprolol 25mg [**Hospital1 **]
   - monitor on tele
   .
   Diastolic heart failure: peripheral edema but lungs sound clear
   - monitor clinically
   - restart lasix/spironolactone when stable
   .
   Afib: documented in past
   - repeat EKG
   -continue rate control if no evidence of heart block
   .
   Hx of substance abuse: negative tox screen
   .
   Depression: continue OP meds
   OSA: Does not wear CPAP on home:
   - now intubated
   .
   Intertriginous erythema: Likely secondary to fungal infection. [**Month (only) 11**] be
   superinfected.  On vanco for cellulitis.
   - Topical miconazole
   - Monitor for improvement.
   S/P fall: sounds mechanical; denies concerning symptoms. Having right
   ankle pain
   - f/u ankle xray
   FEN: nutrition consult,
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2192-8-13**] 11:35 PM
   Multi Lumen - [**2192-8-14**] 07:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: Daughter [**Name (NI) 6018**] [**Name2 (NI) 6019**] [**Telephone/Fax (1) 6021**]
   Code status: Full code
   Disposition:

2192-08-15 09:27:00 Physician Attending Progress Note
I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Refused Bipap, with progressive hypoxemia, wittnessed aspiration event,
   combative and impairing assessment of her oxygenation. Intuabted for
   sat's of 83% on Bipap fiberoptically by anaesthesia, Lt SC CVC placed.
   Multiple failed attempts at placement of arterial line.
   Allergies:
   Amoxicillin
   Rash;
   Nortriptyline
   Rash;
   Last dose of Antibiotics:
   Clindamycin - [**2192-8-15**] 04:00 AM
   Vancomycin - [**2192-8-15**] 08:13 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Phenylephrine - 0.5 mcg/Kg/min
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Propofol - [**2192-8-14**] 06:10 PM
   Vecuronium - [**2192-8-14**] 06:15 PM
   Heparin Sodium (Prophylaxis) - [**2192-8-15**] 08:13 AM
   Other medications:
   colace, RISS, fluoxetine, Ciprofloxacin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems: not able to obtain as patient is intubated/sedated
   Flowsheet Data as of  [**2192-8-15**] 09:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.3
C (97.4
   HR: 82 (68 - 104) bpm
   BP: 106/75(82) {89/33(53) - 153/109(114)} mmHg
   RR: 20 (16 - 36) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
   Mixed Venous O2% Sat: 83 - 83
   Total In:
                                                                  2,528 mL
                                                                    890 mL
   PO:
   TF:
   IVF:
                                                                  2,528 mL
                                                                    890 mL
   Blood products:
   Total out:
                                                                    945 mL
                                                                    920 mL
   Urine:
                                                                    945 mL
                                                                    920 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,583 mL
                                                                    -29 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 420 (301 - 420) mL
   PS : 10 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 70%
   RSBI Deferred: No Spon Resp
   PIP: 27 cmH2O
   Plateau: 26 cmH2O
   SpO2: 100%
   ABG: 7.25/65/87.[**Numeric Identifier 274**]/28/0
   Ve: 8.2 L/min
   PaO2 / FiO2: 126
   Physical Examination
   General Appearance: Overweight / Obese, intubated/sedated
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: No(t) Normal, Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Clear : , Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 2+, right edema increased at ankle
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   12.3 g/dL
   323 K/uL
   0
   1.4 mg/dL
   28 mEq/L
   3.8 mEq/L
   25 mg/dL
   106 mEq/L
   142 mEq/L
   40.5 %
   14.1 K/uL
        [image002.jpg]
                             [**2192-8-14**]  12:28 AM
                             [**2192-8-14**]  06:07 AM
                             [**2192-8-14**]  12:02 PM
                             [**2192-8-14**]  05:35 PM
                             [**2192-8-14**]  09:32 PM
                             [**2192-8-15**]  03:42 AM
                             [**2192-8-15**]  06:00 AM
   WBC
   15.2
   14.1
   Hct
   45.4
   34
   40.5
   Plt
   292
   323
   Cr
   1.0
   1.4
   1.7
   1.4
   TCO2
   30
   Glucose
   [**Telephone/Fax (3) 7986**]65
   0
   Other labs: PT / PTT / INR:14.5/31.6/1.3, Lactic Acid:1.4 mmol/L,
   Albumin:3.0 g/dL, Ca++:8.1 mg/dL, Mg++:1.9 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 Respiratory failure:
   Hx OSA, Post witnessed aspiration event, LLL opacity on CXR. On
   Vanco/Cipro/flagyl now f/u culture data. Weaning vent is limited by
   inability to assess her arterial oxygenation, although venous sat is
   elevated. Will follow this and her sat as a proxy, given difficult
   arterial access. Wean FiO2, increase PEEP to [**9-24**] to offset chest wall
   non compliance, obesity
 Hypotension: on minimal dose of pressor likely [**1-16**] to sedation,
   sepsis seems to have improved, will check ESR. If high, ? bone scan for
   osteomyelitis
 Afib vs MAT: Now bradycardic EKG consistent with wandering pacemaker,
   hold lopressor while on propofol for HR<60
 Rt ankle fracture: consult orthopedics
 IMPAIRED SKIN INTEGRITY: venous stasis ulcers left leg
   Appreciate surgery assessment, will attempt to obtain portable arterial
   studies. Continue current antibiotics and wound care.
   ICU Care
   Nutrition: placed OG tube, consult nutrition for tube feeds.
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2192-8-13**] 11:35 PM
   Multi Lumen - [**2192-8-14**] 07:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: start PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Need for restraints reviewed
   Comments:
   Communication:  Comments:  will need to speak with daughter
   [**Name (NI) 129**] status: Full code
   Disposition :ICU
   Total time spent: 45 mins

2192-08-16 07:30:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2192-8-15**] 09:30 AM
   - R Ankle fx: ortho to put in [**Hospital1 **]-valve splint, will need op repair
   later, not great op candidate
   - Weaning FiO2, incr PEEP, following venous pH
   - Ordered vanc trough
   - Clindamycin was changed to Flagyl for more narrow coverage
   - EKG: wandering pacemaker
   - ESR: 33, CRP: 220.8
   - High PIP's in the early am, poor oxygenation. Dysynchronous with the
   vent so pt received 10mg Vecuronium with good effect.
   - Anesthesia saw pt, determined that IR will have to place A line if
   needed
   Allergies:
   Amoxicillin
   Rash;
   Nortriptyline
   Rash;
   Last dose of Antibiotics:
   Clindamycin - [**2192-8-15**] 04:00 AM
   Vancomycin - [**2192-8-15**] 08:00 PM
   Metronidazole - [**2192-8-16**] 04:00 AM
   Infusions:
   Phenylephrine - 0.8 mcg/Kg/min
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2192-8-15**] 08:13 AM
   Vecuronium - [**2192-8-16**] 01:17 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: No(t) NPO, Tube feeds
   Flowsheet Data as of  [**2192-8-16**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.2
C (98.9
   HR: 65 (65 - 90) bpm
   BP: 134/98(106) {102/62(73) - 144/98(111)} mmHg
   RR: 20 (10 - 21) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
    CVP: 27 (13 - 295)mmHg
   Total In:
                                                                  2,383 mL
                                                                    694 mL
   PO:
   TF:
   IVF:
                                                                  2,323 mL
                                                                    694 mL
   Blood products:
   Total out:
                                                                  2,450 mL
                                                                    730 mL
   Urine:
                                                                  2,450 mL
                                                                    730 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -67 mL
                                                                    -36 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 500) mL
   Vt (Spontaneous): 174 (174 - 702) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 34 cmH2O
   Plateau: 30 cmH2O
   Compliance: 30 cmH2O/mL
   SpO2: 98%
   ABG: 7.32/52/183/23/0
   Ve: 8.9 L/min
   PaO2 / FiO2: 366
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed, Rash: 2 3x3cm pretibial ulcers draining serous
   fluid
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   355 K/uL
   13.3 g/dL
   155 mg/dL
   1.0 mg/dL
   23 mEq/L
   4.4 mEq/L
   17 mg/dL
   104 mEq/L
   139 mEq/L
   45.2 %
   9.4 K/uL
        [image002.jpg]
                             [**2192-8-14**]  12:28 AM
                             [**2192-8-14**]  06:07 AM
                             [**2192-8-14**]  12:02 PM
                             [**2192-8-14**]  05:35 PM
                             [**2192-8-14**]  09:32 PM
                             [**2192-8-15**]  03:42 AM
                             [**2192-8-15**]  06:00 AM
                             [**2192-8-16**]  01:55 AM
                             [**2192-8-16**]  02:49 AM
   WBC
   15.2
   14.1
   9.4
   Hct
   45.4
   34
   40.5
   45.2
   Plt
   292
   323
   355
   Cr
   1.0
   1.4
   1.7
   1.4
   1.0
   TCO2
   30
   28
   Glucose
   [**Telephone/Fax (3) 7986**]65
   0
   135
   155
   Other labs: PT / PTT / INR:14.5/31.6/1.3, Lactic Acid:1.5 mmol/L,
   Albumin:3.0 g/dL, Ca++:8.5 mg/dL, Mg++:1.7 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 OBSTRUCTIVE SLEEP APNEA (OSA)
 ATRIAL FIBRILLATION (AFIB)
 IMPAIRED SKIN INTEGRITY
 INEFFECTIVE COPING
   A/P: 62 yo W with PMH of DM, HTN, CAD, diastolic CHF, polysubstance
   abuse here with cellulitis.
   .
   Repiratory distress/COPD:Pt had hypoxia and dysynchrony overnight and
   received one dose Vecuronium 10mg IV with good effect. Propofol was
   increased when pt
s eyes were noted to be open. Suspect that resp
   distress was likely [**1-16**] to bronchospasm [**1-16**] NG tube being
   inappropriately high. Pt was started on solumedrol overnight.
   - wean vent as able
   - ipratroprium nebs
   - continue abx.
   - IR guided a line
   - ck VBG
   - taper steroids to prednisone 60 mg daily
   Cellulitis: Elevated wbc count though afebrile. On flagyl for anaerobic
   coverage. ESR of 33, CRP 220. Will continue to follow evolution of
   wounds. GS on wound swab was negative. Suspect CRP elevated due to
   other acute phase processes. Pressor requirement likely due to
   sedation.
   - Continue vanco /cipro/flagyl
   - f/u culture data: NGTD
   - f/u vascular recs
   - ? attempt ABI
   - Wean pressor
   .
   ARF: LIkely prerenal given hyperglycemia. Now with robust U/O.
   - IVFs
   - continue to monitor creatinine
   - monitor I/O's
   .
   AG acidosis: Resolved.
   - monitor FS and ISS
   .
   SVT: ? MAT on EKG after being off metoprolol at home, now HR better
   controlled, may have been secondary to hypovolemia
   - IVFs as needed
   - metoprolol 25mg [**Hospital1 **]
   - monitor on tele
   .
   Diastolic heart failure: peripheral edema but lungs sound clear
   - monitor clinically
   - restart lasix/spironolactone when stable
   .
   Afib: documented in past
   - repeat EKG
   -continue rate control if no evidence of heart block
   .
   Hx of substance abuse: negative tox screen
   Depression: continue OP meds
   OSA: Does not wear CPAP on home:
   - now intubated
   .
   Intertriginous erythema: Likely secondary to fungal infection. [**Month (only) 11**] be
   superinfected.  On vanco for cellulitis.
   - Topical miconazole
   - Monitor for improvement.
   S/P fall: sounds mechanical; denies concerning symptoms. Having right
   ankle pain
   - f/u ankle xray
   FEN: nutrition consult,
   ICU Care
   Nutrition:
   Pending nutrition consult.
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2192-8-13**] 11:35 PM
   Multi Lumen - [**2192-8-14**] 07:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition: ICU

2192-08-16 10:08:00 Physician Attending Progress Note
Chief Complaint: cellulitis with hypotension, respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Right ankle fracture, s/p cast placement by ortho. Clinda changed to
   flagyl. Dyssynchrony on vent and bronchospasm, received one dose of
   vecuronium. Anaesthesia consulted for A-line placement.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Amoxicillin
   Rash;
   Nortriptyline
   Rash;
   Last dose of Antibiotics:
   Clindamycin - [**2192-8-15**] 04:00 AM
   Metronidazole - [**2192-8-16**] 04:00 AM
   Vancomycin - [**2192-8-16**] 08:13 AM
   Ciprofloxacin - [**2192-8-16**] 08:13 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Phenylephrine - 0.8 mcg/Kg/min
   Other ICU medications:
   Vecuronium - [**2192-8-16**] 01:17 AM
   Other medications:
   heparin 5000 s/c tid, insulin sliding scale, prozac, ariprizole,
   propofol drip, methylprednisone 125mg iv q6h,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-8-16**] 10:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.6
C (97.8
   HR: 73 (65 - 90) bpm
   BP: 87/50(58) {87/50(58) - 148/98(111)} mmHg
   RR: 20 (10 - 22) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
   CVP: 15 (13 - 295)mmHg
   Total In:
                                                                  2,383 mL
                                                                  1,145 mL
   PO:
   TF:
   IVF:
                                                                  2,323 mL
                                                                  1,085 mL
   Blood products:
   Total out:
                                                                  2,450 mL
                                                                    970 mL
   Urine:
                                                                  2,450 mL
                                                                    970 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -67 mL
                                                                    175 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 500) mL
   Vt (Spontaneous): 174 (174 - 702) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 34 cmH2O
   Plateau: 30 cmH2O
   Compliance: 30 cmH2O/mL
   SpO2: 98%
   ABG: 7.32/52/183/23/0
   Ve: 8.9 L/min
   PaO2 / FiO2: 366
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, No(t) NG tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal, Distant)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : )
   Abdominal: Soft, Bowel sounds present, Obese
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   13.3 g/dL
   355 K/uL
   155 mg/dL
   1.0 mg/dL
   23 mEq/L
   4.4 mEq/L
   17 mg/dL
   104 mEq/L
   139 mEq/L
   45.2 %
   9.4 K/uL
        [image002.jpg]
                             [**2192-8-14**]  12:28 AM
                             [**2192-8-14**]  06:07 AM
                             [**2192-8-14**]  12:02 PM
                             [**2192-8-14**]  05:35 PM
                             [**2192-8-14**]  09:32 PM
                             [**2192-8-15**]  03:42 AM
                             [**2192-8-15**]  06:00 AM
                             [**2192-8-16**]  01:55 AM
                             [**2192-8-16**]  02:49 AM
   WBC
   15.2
   14.1
   9.4
   Hct
   45.4
   34
   40.5
   45.2
   Plt
   292
   323
   355
   Cr
   1.0
   1.4
   1.7
   1.4
   1.0
   TCO2
   30
   28
   Glucose
   [**Telephone/Fax (3) 7986**]65
   0
   135
   155
   Other labs: PT / PTT / INR:14.5/31.6/1.3, Lactic Acid:1.5 mmol/L,
   Albumin:3.0 g/dL, Ca++:8.5 mg/dL, Mg++:1.7 mg/dL, PO4:2.9 mg/dL
   Imaging: CXR stable LLL atelectasis vs pneumonia.
   Microbiology: no new
   Assessment and Plan
Respiratory failure:
    COPD, OSA, likely with superimposed aspiration event likely into LLL
   on CXR. Bronchospastic overnight ? related to aspiration , now much
   improved. Continue inhalers, wean steroids to off over the course of
   next 3 days. Continue therapy with cipro/flagyl/vanco. check vanco
   troughs. Wean PEEP and FIO2, goal PCO2 50-60 which is her baseline. Aim
   to keep pH slightly acidemic.
Malpositioned NG tube: was too high, developed small amounts coffee
   grounds, now subsided, readvanced, recheck CXR
 IMPAIRED SKIN INTEGRITY:continue wound care
 INEFFECTIVE COPING: contact daughter today.
   ICU Care
   Nutrition: tube feeds
   Glycemic Control:
   Lines:
   20 Gauge - [**2192-8-13**] 11:35 PM
   Multi Lumen - [**2192-8-14**] 07:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 35minutes

2192-08-17 07:34:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: [**8-16**]
   - Somehow lost splint to R ankle. Ortho will come by and replace with
   something else in AM
   - Weaned FIO2 to 40%
   - Vanco trough 15
   - Attempted to call daughter. [**Name (NI) 83**] answer
   - Received 240 prednisone yesterday.
   - Hyperglycemic this AM to 300s
   Ortho c/s:bivalve cast and assume closed treatment of
   trimalleolar ankle fracture.  It is very likely that fracture may
   require surgical fixation in the future; however, her medical
   condition at this point precludes it as well as the overlying
   cellulitis.
   24 Hour Events:
   Patient unable to provide history: Sedated
   Allergies:
   Amoxicillin
   Rash;
   Nortriptyline
   Rash;
   Last dose of Antibiotics:
   Clindamycin - [**2192-8-15**] 04:00 AM
   Ciprofloxacin - [**2192-8-16**] 08:13 AM
   Vancomycin - [**2192-8-16**] 08:00 PM
   Metronidazole - [**2192-8-17**] 04:00 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-8-17**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.7
   HR: 66 (53 - 76) bpm
   BP: 91/73(77) {87/36(52) - 150/87(100)} mmHg
   RR: 18 (18 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
    CVP: 1 (1 - 25)mmHg
   Total In:
                                                                  2,964 mL
                                                                    566 mL
   PO:
   TF:
                                                                     47 mL
   IVF:
                                                                  2,724 mL
                                                                    519 mL
   Blood products:
   Total out:
                                                                  1,940 mL
                                                                    570 mL
   Urine:
                                                                  1,940 mL
                                                                    570 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,024 mL
                                                                     -4 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 30 cmH2O
   Plateau: 24 cmH2O
   Compliance: 32.1 cmH2O/mL
   SpO2: 97%
   ABG: ///16/
   Ve: 8.7 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric)
   Abdominal: Soft
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Cool, Rash: none
   Neurologic: Responds to stimuli. Not assessed, Movement: non
   purposeful, Sedated, Tone: Normal
   Labs / Radiology
   274 K/uL
   11.8 g/dL
   311 mg/dL
   1.0 mg/dL
   16 mEq/L
   4.5 mEq/L
   21 mg/dL
   106 mEq/L
   135 mEq/L
   39.2 %
   5.9 K/uL
        [image002.jpg]
                             [**2192-8-14**]  12:28 AM
                             [**2192-8-14**]  06:07 AM
                             [**2192-8-14**]  12:02 PM
                             [**2192-8-14**]  05:35 PM
                             [**2192-8-14**]  09:32 PM
                             [**2192-8-15**]  03:42 AM
                             [**2192-8-15**]  06:00 AM
                             [**2192-8-16**]  01:55 AM
                             [**2192-8-16**]  02:49 AM
                             [**2192-8-17**]  03:52 AM
   WBC
   15.2
   14.1
   9.4
   5.9
   Hct
   45.4
   34
   40.5
   45.2
   39.2
   Plt
   292
   323
   355
   274
   Cr
   1.0
   1.4
   1.7
   1.4
   1.0
   1.0
   TCO2
   30
   28
   Glucose
   [**Telephone/Fax (3) 7986**]65
   0
   135
   155
   311
   Other labs: PT / PTT / INR:13.1/30.4/1.1, Differential-Neuts:82.6 %,
   Lymph:13.2 %, Mono:3.7 %, Eos:0.3 %, Lactic Acid:1.8 mmol/L,
   Albumin:3.0 g/dL, Ca++:8.3 mg/dL, Mg++:1.7 mg/dL, PO4:2.9 mg/dL
   Microbiology: WOUND CULTURE (Preliminary):    RESULTS PENDING.
   Blood Culture: no growth
   Assessment and Plan
 PNEUMONIA, ASPIRATION
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITHOUT ACUTE EXACERBATION
 OBSTRUCTIVE SLEEP APNEA (OSA)
 ATRIAL FIBRILLATION (AFIB)
 IMPAIRED SKIN INTEGRITY
 INEFFECTIVE COPING
   62 yo W with PMH of DM, HTN, CAD, diastolic CHF, polysubstance abuse
   here with cellulitis.
   Repiratory distress/COPD: Will wean sedation. Will attempt to wean down
   FIO2 to 40%. Will attempt trial of pressure support.
   - wean vent as able
   - ipratroprium nebs
   - continue abx.
   - ck VBG
   - continue prednisone 60mg daily
   Cellulitis: Elevated wbc count though afebrile. On flagyl for anaerobic
   coverage. ESR of 33, CRP 220. Will continue to follow evolution of
   wounds. GS on wound swab was negative. Suspect CRP elevated due to
   other acute phase processes. Currently off  of pressors
   - Continue vanco /cipro/flagyl
   - f/u culture data: NGTD
   - f/u vascular recs
   ARF: LIkely prerenal given hyperglycemia. Now with robust U/O and
   improved urine output.
   - IVFs
   - continue to monitor creatinine
   - monitor I/O's
   AG acidosis: Resolved.
   - monitor FS and ISS
   SVT: ? MAT on EKG after being off metoprolol at home, now HR better
   controlled, may have been secondary to hypovolemia
   - IVFs as needed
   - metoprolol 25mg [**Hospital1 **]
   - monitor on tele
   Diastolic heart failure: Appears more volume overloaded on CXR. Will
   try to keep her I/O even.
   - monitor clinically
   - restart lasix/spironolactone when stable
   Afib: documented in past
   - repeat EKG
   -continue rate control if no evidence of heart block
   Hx of substance abuse: negative tox screen
   Depression: continue OP meds
   OSA: Does not wear CPAP on home:
   - now intubated
   Intertriginous erythema: Likely secondary to fungal infection. [**Month (only) 11**] be
   superinfected.  On vanco for cellulitis.
   - Topical miconazole
   - Monitor for improvement.
   S/P fall: sounds mechanical; denies concerning symptoms. Having right
   ankle pain
   - f/u ankle xray
   FEN: nutrition consult,
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2192-8-17**] 05:04 AM 20 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2192-8-13**] 11:35 PM
   Multi Lumen - [**2192-8-14**] 07:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2192-08-17 11:53:00 Physician Attending Progress Note
Chief Complaint: sepsis, cellulitis, respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Received inadvertent 240mg of prednisone overnight.
   Patient unable to provide history: Sedated
   Allergies:
   Amoxicillin
   Rash;
   Nortriptyline
   Rash;
   Last dose of Antibiotics:
   Clindamycin - [**2192-8-15**] 04:00 AM
   Ciprofloxacin - [**2192-8-16**] 08:13 AM
   Metronidazole - [**2192-8-17**] 04:00 AM
   Vancomycin - [**2192-8-17**] 08:00 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2192-8-17**] 08:00 AM
   Other medications:
   RISS, miconazole, peridex
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-8-17**] 11:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 35.1
C (95.2
   HR: 60 (53 - 76) bpm
   BP: 95/62(68) {91/36(52) - 126/87(97)} mmHg
   RR: 20 (18 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 66 Inch
   CVP: 10 (1 - 25)mmHg
   Total In:
                                                                  2,964 mL
                                                                  1,167 mL
   PO:
   TF:
                                                                    153 mL
   IVF:
                                                                  2,724 mL
                                                                    904 mL
   Blood products:
   Total out:
                                                                  1,940 mL
                                                                    955 mL
   Urine:
                                                                  1,940 mL
                                                                    955 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,024 mL
                                                                    212 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 33 cmH2O
   Plateau: 26 cmH2O
   Compliance: 28.1 cmH2O/mL
   SpO2: 99%
   ABG: ///16/
   Ve: 7.7 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal, Distant)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Responds to: Noxious stimuli, Movement: Non -purposeful,
   Tone: Normal
   Labs / Radiology
   11.8 g/dL
   274 K/uL
   311 mg/dL
   1.0 mg/dL
   16 mEq/L
   4.5 mEq/L
   21 mg/dL
   106 mEq/L
   135 mEq/L
   39.2 %
   5.9 K/uL
        [image002.jpg]
                             [**2192-8-14**]  12:28 AM
                             [**2192-8-14**]  06:07 AM
                             [**2192-8-14**]  12:02 PM
                             [**2192-8-14**]  05:35 PM
                             [**2192-8-14**]  09:32 PM
                             [**2192-8-15**]  03:42 AM
                             [**2192-8-15**]  06:00 AM
                             [**2192-8-16**]  01:55 AM
                             [**2192-8-16**]  02:49 AM
                             [**2192-8-17**]  03:52 AM
   WBC
   15.2
   14.1
   9.4
   5.9
   Hct
   45.4
   34
   40.5
   45.2
   39.2
   Plt
   292
   323
   355
   274
   Cr
   1.0
   1.4
   1.7
   1.4
   1.0
   1.0
   TCO2
   30
   28
   Glucose
   [**Telephone/Fax (3) 7986**]65
   0
   135
   155
   311
   Other labs: PT / PTT / INR:13.1/30.4/1.1, Differential-Neuts:82.6 %,
   Lymph:13.2 %, Mono:3.7 %, Eos:0.3 %, Lactic Acid:1.8 mmol/L,
   Albumin:3.0 g/dL, Ca++:8.3 mg/dL, Mg++:1.7 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 Respiratory failure: OSA/COPD + possible underlying aspiration, no
   signficant secretions. Wean steroids, no further episode of
   bronchospasm. Starting to develop some volume overload. Will aim to
   keep TBB even with lasix as necessary.
   Vent: FiO2 wean to 30%, wean sedation and pressure support. follow
   venous gas.
 Cellulitis/sepsis: improved on current antiobitics, culture data
   negative to date. Treating cellullitis.
 sedation: decrease sedation and wake up today.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2192-8-17**] 05:04 AM 30 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2192-8-13**] 11:35 PM
   Multi Lumen - [**2192-8-14**] 07:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2192-08-18 07:56:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: [**8-17**]
   - changed to PS
   - cast placed on right ankle
   - steriod dose decreased to solumedrol 40 Q12
   - low UO in evening, gave 500ml over 3 hours
   - tachy in afternoon to low 100s, restarted metoprolol at 12.5 [**Hospital1 **]
   - no new ortho or vascular rec changes
   24 Hour Events:
   Patient unable to provide history: Sedated
   Allergies:
   Amoxicillin
   Rash;
   Nortriptyline
   Rash;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2192-8-16**] 08:13 AM
   Vancomycin - [**2192-8-17**] 08:00 AM
   Metronidazole - [**2192-8-18**] 04:41 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2192-8-18**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-8-18**] 07:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.8
C (98.2
   HR: 94 (57 - 102) bpm
   BP: 102/68(75) {91/54(68) - 132/89(96)} mmHg
   RR: 17 (8 - 20) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
    CVP: 32 (10 - 32)mmHg
   Total In:
                                                                  3,246 mL
                                                                    574 mL
   PO:
   TF:
                                                                    527 mL
                                                                    222 mL
   IVF:
                                                                  2,509 mL
                                                                    352 mL
   Blood products:
   Total out:
                                                                  1,228 mL
                                                                    130 mL
   Urine:
                                                                  1,228 mL
                                                                    130 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,018 mL
                                                                    444 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (450 - 500) mL
   Vt (Spontaneous): 420 (361 - 556) mL
   PS : 5 cmH2O
   RR (Set): 8
   RR (Spontaneous): 13
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 16 cmH2O
   Plateau: 26 cmH2O
   Compliance: 31.3 cmH2O/mL
   SpO2: 95%
   ABG: ///24/
   Ve: 5.1 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Not assessed), (Left DP pulse: Not
   assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   )
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed
   Neurologic: No(t) Follows simple commands, Responds to: Noxious
   stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   336 K/uL
   13.1 g/dL
   206 mg/dL
   1.4 mg/dL
   24 mEq/L
   4.8 mEq/L
   33 mg/dL
   104 mEq/L
   137 mEq/L
   43.4 %
   10.0 K/uL
        [image002.jpg]
                             [**2192-8-14**]  12:02 PM
                             [**2192-8-14**]  05:35 PM
                             [**2192-8-14**]  09:32 PM
                             [**2192-8-15**]  03:42 AM
                             [**2192-8-15**]  06:00 AM
                             [**2192-8-16**]  01:55 AM
                             [**2192-8-16**]  02:49 AM
                             [**2192-8-17**]  03:52 AM
                             [**2192-8-17**]  06:26 PM
                             [**2192-8-18**]  04:44 AM
   WBC
   14.1
   9.4
   5.9
   10.0
   Hct
   34
   40.5
   45.2
   39.2
   43.4
   Plt
   [**Telephone/Fax (3) 8089**]36
   Cr
   1.7
   1.4
   1.0
   1.0
   1.2
   1.4
   TCO2
   30
   28
   Glucose
   169
   165
   0
   135
   155
   311
   287
   206
   Other labs: PT / PTT / INR:12.3/27.9/1.0, Differential-Neuts:73.8 %,
   Lymph:18.3 %, Mono:7.3 %, Eos:0.2 %, Lactic Acid:1.8 mmol/L,
   Albumin:3.0 g/dL, Ca++:8.6 mg/dL, Mg++:2.0 mg/dL, PO4:4.1 mg/dL
   Microbiology: [**2192-8-15**] 2:37 pm SWAB      Source: leg.
      GRAM STAIN (Final [**2192-8-15**]):
         NO POLYMORPHONUCLEAR LEUKOCYTES SEEN.
         NO MICROORGANISMS SEEN.
      WOUND CULTURE (Preliminary):
         Due to mixed bacterial types (>=3) an abbreviated workup is
         performed; P.aeruginosa, S.aureus and beta strep. are reported if
         present. Susceptibility will be performed on P.aeruginosa and
         S.aureus if sparse growth or greater..
   Assessment and Plan
 PNEUMONIA, ASPIRATION
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITHOUT ACUTE EXACERBATION
 OBSTRUCTIVE SLEEP APNEA (OSA)
 ATRIAL FIBRILLATION (AFIB)
 IMPAIRED SKIN INTEGRITY
 INEFFECTIVE COPING
   62 yo W with PMH of DM, HTN, CAD, diastolic CHF, polysubstance abuse
   here with cellulitis.
   Repiratory distress/COPD: Will wean sedation. Now on MMV/PS, no
   evidence of dysynchrony.
   - wean vent as able
   - ipratroprium nebs
   - continue abx.
   - ck VBG
   - wean solumedrol 40mg [**Hospital1 **] to daily
   Cellulitis: Elevated wbc count though afebrile. On flagyl for anaerobic
   coverage. ESR of 33, CRP 220. Will continue to follow evolution of
   wounds. GS on wound swab was negative. Suspect CRP elevated due to
   other acute phase processes. Currently off  of pressors
   - Continue vanco /cipro/flagyl
   - f/u culture data: NGTD
   - f/u vascular recs
   -xray lt leg
   R Ankle Fracture: Trimalleolar right ankle fx. Currently in splint.
   - Follow ortho recs
   - Will need surgical fixation at some point
   ARF: LIkely prerenal given hyperglycemia. Now with robust U/O and
   improved urine output.
   - IVFs
   - continue to monitor creatinine
   - monitor I/O's
   -will check urine lytes
   AG acidosis: Resolved.
   - monitor FS and ISS
   SVT: ? MAT on EKG after being off metoprolol at home, now HR better
   controlled, may have been secondary to hypovolemia
   - IVFs as needed
   - metoprolol 12.5 [**Hospital1 **]
   - monitor on tele
   Diastolic heart failure: Appears more volume overloaded on CXR. Will
   try to keep her I/O even.
   - monitor clinically
   - restart lasix/spironolactone when stable
   Afib: documented in past
   - repeat EKG
   -continue rate control if no evidence of heart block
   Hx of substance abuse: negative tox screen
   Depression: continue OP meds
   OSA: Does not wear CPAP on home:
   - now intubated
   Intertriginous erythema: Likely secondary to fungal infection. [**Month (only) 11**] be
   superinfected.  On vanco for cellulitis.
   - Topical miconazole
   - Monitor for improvement.
   ICU Care
   Nutrition: tube feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2192-8-13**] 11:35 PM
   Multi Lumen - [**2192-8-14**] 07:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition:

2192-08-18 10:10:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   60F with obesity, OSA, COPD, DM, a/w sepsis 2/2 L leg cellulitis.
   24 Hour Events:
   -Has been off pressors for ~ 48h
   -Yesterday transitioned to pressure support
   -Cast replaced R ankle
   -Steroids decreasing to 40 q12h (started for COPD)
   -Tachycardic, metoprolol restarted (has h/o AF)
   - Increased PS to 10 because low tidal volumes (300s)
   Allergies:
   Amoxicillin
   Rash;
   Nortriptyline
   Rash;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2192-8-16**] 08:13 AM
   Metronidazole - [**2192-8-18**] 04:41 AM
   Vancomycin - [**2192-8-18**] 08:00 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2192-8-18**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-8-18**] 09:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.5
   HR: 101 (57 - 102) bpm
   BP: 121/73(86) {91/54(68) - 132/89(96)} mmHg
   RR: 15 (8 - 20) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
   CVP: 32 (10 - 32)mmHg
   Total In:
                                                                  3,246 mL
                                                                    971 mL
   PO:
   TF:
                                                                    527 mL
                                                                    289 mL
   IVF:
                                                                  2,509 mL
                                                                    622 mL
   Blood products:
   Total out:
                                                                  1,228 mL
                                                                    167 mL
   Urine:
                                                                  1,228 mL
                                                                    167 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,018 mL
                                                                    804 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 383 (361 - 556) mL
   PS : 5 cmH2O
   RR (Set): 8
   RR (Spontaneous): 15
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 16 cmH2O
   SpO2: 91%
   ABG: ///24/
   Ve: 6.1 L/min
   Physical Examination
   GEN:  Morbidly obese, ventilated, unarousable.
   HEENT: Pupils sluggish, but reactive.
   PULM:  Coarse BS bilaterally, moving air well.
   ABD: Obese, umbilical hernia
   EXT: LLE wound, ~ [**4-19**], healthy granulation tissue.
   Labs / Radiology
   13.1 g/dL
   336 K/uL
   206 mg/dL
   1.4 mg/dL
   24 mEq/L
   4.8 mEq/L
   33 mg/dL
   104 mEq/L
   137 mEq/L
   43.4 %
   10.0 K/uL
        [image002.jpg]
                             [**2192-8-14**]  12:02 PM
                             [**2192-8-14**]  05:35 PM
                             [**2192-8-14**]  09:32 PM
                             [**2192-8-15**]  03:42 AM
                             [**2192-8-15**]  06:00 AM
                             [**2192-8-16**]  01:55 AM
                             [**2192-8-16**]  02:49 AM
                             [**2192-8-17**]  03:52 AM
                             [**2192-8-17**]  06:26 PM
                             [**2192-8-18**]  04:44 AM
   WBC
   14.1
   9.4
   5.9
   10.0
   Hct
   34
   40.5
   45.2
   39.2
   43.4
   Plt
   [**Telephone/Fax (3) 8089**]36
   Cr
   1.7
   1.4
   1.0
   1.0
   1.2
   1.4
   TCO2
   30
   28
   Glucose
   169
   165
   0
   135
   155
   311
   287
   206
   Other labs: PT / PTT / INR:12.3/27.9/1.0, Differential-Neuts:73.8 %,
   Lymph:18.3 %, Mono:7.3 %, Eos:0.2 %, Lactic Acid:1.6 mmol/L,
   Albumin:3.0 g/dL, Ca++:8.6 mg/dL, Mg++:2.0 mg/dL, PO4:4.1 mg/dL
   Imaging: Mild b/l effusions, unchanged pulmonary edema; lower lung
   volumes c/w yesterday.
   Microbiology: - LE ulcer swab: No polys, no organisms to date.
   Assessment and Plan
   62F DM, HTN, diastolic HF, a/w sepsis for LE cellulitis.
   1.       Respiratory
 COPD, OSA
   -  Increased PS this am for low TV; will need to attempt to wean PS,
   lighten sedation to move towards extubation.
   -  Repeat VBG on higher PS
   - On solumedrol for COPD (and subglottic stenosis)
   2.  Cellulitis, wbc rising,
   - On vanc/cipro/flagyl; no new growth
   - Vascular following
   3.  ARF
 Cr rising slightly (1.7
 1.4
 1.2
 1.4)
   -  Rechecking urine lytes
   4.  R ankle fracture (trimalleolar)
   - Ortho following, will need surgery eventually.
   5.  Tachycardia (known AF, though here strips more c/w MAT), tolerating
   from BP perspective.
   - Restarted on metoprolol (lower dose than home).
   6.  CV: Diastolic HF, looks a bit more wet on CXR today
   - Maximize rate control, may need to consider diuresis if poor progress
   with weaning PS.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2192-8-18**] 07:23 AM 30 mL/hour
   Glycemic Control:  On RISS
   Lines:
   Multi Lumen - [**2192-8-14**] 07:00 PM
   Prophylaxis:
   DVT:  On SC heparin
   Stress ulcer:  Will start PPI (esp as on steroids)
   VAP: HOB, mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:  45 mins

2192-08-19 07:49:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - LLE xray: periosteal reaction appears to be very well defined and
   therefore is likely old. Assessment for acute bony infection would be
   better performed with MRI or bone scan.
   - Had worsening acidosis on PS. Changed back to AC mode.
   Allergies:
   Amoxicillin
   Rash;
   Nortriptyline
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2192-8-18**] 08:00 PM
   Ciprofloxacin - [**2192-8-18**] 10:08 PM
   Metronidazole - [**2192-8-19**] 04:05 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2192-8-19**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-8-19**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.7
C (98
   HR: 64 (57 - 90) bpm
   BP: 128/88(98) {94/63(68) - 131/89(98)} mmHg
   RR: 15 (13 - 20) insp/min
   SpO2: 98%
   Heart rhythm: WAP (Wandering atrial pacemaker)
   Height: 66 Inch
             Total In:
                                                                  2,813 mL
                                                                    551 mL
   PO:
             TF:
                                                                    720 mL
                                                                    218 mL
   IVF:
                                                                  1,882 mL
                                                                    333 mL
   Blood products:
   Total out:
                                                                    646 mL
                                                                    565 mL
   Urine:
                                                                    646 mL
                                                                    565 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,167 mL
                                                                    -14 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 421 (383 - 429) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 30 cmH2O
   Plateau: 27 cmH2O
   SpO2: 98%
   ABG: ///27/
   Ve: 6.7 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : )
   Abdominal: Soft, Obese
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed, Rash: LLE ulcers dressed with serosanguinous
   drainage, Cast to R ankle
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   362 K/uL
   12.2 g/dL
   295 mg/dL
   1.8 mg/dL
   27 mEq/L
   4.7 mEq/L
   47 mg/dL
   102 mEq/L
   136 mEq/L
   41.2 %
   8.8 K/uL
        [image002.jpg]
                             [**2192-8-14**]  05:35 PM
                             [**2192-8-14**]  09:32 PM
                             [**2192-8-15**]  03:42 AM
                             [**2192-8-15**]  06:00 AM
                             [**2192-8-16**]  01:55 AM
                             [**2192-8-16**]  02:49 AM
                             [**2192-8-17**]  03:52 AM
                             [**2192-8-17**]  06:26 PM
                             [**2192-8-18**]  04:44 AM
                             [**2192-8-19**]  04:11 AM
   WBC
   14.1
   9.4
   5.9
   10.0
   8.8
   Hct
   34
   40.5
   45.2
   39.2
   43.4
   41.2
   Plt
   [**Telephone/Fax (3) 8089**]36
   362
   Cr
   1.7
   1.4
   1.0
   1.0
   1.2
   1.4
   1.8
   TCO2
   28
   Glucose
   169
   165
   0
   135
   155
   311
   287
   206
   295
   Other labs: PT / PTT / INR:13.0/29.3/1.1, Differential-Neuts:73.8 %,
   Lymph:18.3 %, Mono:7.3 %, Eos:0.2 %, Lactic Acid:1.6 mmol/L,
   Albumin:3.0 g/dL, Ca++:8.6 mg/dL, Mg++:2.1 mg/dL, PO4:4.4 mg/dLCX
   Imaging: CXR: Mild to mod pulmonary edema
   L TIB/FIB
   FINDINGS: Frontal and lateral views of the left lower extremity
   demonstrate
   soft tissue edema. There is some defined periosteal reaction about the
   proximal fibula. There are no old films available for comparison;
   however,
   this periosteal reaction appears to be very well defined and therefore
   is
   likely old. Assessment for acute bony infection would be better
   performed
   with MRI or bone scan.
   Microbiology: BCX: [**8-14**]: NGTD
   Wound cx [**8-15**]: No  growth
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 PNEUMONIA, ASPIRATION
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITHOUT ACUTE EXACERBATION
 OBSTRUCTIVE SLEEP APNEA (OSA)
 ATRIAL FIBRILLATION (AFIB)
 IMPAIRED SKIN INTEGRITY
 INEFFECTIVE COPING
   Repiratory distress/COPD: Did not tolerate trial of PS yesterday. Had
   increasing CO2 and worsening acidemia. [**Month (only) 11**] be combination of sedation
   and increased CO2 production given underlying infectious process. Has
   worsening pulm edema on chest xray which may contribute to why she is
   not improving on PS.
   - Lasix 40 IV x1, gtt if responds to bolus
   - attempt to wean sedation again.
   - trial of PS if more awake with monitoring of VBGs.
   - ipratroprium nebs
   - continue abx.
   - wean solumedrol 40mg [**Hospital1 **] to daily to prednisone
   Cellulitis: WBC now normal. ESR of 33, CRP 220. Will continue to follow
   evolution of wounds. GS on wound swab was negative. Suspect CRP
   elevated due to other acute phase processes. Currently off  of
   pressors.
   - Continue vanco /cipro/flagyl
   - f/u culture data: NGTD
   - f/u vascular recs
   -xray lt leg ? old fracture
   - once stable consider MRI left leg to eval for osteo; If negative will
   treat empirically for 14 day course
   R Ankle Fracture: Trimalleolar right ankle fx. Currently in splint.
   - Follow ortho recs
   - Will need surgical fixation at some point
   ARF: LIkely prerenal given UNa<10. Now with robust U/O and improved
   urine output. Still 1.8. Received small fluid bolus. Continue small
   fluid bolus though will need to be wary b/c worsening pulmonary edema
   on CXR.
   - IVFs
   - continue to monitor creatinine
   - monitor I/O's
   AG acidosis: Resolved.
   - monitor FS and ISS
   SVT: ? MAT on EKG after being off metoprolol at home, now HR better
   controlled, may have been secondary to hypovolemia
   - IVFs as needed
   - metoprolol 12.5 [**Hospital1 **]
   - monitor on tele
   Diastolic heart failure: Appears more volume overloaded on CXR. Will
   try to keep her I/O even. Good urine outpute o/n.
   - monitor clinically
   - restart lasix/spironolactone when stable
   Afib: documented in past
   - repeat EKG
   -continue rate control at low dose
   Depression: continue OP meds
   OSA: Does not wear CPAP on home:
   - now intubated
   Intertriginous erythema: Likely secondary to fungal infection. [**Month (only) 11**] be
   superinfected.  On vanco for cellulitis.
   - Topical miconazole
   - Monitor for improvement.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2192-8-19**] 07:15 AM 20 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2192-8-14**] 07:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition:

2192-08-19 13:01:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   62F with COPD, OSA, obesity, a/w cellulitis LLE, intubated for
   hypoxemia, hypercapnea.
   24 Hour Events:
   Left plain film: acute periosteal reaction.
   Trial on PS, 7.21/70/49 - failed; transitioned back to VC.
   Allergies:
   Amoxicillin
   Rash;
   Nortriptyline
   Rash;
   Last dose of Antibiotics:
   Metronidazole - [**2192-8-19**] 04:05 AM
   Vancomycin - [**2192-8-19**] 09:00 AM
   Ciprofloxacin - [**2192-8-19**] 10:16 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2192-8-19**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-8-19**] 12:59 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.5
   HR: 59 (56 - 90) bpm
   BP: 118/76(86) {94/64(76) - 131/89(98)} mmHg
   RR: 14 (13 - 20) insp/min
   SpO2: 99%
   Heart rhythm: WAP (Wandering atrial pacemaker)
   Height: 66 Inch
             Total In:
                                                                  2,813 mL
                                                                  1,100 mL
   PO:
             TF:
                                                                    720 mL
                                                                    309 mL
   IVF:
                                                                  1,882 mL
                                                                    672 mL
   Blood products:
   Total out:
                                                                    646 mL
                                                                    728 mL
   Urine:
                                                                    646 mL
                                                                    728 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,167 mL
                                                                    372 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 421 (421 - 421) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 34 cmH2O
   Plateau: 26 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 99%
   ABG: ///27/
   Ve: 6.5 L/min
   Physical Examination
   GEN: Obese, ventilated, starts to open eyes to commands
   HEENT:  PERRL
   PULM: Diffuse rhonchi
   CV: Irreg
   ABD: Obese, umb hernia
   EXT [**1-17**]+ edema
   Labs / Radiology
   12.2 g/dL
   362 K/uL
   295 mg/dL
   1.8 mg/dL
   27 mEq/L
   4.7 mEq/L
   47 mg/dL
   102 mEq/L
   136 mEq/L
   41.2 %
   8.8 K/uL
        [image002.jpg]
                             [**2192-8-14**]  05:35 PM
                             [**2192-8-14**]  09:32 PM
                             [**2192-8-15**]  03:42 AM
                             [**2192-8-15**]  06:00 AM
                             [**2192-8-16**]  01:55 AM
                             [**2192-8-16**]  02:49 AM
                             [**2192-8-17**]  03:52 AM
                             [**2192-8-17**]  06:26 PM
                             [**2192-8-18**]  04:44 AM
                             [**2192-8-19**]  04:11 AM
   WBC
   14.1
   9.4
   5.9
   10.0
   8.8
   Hct
   34
   40.5
   45.2
   39.2
   43.4
   41.2
   Plt
   [**Telephone/Fax (3) 8089**]36
   362
   Cr
   1.7
   1.4
   1.0
   1.0
   1.2
   1.4
   1.8
   TCO2
   28
   Glucose
   169
   165
   0
   135
   155
   311
   287
   206
   295
   Other labs: PT / PTT / INR:13.0/29.3/1.1, Differential-Neuts:73.8 %,
   Lymph:18.3 %, Mono:7.3 %, Eos:0.2 %, Lactic Acid:1.6 mmol/L,
   Albumin:3.0 g/dL, Ca++:8.6 mg/dL, Mg++:2.1 mg/dL, PO4:4.4 mg/dL
   Imaging: CXR: Worsening pulmonary edeam.
   Microbiology: All cultures negative to date.
   Assessment and Plan
 CELLULITIS
 wbc stable, no fevers.
   - More purulent drainage
   - Repeating wound culture, blood cultures
   - Cont vanc/cipro/flagyl for now.
   - Vanc trough
 FRACTURE, OTHER - followed by ortho, in R cast.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   - Worsening ventilation, worsening pulmonary edema
   - Rising Pips, suspect Plats will be elevated as wel
   - Will prioritize diruesis, cont to wean steroids (and transition to
   PO).
   - Sputum cx
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF) - little improvement
   with bolus (500cc x 2); overall + 2L
   - Trial diuresis today, monitor Cr, I/O
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   - Steroid taper
 ATRIAL FIBRILLATION (AFIB) - on BB
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2192-8-19**] 07:15 AM 20 mL/hour
   Glycemic Control:   RISS
   Lines:
   Multi Lumen - [**2192-8-14**] 07:00 PM
   Prophylaxis:
   DVT: hep SC
   Stress ulcer: PPI
   VAP:  HOB
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :  Pt remains critically ill
   Total time spent: 45 min

2192-08-20 07:42:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Changed steroids to Pred 40mg PO daily
   Chaged flagyl to PO
   Gave lasix bolus 40mg IV x 2 with good uo
   Vanco trough 37.1. Dose held
   24 Hour Events:
 BLOOD CULTURED - At [**2192-8-19**] 01:37 PM
   Allergies:
   Amoxicillin
   Rash;
   Nortriptyline
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2192-8-19**] 09:00 AM
   Ciprofloxacin - [**2192-8-19**] 10:04 PM
   Metronidazole - [**2192-8-20**] 04:10 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Propofol - [**2192-8-19**] 08:30 PM
   Heparin Sodium (Prophylaxis) - [**2192-8-20**] 12:00 AM
   Furosemide (Lasix) - [**2192-8-20**] 12:14 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-8-20**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.7
C (98
   HR: 78 (54 - 91) bpm
   BP: 105/51(63) {105/51(63) - 168/108(132)} mmHg
   RR: 14 (0 - 16) insp/min
   SpO2: 98%
   Heart rhythm: WAP (Wandering atrial pacemaker)
   Height: 66 Inch
             Total In:
                                                                  1,842 mL
                                                                    516 mL
   PO:
             TF:
                                                                    651 mL
                                                                    227 mL
   IVF:
                                                                  1,012 mL
                                                                    229 mL
   Blood products:
   Total out:
                                                                  2,913 mL
                                                                  1,950 mL
   Urine:
                                                                  2,913 mL
                                                                  1,950 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,071 mL
                                                                 -1,434 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 30 cmH2O
   Plateau: 25 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 98%
   ABG: ///27/
   Ve: 6.5 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : )
   Abdominal: Soft, Obese
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed, Rash: LLE ulcers dressed with serosanguinous
   drainage, Cast to R ankle
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   362 K/uL
   12.3 g/dL
   176 mg/dL
   2.1 mg/dL
   27 mEq/L
   3.5 mEq/L
   54 mg/dL
   104 mEq/L
   140 mEq/L
   41.1 %
   10.9 K/uL
        [image002.jpg]
                             [**2192-8-15**]  03:42 AM
                             [**2192-8-15**]  06:00 AM
                             [**2192-8-16**]  01:55 AM
                             [**2192-8-16**]  02:49 AM
                             [**2192-8-17**]  03:52 AM
                             [**2192-8-17**]  06:26 PM
                             [**2192-8-18**]  04:44 AM
                             [**2192-8-19**]  04:11 AM
                             [**2192-8-19**]  05:50 PM
                             [**2192-8-20**]  03:28 AM
   WBC
   14.1
   9.4
   5.9
   10.0
   8.8
   10.9
   Hct
   40.5
   45.2
   39.2
   43.4
   41.2
   41.1
   Plt
   [**Telephone/Fax (3) 8138**]
   Cr
   1.4
   1.0
   1.0
   1.2
   1.4
   1.8
   2.0
   2.1
   TCO2
   28
   Glucose
   165
   0
   135
   155
   [**Telephone/Fax (2) 8139**]95
   176
   Other labs: PT / PTT / INR:13.0/29.3/1.1, Differential-Neuts:73.8 %,
   Lymph:18.3 %, Mono:7.3 %, Eos:0.2 %, Lactic Acid:1.6 mmol/L,
   Albumin:3.0 g/dL, Ca++:8.9 mg/dL, Mg++:2.1 mg/dL, PO4:3.8 mg/dL
   Wound cx [**8-15**]- GNR on gram stain
   Assessment and Plan
 BRADYCARDIA
 CELLULITIS
 FRACTURE, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 PNEUMONIA, ASPIRATION
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITHOUT ACUTE EXACERBATION
 OBSTRUCTIVE SLEEP APNEA (OSA)
 ATRIAL FIBRILLATION (AFIB)
 IMPAIRED SKIN INTEGRITY
 INEFFECTIVE COPING
   Repiratory distress/COPD: Did not tolerate trial of PS yesterday. Had
   increasing CO2 and worsening acidemia. [**Month (only) 11**] be combination of sedation
   and increased CO2 production given underlying infectious process. Has
   worsening pulm edema on chest xray which may contribute to why she is
   not improving on PS.
   - Lasix 40 IV x1, gtt if responds to bolus
   - attempt to wean sedation again.
   - trial of PS if more awake with monitoring of VBGs.
   - ipratroprium nebs
   - continue abx.
   - wean solumedrol 40mg [**Hospital1 **] to daily to prednisone
   - resend sputum cx
   Cellulitis: WBC now normal. ESR of 33, CRP 220. Will continue to follow
   evolution of wounds. GS on wound swab was negative. Suspect CRP
   elevated due to other acute phase processes. Currently off  of
   pressors.
   - Continue vanco /cipro/flagyl
   - f/u culture data: NGTD
   - f/u vascular recs
   -xray lt leg ? old fracture
   - resend blood cultures
   R Ankle Fracture: Trimalleolar right ankle fx. Currently in splint.
   - Follow ortho recs
   - Will need surgical fixation at some point
   ARF: LIkely prerenal given UNa<10. Now with robust U/O and improved
   urine output. Still 1.8. Received small fluid bolus.
   - diurese
   - continue to monitor creatinine
   - monitor I/O's
   AG acidosis: Resolved.
   - monitor FS and ISS
   SVT: ? MAT on EKG after being off metoprolol at home, now HR better
   controlled, may have been secondary to hypovolemia
   - IVFs as needed
   - metoprolol 12.5 [**Hospital1 **]
   - monitor on tele
   Diastolic heart failure: Appears more volume overloaded on CXR. Will
   try to keep her I/O even. Good urine outpute o/n.
   - monitor clinically
   - restart lasix/spironolactone when stable
   Depression: continue OP meds
   OSA: Does not wear CPAP on home:
   - now intubated
   Intertriginous erythema: Likely secondary to fungal infection. [**Month (only) 11**] be
   superinfected.  On vanco for cellulitis.
   - Topical miconazole
   - Monitor for improvement.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2192-8-20**] 01:59 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2192-8-14**] 07:00 PM
   Prophylaxis:
   DVT: Hep SC
   Stress ulcer: PPI
   VAP:  mouth care, elevation of head of bed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now

2192-08-20 13:10:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   62F with COPD, OSA, obesity - a/w cellulitis
   24 Hour Events:
   -Steroids decreased to 40mg PO qd
   -Vanc level supra tx - dose held
   -Trial diuresis - 2 doses 40mg IV  lasix --> negative 1.4L  (but with
   ensuing Cr bump)
   Allergies:
   Amoxicillin
   Rash;
   Nortriptyline
   Rash;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2192-8-19**] 10:04 PM
   Metronidazole - [**2192-8-20**] 04:10 AM
   Vancomycin - [**2192-8-20**] 08:50 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Propofol - [**2192-8-19**] 08:30 PM
   Heparin Sodium (Prophylaxis) - [**2192-8-20**] 12:00 AM
   Furosemide (Lasix) - [**2192-8-20**] 12:14 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-8-20**] 12:54 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.4
C (97.5
   HR: 64 (54 - 91) bpm
   BP: 105/65(73) {91/48(57) - 168/108(132)} mmHg
   RR: 14 (0 - 16) insp/min
   SpO2: 98%
   Heart rhythm: WAP (Wandering atrial pacemaker)
   Height: 66 Inch
             Total In:
                                                                  1,842 mL
                                                                  1,165 mL
   PO:
             TF:
                                                                    651 mL
                                                                    379 mL
   IVF:
                                                                  1,012 mL
                                                                    637 mL
   Blood products:
   Total out:
                                                                  2,913 mL
                                                                  2,530 mL
   Urine:
                                                                  2,913 mL
                                                                  2,530 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,071 mL
                                                                 -1,365 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   Plateau: 25 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 98%
   ABG: ///27/
   Ve: 7.3 L/min
   Physical Examination
   GEN:  Obese, awakens to voice today, but not following commands
   PULM: Clear anteriorly, laterally
   CV:  Distant, irreg
   ABD: Obese, soft
   EXT: LLE
 wrapped
 will visualize wound later; RLE casted.
   NEURO: Wakens to voice
   Labs / Radiology
   12.3 g/dL
   362 K/uL
   176 mg/dL
   2.1 mg/dL
   27 mEq/L
   3.5 mEq/L
   54 mg/dL
   104 mEq/L
   140 mEq/L
   41.1 %
   10.9 K/uL
        [image002.jpg]
                             [**2192-8-15**]  03:42 AM
                             [**2192-8-15**]  06:00 AM
                             [**2192-8-16**]  01:55 AM
                             [**2192-8-16**]  02:49 AM
                             [**2192-8-17**]  03:52 AM
                             [**2192-8-17**]  06:26 PM
                             [**2192-8-18**]  04:44 AM
                             [**2192-8-19**]  04:11 AM
                             [**2192-8-19**]  05:50 PM
                             [**2192-8-20**]  03:28 AM
   WBC
   14.1
   9.4
   5.9
   10.0
   8.8
   10.9
   Hct
   40.5
   45.2
   39.2
   43.4
   41.2
   41.1
   Plt
   [**Telephone/Fax (2) 8138**]
   Cr
   1.4
   1.0
   1.0
   1.2
   1.4
   1.8
   2.0
   2.1
   TCO2
   28
   Glucose
   165
   0
   135
   155
   [**Telephone/Fax (2) 8139**]95
   176
   Other labs: PT / PTT / INR:13.0/29.3/1.1, Differential-Neuts:73.8 %,
   Lymph:18.3 %, Mono:7.3 %, Eos:0.2 %, Lactic Acid:1.4 mmol/L,
   Albumin:3.0 g/dL, Ca++:8.9 mg/dL, Mg++:2.1 mg/dL, PO4:3.8 mg/dL
   Imaging: Rotated - L looks a bit better, ?  new RML, RLL opacities
   Assessment and Plan
   62F with COPD, a/w cellulitis LLE
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 complicated by
   - Diuresed effectively with lasix, good UOP,  but will hold given Cr
   rise; making little progress with ventilator liberation
   - Hint of new opacities on CXR; will culture secretions
   - Anticipate need for trach; will d/w family today
 CELLULITIS
 wbc stable
 wound looks well - cont vanc/cipro/flagyl
   - f/u wound culture (currently GNRs)
   - vascular following
 FRACTURE, OTHER
 RLE
 in cast.
   - ortho following, will eventually need surgical fixation
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 related to
   diuresis, which we will hold for now
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   - on prednisone 40mg PO qd
 ATRIAL FIBRILLATION (AFIB)
 stable, on BB.
   Fungal rash
 miconazole
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2192-8-20**] 01:59 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2192-8-14**] 07:00 PM
   Prophylaxis:
   DVT:  SC hep
   Stress ulcer:  PPI
   VAP: HOB, mouth care, etc.
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :  Staying in ICU.
   Total time spent:  35 mins

2192-08-21 07:53:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: [**8-20**]
   - decreased sedation, pt arouable but not following commands
   - PS trial, after 3 hours CO2 started to rise, so was changed  back to
   AC
   - changed abx to vanco/cipro/zosyn from vanco/flagyl/cipro, due to
   wounds having bluish pus that appeared to be pseudomonas
   24 Hour Events:
   Allergies:
   Amoxicillin
   Rash;
   Nortriptyline
   Rash;
   Last dose of Antibiotics:
   Metronidazole - [**2192-8-20**] 04:10 AM
   Vancomycin - [**2192-8-20**] 08:50 AM
   Ciprofloxacin - [**2192-8-20**] 10:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2192-8-21**] 02:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2192-8-21**] 12:13 AM
   Fentanyl - [**2192-8-21**] 05:02 AM
   Propofol - [**2192-8-21**] 05:02 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-8-21**] 07:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37
C (98.6
   HR: 97 (61 - 100) bpm
   BP: 115/73(82) {91/48(57) - 127/78(87)} mmHg
   RR: 17 (10 - 24) insp/min
   SpO2: 99%
   Heart rhythm: MAT (Multifocal atrial tachycardia)
   Height: 66 Inch
             Total In:
                                                                  2,140 mL
                                                                    544 mL
   PO:
             TF:
                                                                    720 mL
                                                                    232 mL
   IVF:
                                                                  1,070 mL
                                                                    212 mL
   Blood products:
   Total out:
                                                                  3,555 mL
                                                                    745 mL
   Urine:
                                                                  3,555 mL
                                                                    745 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,415 mL
                                                                   -201 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 479 (479 - 615) mL
   PS : 12 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O
   Plateau: 24 cmH2O
   Compliance: 35.7 cmH2O/mL
   SpO2: 99%
   ABG: ///27/
   Ve: 8.3 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Not assessed), (Left DP pulse: Not
   assessed), All pulses dopplerable
   Respiratory / Chest: (Expansion: Symmetric)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+, LLE ulcers
   Skin:  Warm
   Neurologic: No(t) Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   399 K/uL
   12.2 g/dL
   176 mg/dL
   2.1 mg/dL
   27 mEq/L
   3.4 mEq/L
   54 mg/dL
   103 mEq/L
   140 mEq/L
   40.5 %
   12.7 K/uL
        [image002.jpg]
                             [**2192-8-15**]  06:00 AM
                             [**2192-8-16**]  01:55 AM
                             [**2192-8-16**]  02:49 AM
                             [**2192-8-17**]  03:52 AM
                             [**2192-8-17**]  06:26 PM
                             [**2192-8-18**]  04:44 AM
                             [**2192-8-19**]  04:11 AM
                             [**2192-8-19**]  05:50 PM
                             [**2192-8-20**]  03:28 AM
                             [**2192-8-21**]  04:05 AM
   WBC
   9.4
   5.9
   10.0
   8.8
   10.9
   12.7
   Hct
   45.2
   39.2
   43.4
   41.2
   41.1
   40.5
   Plt
   355
   274
   336
   362
   362
   399
   Cr
   1.0
   1.0
   1.2
   1.4
   1.8
   2.0
   2.1
   2.1
   TCO2
   28
   Glucose
   0
   135
   155
   311
   287
   [**Telephone/Fax (2) 8159**]76
   Other labs: PT / PTT / INR:14.5/30.3/1.3, Differential-Neuts:73.8 %,
   Lymph:18.3 %, Mono:7.3 %, Eos:0.2 %, Lactic Acid:1.4 mmol/L,
   Albumin:3.0 g/dL, Ca++:8.9 mg/dL, Mg++:2.1 mg/dL, PO4:3.1 mg/dL
   Microbiology:    GRAM STAIN (Final [**2192-8-15**]):
         NO POLYMORPHONUCLEAR LEUKOCYTES SEEN.
         NO MICROORGANISMS SEEN.
      WOUND CULTURE (Final [**2192-8-20**]):
         Due to mixed bacterial types (>=3) an abbreviated workup is
         performed; P.aeruginosa, S.aureus and beta strep. are reported if
         present. Susceptibility will be performed on P.aeruginosa and
         S.aureus if sparse growth or greater..
         GRAM NEGATIVE ROD(S).    SPARSE GROWTH.
         GRAM NEGATIVE ROD #2.    SPARSE GROWTH.
   Assessment and Plan
 BRADYCARDIA
 CELLULITIS
 FRACTURE, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 PNEUMONIA, ASPIRATION
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITHOUT ACUTE EXACERBATION
 OBSTRUCTIVE SLEEP APNEA (OSA)
 ATRIAL FIBRILLATION (AFIB)
 IMPAIRED SKIN INTEGRITY
 INEFFECTIVE COPING
   A/P 62 yo W with LLE cellulitis, R ankle fracture and respiratory
   failure likely secondary to underlying COPD/sleep apnea and ? obesity
   hypoventilation syndrome.
   Repiratory distress/COPD: Did not tolerate trial of PS yesterday. Had
   increasing CO2 and worsening acidemia on admission. [**Month (only) 11**] be combination
   of sedation and increased CO2 production given underlying infectious
   process. Has worsening pulm edema on chest xray which may contribute to
   why she is not improving, now s/p diuresis. Plateau pressure of 24
   today.
   - Have weaned her sedation and will try PS.
   - Ck VBG after vent changes
   - hold lasix for now due to rise in Cr
   - ipratroprium nebs
   - continue abx.
   - decrease prednisone to 20mg
   - resend sputum cx
   - have anesthesia at bedside for extubation given subglottic stenosis
   Cellulitis: WBC 12.7. ESR of 33, CRP 220. GS of wound with GNRs, on
   exam appears to have bluish drainage concerning for pseudomonas.
   - change abx to zosyn/cipro
   - f/u culture data
   - f/u vascular recs
   R Ankle Fracture: Trimalleolar right ankle fx. Currently in splint.
   - Follow ortho recs
   - Will need surgical fixation at some point
   ARF: LIkely prerenal given UNa<10. Now with robust U/O and improved
   urine output, but elevated Cr with lasix.  FeUrea>55  but Una 17.
   - hold diuresis
   - continue to monitor creatinine
   - monitor I/O's and goal to keep her even
   - avoid nephrotoxins
   AG acidosis: Resolved.
   - monitor FS and ISS
   SVT: ? MAT on EKG after being off metoprolol at home, now HR better
   controlled, may have been secondary to hypovolemia
   - IVFs as needed
   - metoprolol 12.5 [**Hospital1 **]
   - monitor on tele
   Diastolic heart failure: Appears more volume overloaded on CXR. Will
   try to keep her I/O even. Good urine outpute o/n.
   - monitor clinically
   - restart lasix/spironolactone when renal failure improved
   Depression: continue OP meds
   OSA: Does not wear CPAP on home:
   - now intubated
   - will retry CPAP when extubated.
   Intertriginous erythema: Likely secondary to fungal infection. [**Month (only) 11**] be
   superinfected.  On vanco for cellulitis.
   - Topical miconazole
   - Monitor for improvement.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2192-8-20**] 06:35 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2192-8-14**] 07:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Sputum cutlure growing 2+GNRS and increased sputum production- thick,
   brown. Monitor for speciiation and sensitivities
   ------ Protected Section Addendum Entered By:[**Name (NI) 130**] [**Last Name (NamePattern1) 816**], MD
   on:[**2192-8-21**] 10:35 ------

2192-08-21 10:37:00 Physician Attending Progress Note
Chief Complaint: cellulitis, sepsis, respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Added zosyn for greenish discharge from wound, swab with gram negative
   rods. Unable to wean off vent.
   Patient unable to provide history: Sedated
   Allergies:
   Amoxicillin
   Rash;
   Nortriptyline
   Rash;
   Last dose of Antibiotics:
   Metronidazole - [**2192-8-20**] 04:10 AM
   Vancomycin - [**2192-8-20**] 08:50 AM
   Ciprofloxacin - [**2192-8-20**] 10:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2192-8-21**] 08:24 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2192-8-21**] 05:02 AM
   Propofol - [**2192-8-21**] 05:02 AM
   Pantoprazole (Protonix) - [**2192-8-21**] 08:24 AM
   Heparin Sodium (Prophylaxis) - [**2192-8-21**] 08:24 AM
   Other medications:
   albtuterol, colace, chlorhexideine, heparin s/c, pred 40,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-8-21**] 10:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.4
C (99.3
   HR: 75 (61 - 100) bpm
   BP: 123/68(76) {93/56(68) - 128/78(87)} mmHg
   RR: 16 (10 - 24) insp/min
   SpO2: 98%
   Heart rhythm: MAT (Multifocal atrial tachycardia)
   Height: 66 Inch
             Total In:
                                                                  2,140 mL
                                                                    732 mL
   PO:
             TF:
                                                                    720 mL
                                                                    306 mL
   IVF:
                                                                  1,070 mL
                                                                    296 mL
   Blood products:
   Total out:
                                                                  3,555 mL
                                                                    925 mL
   Urine:
                                                                  3,555 mL
                                                                    925 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,415 mL
                                                                   -193 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 479 (479 - 615) mL
   PS : 12 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O
   Plateau: 24 cmH2O
   Compliance: 35.7 cmH2O/mL
   SpO2: 98%
   ABG: ///27/
   Ve: 8.3 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   12.2 g/dL
   399 K/uL
   176 mg/dL
   2.1 mg/dL
   27 mEq/L
   3.4 mEq/L
   54 mg/dL
   103 mEq/L
   140 mEq/L
   40.5 %
   12.7 K/uL
        [image002.jpg]
                             [**2192-8-15**]  06:00 AM
                             [**2192-8-16**]  01:55 AM
                             [**2192-8-16**]  02:49 AM
                             [**2192-8-17**]  03:52 AM
                             [**2192-8-17**]  06:26 PM
                             [**2192-8-18**]  04:44 AM
                             [**2192-8-19**]  04:11 AM
                             [**2192-8-19**]  05:50 PM
                             [**2192-8-20**]  03:28 AM
                             [**2192-8-21**]  04:05 AM
   WBC
   9.4
   5.9
   10.0
   8.8
   10.9
   12.7
   Hct
   45.2
   39.2
   43.4
   41.2
   41.1
   40.5
   Plt
   355
   274
   336
   362
   362
   399
   Cr
   1.0
   1.0
   1.2
   1.4
   1.8
   2.0
   2.1
   2.1
   TCO2
   28
   Glucose
   0
   135
   155
   311
   287
   [**Telephone/Fax (2) 8159**]76
   Other labs: PT / PTT / INR:14.5/30.3/1.3, Differential-Neuts:73.8 %,
   Lymph:18.3 %, Mono:7.3 %, Eos:0.2 %, Lactic Acid:1.4 mmol/L,
   Albumin:3.0 g/dL, Ca++:8.9 mg/dL, Mg++:2.1 mg/dL, PO4:3.1 mg/dL
   Imaging: CXR  ETT 5.6 cm above carina, lung fields with LLL collapse vs
   infiltrate, bilateral low lung volumes, cardiomegaly
   Microbiology: swab from wound gram negative rods
   Assessment and Plan
 CELLULITIS
   follow up culture data empirically on zosyn, cipro.
 FRACTURE, OTHER
   in brace, needs surgiclal fixation down the line.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   FEUN 55%, will check sediment. Aim to keep fluid balance event with
   fluid as needed. continue with good urien output. holding home
   diuretics.
 PNEUMONIA, ASPIRATION
   follow up sputum culture, continue vent support, off sedation, wean to
   PS this am, and check ABG, attempt to extubate  today if she fails will
   need to evalute for trach. on vanco/zosyn empiric coverage.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2192-8-20**] 06:35 PM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2192-8-14**] 07:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2192-08-22 07:50:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: [**8-21**]
   - Woke up off sedation
   - PSV during the day
   24 Hour Events:
   Allergies:
   Amoxicillin
   Rash;
   Nortriptyline
   Rash;
   Last dose of Antibiotics:
   Metronidazole - [**2192-8-20**] 04:10 AM
   Vancomycin - [**2192-8-20**] 08:50 AM
   Ciprofloxacin - [**2192-8-21**] 10:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2192-8-22**] 02:01 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2192-8-21**] 08:24 AM
   Heparin Sodium (Prophylaxis) - [**2192-8-22**] 01:59 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-8-22**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.4
C (99.3
   HR: 87 (69 - 105) bpm
   BP: 140/83(92) {94/53(67) - 140/99(104)} mmHg
   RR: 25 (14 - 30) insp/min
   SpO2: 100%
   Heart rhythm: MAT (Multifocal atrial tachycardia)
   Height: 66 Inch
             Total In:
                                                                  1,461 mL
                                                                    197 mL
   PO:
             TF:
                                                                    746 mL
                                                                     21 mL
   IVF:
                                                                    534 mL
                                                                    176 mL
   Blood products:
   Total out:
                                                                  2,305 mL
                                                                  1,050 mL
   Urine:
                                                                  2,305 mL
                                                                  1,050 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -844 mL
                                                                   -854 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 215 (215 - 479) mL
   PS : 16 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 159
   PIP: 22 cmH2O
   SpO2: 100%
   ABG: ///29/
   Ve: 6.6 L/min
   Physical Examination
   General Appearance: Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: rrr, no m, decreased pulses in ext, dopplerable
   Respiratory / Chest: rhonchi bilaterally
   Abdominal: Soft, Non-tender, obese
   Extremities: 3+ edema, LLE ulcers with granulation tissue and
   white/blue exudate
   Skin:  Warm
   Neurologic: awake, responsive, moves extremites
   Labs / Radiology
   414 K/uL
   11.5 g/dL
   168 mg/dL
   2.3 mg/dL
   29 mEq/L
   3.7 mEq/L
   51 mg/dL
   108 mEq/L
   145 mEq/L
   38.1 %
   11.7 K/uL
        [image002.jpg]
                             [**2192-8-16**]  01:55 AM
                             [**2192-8-16**]  02:49 AM
                             [**2192-8-17**]  03:52 AM
                             [**2192-8-17**]  06:26 PM
                             [**2192-8-18**]  04:44 AM
                             [**2192-8-19**]  04:11 AM
                             [**2192-8-19**]  05:50 PM
                             [**2192-8-20**]  03:28 AM
                             [**2192-8-21**]  04:05 AM
                             [**2192-8-22**]  03:08 AM
   WBC
   9.4
   5.9
   10.0
   8.8
   10.9
   12.7
   11.7
   Hct
   45.2
   39.2
   43.4
   41.2
   41.1
   40.5
   38.1
   Plt
   355
   274
   336
   362
   362
   399
   414
   Cr
   1.0
   1.0
   1.2
   1.4
   1.8
   2.0
   2.1
   2.1
   2.3
   TCO2
   28
   Glucose
   135
   155
   311
   287
   [**Telephone/Fax (2) 8159**]76
   168
   Other labs: PT / PTT / INR:14.4/31.0/1.2, Differential-Neuts:73.8 %,
   Lymph:18.3 %, Mono:7.3 %, Eos:0.2 %, Lactic Acid:1.2 mmol/L,
   Albumin:3.0 g/dL, Ca++:8.7 mg/dL, Mg++:2.2 mg/dL, PO4:3.4 mg/dL
[**2192-8-19**] 5:45 pm SPUTUM      Source: Endotracheal.
   GRAM STAIN (Final [**2192-8-20**]):
      >25 PMNs and <10 epithelial cells/100X field.
      2+   (1-5 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
      1+    (<1 per 1000X FIELD):   BUDDING YEAST.
   RESPIRATORY CULTURE (Preliminary):
      Further incubation required to determine the presence or absence of
      Oropharyngeal flora.
      GRAM NEGATIVE ROD(S).    MODERATE GROWTH.
[**2192-8-15**] 2:37 pm SWAB      Source: leg.
                            **FINAL REPORT [**2192-8-20**]**
   GRAM STAIN (Final [**2192-8-15**]):
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN.
      NO MICROORGANISMS SEEN.
   WOUND CULTURE (Final [**2192-8-20**]):
      Due to mixed bacterial types (>=3) an abbreviated workup is
      performed; P.aeruginosa, S.aureus and beta strep. are reported if
      present. Susceptibility will be performed on P.aeruginosa and
      S.aureus if sparse growth or greater..
      GRAM NEGATIVE ROD(S).    SPARSE GROWTH.
      GRAM NEGATIVE ROD #2.    SPARSE GROWTH.
   Assessment and Plan
 BRADYCARDIA
 CELLULITIS
 FRACTURE, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 PNEUMONIA, ASPIRATION
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITHOUT ACUTE EXACERBATION
 OBSTRUCTIVE SLEEP APNEA (OSA)
 ATRIAL FIBRILLATION (AFIB)
 IMPAIRED SKIN INTEGRITY
 INEFFECTIVE COPING
   A/P 62 yo W with LLE cellulitis, R ankle fracture and respiratory
   failure likely secondary to underlying COPD/sleep apnea and possible
   obesity hypoventilation syndrome.
   # Respiratory distress/COPD: RSBI 159 today. Increased CO2 retention on
   PSV due to insufficient tidal volumes. Unclear whether this is
   secondary to a combination of sedation and increased CO2 production
   given underlying infectious process. Does not appear volume overloaded
   as pt has been diuresing, not hypoxic and Cr has bumped. Increased PSV
   today. Presume that this is mostly secondary to MS, as pt has been in
   RF and may be taking a while to clear sedation. Now day 8 of
   intubation.
   - Have weaned her sedation; continue to hold sedation and allow MS to
   clear
   - Follow VBG
   - hold lasix for now due to rise in Cr
   - ipratroprium nebs
   - continue abx.
   - decrease prednisone to 20mg
   - f/u sputum cx, has GNRs
   - may need tracheostomy
   # Cellulitis: WBC 11.7. ESR of 33, CRP 220. GS of wound with GNRs, on
   exam appears to have bluish drainage concerning for pseudomonas.
   - continue abx of zosyn/cipro
   - f/u culture data
   - f/u vascular recs
   # R Ankle Fracture: Trimalleolar right ankle fx. Currently in splint.
   - Follow ortho recs
   - Will need surgical fixation at some point
   # ARF: Likely mixed picture of  prerenal  and intrinsic renal given
   UNa<10 but FeUrea>55 .  s/p diuresis 2 days ago.  Now with autodiuesis.
   - hold diuresis
   - continue to monitor creatinine
   - monitor I/O's and goal to keep her even
   - avoid nephrotoxins
   - consider small fluid bolus
   # SVT: Likely MAT on EKG after being off metoprolol at home, now HR
   better controlled, may have been secondary to hypovolemia
   - IVFs as needed
   - metoprolol 12.5 [**Hospital1 **]
   - monitor on tele
   # Diastolic heart failure: Appears more volume overloaded on CXR. Will
   try to keep her I/O even. Good urine output o/n.
   - monitor clinically
   - restart lasix/spironolactone when renal failure improved
   # Depression: continue OP meds
   # OSA: Does not wear CPAP on home:
   - now intubated
   - will retry CPAP when extubated.
   # Intertriginous erythema: Likely secondary to fungal infection. [**Month (only) 11**] be
   superinfected.
   - vanco for cellulitis.
   - Topical miconazole
   - Monitor for improvement.
   ICU Care
   Nutrition: tube feeds, held this AM for possible extubation
   Glycemic Control:  insulin
   Lines:
   Multi Lumen - [**2192-8-14**] 07:00 PM
   Prophylaxis:
   DVT: hep sq
   Stress ulcer: PPI
   VAP:  elevation HOB, mouth care
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now

2192-08-22 11:11:00 Physician Attending Progress Note
Chief Complaint: cellulitis, sepsis, respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Stable night, more awake off sedation. Continued on pressure support
   overnight, PH and PCO rising slowly
   Patient unable to provide history: Sedated
   Allergies:
   Amoxicillin
   Rash;
   Nortriptyline
   Rash;
   Last dose of Antibiotics:
   Metronidazole - [**2192-8-20**] 04:10 AM
   Vancomycin - [**2192-8-20**] 08:50 AM
   Piperacillin/Tazobactam (Zosyn) - [**2192-8-22**] 08:00 AM
   Ciprofloxacin - [**2192-8-22**] 10:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2192-8-22**] 08:00 AM
   Other medications:
   abilify, cipro, colace, albuterol and atrovent, miconazole cream,
   heparin s/c tid, RISS, protonix. prednisone 20mg daily
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-8-22**] 11:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 74 (70 - 105) bpm
   BP: 141/86(99) {94/53(67) - 141/99(104)} mmHg
   RR: 32 (14 - 32) insp/min
   SpO2: 97%
   Heart rhythm: MAT (Multifocal atrial tachycardia)
   Height: 66 Inch
             Total In:
                                                                  1,461 mL
                                                                    478 mL
   PO:
             TF:
                                                                    746 mL
                                                                     21 mL
   IVF:
                                                                    534 mL
                                                                    307 mL
   Blood products:
   Total out:
                                                                  2,305 mL
                                                                  1,485 mL
   Urine:
                                                                  2,305 mL
                                                                  1,485 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -844 mL
                                                                 -1,007 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 305 (215 - 479) mL
   PS : 10 cmH2O
   RR (Spontaneous): 40
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 159
   PIP: 16 cmH2O
   SpO2: 97%
   ABG: ///29/
   Ve: 6.3 L/min
   Physical Examination
   General Appearance: Overweight / Obese, Anxious
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, not tender
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   11.5 g/dL
   414 K/uL
   168 mg/dL
   2.3 mg/dL
   29 mEq/L
   3.7 mEq/L
   51 mg/dL
   108 mEq/L
   145 mEq/L
   38.1 %
   11.7 K/uL
        [image002.jpg]
                             [**2192-8-16**]  01:55 AM
                             [**2192-8-16**]  02:49 AM
                             [**2192-8-17**]  03:52 AM
                             [**2192-8-17**]  06:26 PM
                             [**2192-8-18**]  04:44 AM
                             [**2192-8-19**]  04:11 AM
                             [**2192-8-19**]  05:50 PM
                             [**2192-8-20**]  03:28 AM
                             [**2192-8-21**]  04:05 AM
                             [**2192-8-22**]  03:08 AM
   WBC
   9.4
   5.9
   10.0
   8.8
   10.9
   12.7
   11.7
   Hct
   45.2
   39.2
   43.4
   41.2
   41.1
   40.5
   38.1
   Plt
   355
   274
   336
   362
   362
   399
   414
   Cr
   1.0
   1.0
   1.2
   1.4
   1.8
   2.0
   2.1
   2.1
   2.3
   TCO2
   28
   Glucose
   135
   155
   311
   287
   [**Telephone/Fax (2) 8159**]76
   168
   Other labs: PT / PTT / INR:14.4/31.0/1.2, Differential-Neuts:73.8 %,
   Lymph:18.3 %, Mono:7.3 %, Eos:0.2 %, Lactic Acid:1.2 mmol/L,
   Albumin:3.0 g/dL, Ca++:8.7 mg/dL, Mg++:2.2 mg/dL, PO4:3.4 mg/dL
   Imaging: CXR stable, tubes and lines in good position
   Microbiology: Sputum with moderate gram negative rods.
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**]):
   No clear evidence for new infiltrate or increased secretions, no fever,
   wbc have been stable, growing GNRs to be speciated on broad spectrum
   antibiotic coverage, no evidence for pulmoary edema, jhas been TBB
   negative, and oxygenation is wnl. Likely continues with respiratory
   acidosis related to some residual sedation that has not been fully
   cleared.
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   will hydrate and goal +500cc.
 cellulitis r/a with wound care. if cultures negative for pseudomonas
   will d/c zosyn. Adjust cipro dose.
   ICU Care
   Nutrition:
   Comments: resume tube feeds.
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2192-8-14**] 07:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2192-08-23 07:26:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: [**8-22**]
   24 Hour Events:
   Worsening acute renal failure
   Received bolus 500cc x 3 to keep even to positive
   Restarted tube feeds
   Urine output dropped off in the AM
   Abilify held - question contributing to sedation
   ABG in Am with increasing CO2. Only change is increased alertness
   SBT in AM on 7/0- tachypneic to 30
s with low tidal volumes.  RSBI
   >150. Switched back to PS.
   Allergies:
   Amoxicillin
   Rash;
   Nortriptyline
   Rash;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2192-8-22**] 10:00 AM
   Vancomycin - [**2192-8-22**] 02:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2192-8-23**] 02:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2192-8-22**] 12:30 PM
   Heparin Sodium (Prophylaxis) - [**2192-8-23**] 02:31 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-8-23**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.6
C (99.7
   HR: 70 (66 - 93) bpm
   BP: 112/65(76) {112/65(76) - 153/98(108)} mmHg
   RR: 20 (20 - 32) insp/min
   SpO2: 100%
   Heart rhythm: MAT (Multifocal atrial tachycardia)
   Height: 66 Inch
             Total In:
                                                                  2,374 mL
                                                                    675 mL
   PO:
             TF:
                                                                    244 mL
                                                                      1 mL
   IVF:
                                                                  1,850 mL
                                                                    674 mL
   Blood products:
   Total out:
                                                                  2,775 mL
                                                                    380 mL
   Urine:
                                                                  2,775 mL
                                                                    380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -401 mL
                                                                    295 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 316 (265 - 367) mL
   PS : 14 cmH2O
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 122
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: ///28/
   Ve: 8.3 L/min
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Not assessed), (Left DP pulse: Not
   assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   365 K/uL
   10.4 g/dL
   159 mg/dL
   2.0 mg/dL
   28 mEq/L
   3.8 mEq/L
   44 mg/dL
   112 mEq/L
   148 mEq/L
   35.1 %
   10.0 K/uL
        [image002.jpg]
                             [**2192-8-16**]  02:49 AM
                             [**2192-8-17**]  03:52 AM
                             [**2192-8-17**]  06:26 PM
                             [**2192-8-18**]  04:44 AM
                             [**2192-8-19**]  04:11 AM
                             [**2192-8-19**]  05:50 PM
                             [**2192-8-20**]  03:28 AM
                             [**2192-8-21**]  04:05 AM
                             [**2192-8-22**]  03:08 AM
                             [**2192-8-23**]  05:15 AM
   WBC
   9.4
   5.9
   10.0
   8.8
   10.9
   12.7
   11.7
   10.0
   Hct
   45.2
   39.2
   43.4
   41.2
   41.1
   40.5
   38.1
   35.1
   Plt
   355
   274
   336
   362
   362
   399
   414
   365
   Cr
   1.0
   1.0
   1.2
   1.4
   1.8
   2.0
   2.1
   2.1
   2.3
   2.0
   Glucose
   155
   311
   287
   [**Telephone/Fax (3) **]
   176
   168
   159
   Other labs: PT / PTT / INR:14.1/30.4/1.2, Differential-Neuts:73.8 %,
   Lymph:18.3 %, Mono:7.3 %, Eos:0.2 %, Lactic Acid:0.9 mmol/L,
   Albumin:3.0 g/dL, Ca++:8.9 mg/dL, Mg++:2.0 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 BRADYCARDIA
 CELLULITIS
 FRACTURE, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 PNEUMONIA, ASPIRATION
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITHOUT ACUTE EXACERBATION
 OBSTRUCTIVE SLEEP APNEA (OSA)
 ATRIAL FIBRILLATION (AFIB)
 IMPAIRED SKIN INTEGRITY
 INEFFECTIVE COPING
   A/P 62 yo W with LLE cellulitis, R ankle fracture and respiratory
   failure likely secondary to underlying COPD/sleep apnea and possible
   obesity hypoventilation syndrome.
   # Respiratory distress/COPD: RSBI 159 today. Increased CO2 retention on
   PSV due to insufficient tidal volumes. Unclear whether this is
   secondary to a combination of sedation and increased CO2 production
   given underlying infectious process. Does not appear volume overloaded
   as pt has been diuresing, not hypoxic and Cr has bumped. Did not do
   well on SBT this AM. VBG with worsening of CO2 retention while on RSBI.
   Still lethargic on exam in AM. Now day 9 of intubation.  Will reassess
   tomorrow.
   - Have weaned her sedation; continue to hold sedation and allow MS to
   clear
   - Follow VBG
   - hold lasix for now due to rise in Cr
   - ipratroprium nebs
   - continue abx.
   - continue prednisone to 20mg until extubation
   - f/u sputum cx, has GNRs
   - may need tracheostomy if not extubatable
   # Cellulitis: WBC 11.7. ESR of 33, CRP 220. GS of wound with GNRs, on
   exam appears to have bluish drainage concerning for pseudomonas.
   - continue abx of zosyn/cipro
   - f/u culture data
   - f/u vascular recs
   # R Ankle Fracture: Trimalleolar right ankle fx. Currently in splint.
   - Follow ortho recs
   - Will need surgical fixation at some point
   # ARF: Likely mixed picture of  prerenal  and intrinsic renal given
   UNa<10 but FeUrea>55 .  s/p diuresis 2 days ago.  Now with autodiuesis.
   - hold diuresis
   - continue to monitor creatinine
   - monitor I/O's and goal to keep her even
   - avoid nephrotoxins
   - Goal fluid balance: even to positive
   # SVT: Likely MAT on EKG after being off metoprolol at home, now HR
   better controlled, may have been secondary to hypovolemia
   - IVFs as needed
   - metoprolol 12.5 [**Hospital1 **]
   - monitor on tele
   # Diastolic heart failure: Appears more volume overloaded on CXR. Will
   try to keep her I/O even. Good urine output o/n.
   - monitor clinically
   - restart lasix/spironolactone when renal failure improved
   # Depression: continue OP meds
   # OSA: Does not wear CPAP on home:
   - now intubated
   - will retry CPAP when extubated.
   # Intertriginous erythema: Likely secondary to fungal infection. [**Month (only) 11**] be
   superinfected.
   - vanco for cellulitis.
   - Topical miconazole
   - Monitor for improvement.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2192-8-14**] 07:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2192-08-23 10:04:00 Physician Attending Progress Note
Chief Complaint: respiratory failure, cellulitis.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Decreased urine output this am, more acidemic on the ventilator.
   Abilify held.
   Patient unable to provide history: intubated
   Allergies:
   Amoxicillin
   Rash;
   Nortriptyline
   Rash;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2192-8-22**] 10:00 AM
   Vancomycin - [**2192-8-22**] 02:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2192-8-23**] 08:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2192-8-22**] 12:30 PM
   Heparin Sodium (Prophylaxis) - [**2192-8-23**] 08:00 AM
   Other medications:
   miconazole, chlorhexidine gluconate [**Hospital1 **], prozac, lopresso 12.5 [**Hospital1 **],
   insulin sliding scale.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-8-23**] 10:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.1
C (98.8
   HR: 70 (66 - 87) bpm
   BP: 112/65(76) {112/65(76) - 153/98(108)} mmHg
   RR: 20 (20 - 32) insp/min
   SpO2: 100%
   Heart rhythm: MAT (Multifocal atrial tachycardia)
   Height: 66 Inch
             Total In:
                                                                  2,374 mL
                                                                    859 mL
   PO:
             TF:
                                                                    244 mL
                                                                      1 mL
   IVF:
                                                                  1,850 mL
                                                                    798 mL
   Blood products:
   Total out:
                                                                  2,775 mL
                                                                    530 mL
   Urine:
                                                                  2,775 mL
                                                                    530 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -401 mL
                                                                    329 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 295 (265 - 367) mL
   PS : 10 cmH2O
   RR (Spontaneous): 27
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 153
   PIP: 13 cmH2O
   SpO2: 100%
   ABG: ///28/
   Ve: 5.1 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Overweight
   / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Attentive, Responds to: Verbal stimuli, Movement: Non
   -purposeful, Tone: Normal
   Labs / Radiology
   10.4 g/dL
   365 K/uL
   159 mg/dL
   2.0 mg/dL
   28 mEq/L
   3.8 mEq/L
   44 mg/dL
   112 mEq/L
   148 mEq/L
   35.1 %
   10.0 K/uL
        [image002.jpg]
                             [**2192-8-16**]  02:49 AM
                             [**2192-8-17**]  03:52 AM
                             [**2192-8-17**]  06:26 PM
                             [**2192-8-18**]  04:44 AM
                             [**2192-8-19**]  04:11 AM
                             [**2192-8-19**]  05:50 PM
                             [**2192-8-20**]  03:28 AM
                             [**2192-8-21**]  04:05 AM
                             [**2192-8-22**]  03:08 AM
                             [**2192-8-23**]  05:15 AM
   WBC
   9.4
   5.9
   10.0
   8.8
   10.9
   12.7
   11.7
   10.0
   Hct
   45.2
   39.2
   43.4
   41.2
   41.1
   40.5
   38.1
   35.1
   Plt
   355
   274
   336
   362
   362
   399
   414
   365
   Cr
   1.0
   1.0
   1.2
   1.4
   1.8
   2.0
   2.1
   2.1
   2.3
   2.0
   Glucose
   155
   311
   287
   [**Telephone/Fax (3) **]
   176
   168
   159
   Other labs: PT / PTT / INR:14.1/30.4/1.2, Differential-Neuts:73.8 %,
   Lymph:18.3 %, Mono:7.3 %, Eos:0.2 %, Lactic Acid:0.9 mmol/L,
   Albumin:3.0 g/dL, Ca++:8.9 mg/dL, Mg++:2.0 mg/dL, PO4:3.1 mg/dL
   Imaging: CXR WTT 5.5 cm above the carina.
   Assessment and Plan
 Respiratory failure:
   Still with hypercarbia, and respiratory acidoss worsening on vent
   support, remains sedated and low level of alerteness.. Will continue to
   wait for her to clear sedatives, as renal failure resolves.
 CELLULITIS
   on broad spectrum antibiotic coverage. d/c vanco negative MRSA screen,
   s/p 7 day course, culture with no staph.
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   Goal keep TBB even. Will call micro lab to obtain GNR speciated from
   sputum.
 PNEUMONIA, ASPIRATION
   question of this cultures have been negative.
   ICU Care
   Nutrition:
   Comments: tube feeds resume.
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2192-8-14**] 07:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2192-08-24 07:50:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - wound care came and reassessed her leg
   - up dated her brother with her status
   - unable to extubate, will stop tube feeds at midnight for possible
   extubation tomorrow
   - gave 250ml bolus at 9pm to keep even
   - sputum with 4 GNRs, sensitivities will be back in afternoon on Friday
   - BB increased to 25 [**Hospital1 **] due to tachycardia
   Allergies:
   Amoxicillin
   Rash;
   Nortriptyline
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2192-8-22**] 02:00 PM
   Ciprofloxacin - [**2192-8-23**] 10:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2192-8-24**] 02:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2192-8-23**] 12:30 PM
   Heparin Sodium (Prophylaxis) - [**2192-8-24**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-8-24**] 07:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.9
C (100.3
   HR: 92 (60 - 108) bpm
   BP: 151/106(115) {114/63(78) - 181/106(117)} mmHg
   RR: 32 (14 - 32) insp/min
   SpO2: 96%
   Heart rhythm: MAT (Multifocal atrial tachycardia)
   Height: 66 Inch
             Total In:
                                                                  1,735 mL
                                                                    176 mL
   PO:
             TF:
                                                                    225 mL
   IVF:
                                                                  1,400 mL
                                                                    176 mL
   Blood products:
   Total out:
                                                                  1,618 mL
                                                                    350 mL
   Urine:
                                                                  1,618 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    117 mL
                                                                   -174 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 374 (276 - 374) mL
   PS : 14 cmH2O
   RR (Spontaneous): 29
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 214
   PIP: 19 cmH2O
   SpO2: 96%
   ABG: ////
   NIF: -32 cmH2O
   Ve: 5.6 L/min
   Physical Examination
   Intubated, responsive to commands, but still sleepy
   Chest- rhonchi bilaterally
   CV: rrr, no M
   Abd- soft, NT, ND, umbilical hernia without change
   Ext- edema, ulcer on left leg with drainage on dressing, right ankle in
   cast
   Labs / Radiology
   359 K/uL
   10.6 g/dL
   159 mg/dL
   2.0 mg/dL
   28 mEq/L
   3.8 mEq/L
   44 mg/dL
   112 mEq/L
   148 mEq/L
   36.3 %
   10.5 K/uL
        [image002.jpg]
                             [**2192-8-17**]  03:52 AM
                             [**2192-8-17**]  06:26 PM
                             [**2192-8-18**]  04:44 AM
                             [**2192-8-19**]  04:11 AM
                             [**2192-8-19**]  05:50 PM
                             [**2192-8-20**]  03:28 AM
                             [**2192-8-21**]  04:05 AM
                             [**2192-8-22**]  03:08 AM
                             [**2192-8-23**]  05:15 AM
                             [**2192-8-24**]  06:02 AM
   WBC
   5.9
   10.0
   8.8
   10.9
   12.7
   11.7
   10.0
   10.5
   Hct
   39.2
   43.4
   41.2
   41.1
   40.5
   38.1
   35.1
   36.3
   Plt
   274
   336
   362
   362
   399
   414
   365
   359
   Cr
   1.0
   1.2
   1.4
   1.8
   2.0
   2.1
   2.1
   2.3
   2.0
   Glucose
   [**Telephone/Fax (3) 8139**]95
   176
   176
   168
   159
   Other labs: PT / PTT / INR:14.2/30.9/1.2, Differential-Neuts:73.8 %,
   Lymph:18.3 %, Mono:7.3 %, Eos:0.2 %, Lactic Acid:0.9 mmol/L,
   Albumin:3.0 g/dL, Ca++:8.9 mg/dL, Mg++:2.0 mg/dL, PO4:3.1 mg/dL
Sputum cx:  GRAM STAIN (Final [**2192-8-20**]):
      >25 PMNs and <10 epithelial cells/100X field.
      2+   (1-5 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
      1+    (<1 per 1000X FIELD):   BUDDING YEAST.
   RESPIRATORY CULTURE (Final [**2192-8-23**]):
      OROPHARYNGEAL FLORA ABSENT.
      Due to mixed bacterial types ( >= 3 colony types) an abbreviated
      workup will be performed appropriate to the isolates recovered from
      this site.
      GRAM NEGATIVE ROD(S).    MODERATE GROWTH.
      GRAM NEGATIVE ROD #2.    RARE GROWTH.
      GRAM NEGATIVE ROD #3.    SPARSE GROWTH.
      GRAM NEGATIVE ROD #4.    SPARSE GROWTH.
         YEAST.    SPARSE GROWTH.
   BCX [**8-23**]: Pending
            [**8-24**]: Pending
   Sputum [**8-24**]: pending
   Urine [**8-24**]: pending
   Assessment and Plan
 BRADYCARDIA
 CELLULITIS
 FRACTURE, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 PNEUMONIA, ASPIRATION
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITHOUT ACUTE EXACERBATION
 OBSTRUCTIVE SLEEP APNEA (OSA)
 ATRIAL FIBRILLATION (AFIB)
 IMPAIRED SKIN INTEGRITY
 INEFFECTIVE COPING
   A/P 62 yo W with LLE cellulitis, R ankle fracture and respiratory
   failure likely secondary to underlying COPD/sleep apnea and possible
   obesity hypoventilation syndrome.
   # Respiratory distress/COPD: Increased CO2 retention on PSV due to
   insufficient tidal volumes. Unclear whether this is secondary to a
   combination of sedation and increased CO2 production given underlying
   infectious process. Does not appear volume overloaded as pt has been
   diuresing, not hypoxic and Cr has bumped. Did not do well on SBT
   yesterday. RSBI this AM >200. Now day 9 of intubation. Sputum is
   positive for GNRs on prior cultures and on sputum cx today prelim gram
   stain, concering that infection is worsening her resp status.
   - Have weaned her sedation; continue to hold sedation and allow MS to
   clear
   - Follow VBG
   - hold lasix for now due to rise in Cr
   - ipratroprium nebs
   - continue abx.
   - continue prednisone to 20mg until extubation
   - f/u sputum cx, has GNRs, continue cipro/zosyn
   - may need tracheostomy if not extubatable
   -sit up pt for SBT later today
   # Fever: spiked to 100.3 this AM. Has known cellulitis on coverage.
   Also GNRs in sputum. Had d/c'd vanco yesterday as MRSA negative.
   Pancultured, sputum already showing GNRs as seen on prior cultures.
   - continue abx
   - f/u cultures
   - may need to expand coverage if continues to spike
   # Pneumonia: Growing moderate GNRs from sputum. Awaiting speciation and
   sensis.
   -continue abx- on zosyn/cipro
   -suctioning as needed
   -monitor fever curve and wbc
   -consider bronch today due to GNRs on sputum cxs
   # Cellulitis: WBC 10.6. GS of wound with GNRs. MRSA swab negative so
   Vanco d/c'd yesterday.
   - continue abx of zosyn/cipro for double coverage
   - f/u culture data
   - f/u vascular recs
   # R Ankle Fracture: Trimalleolar right ankle fx. Currently in splint.
   - Follow ortho recs
   - Will need surgical fixation at some point
   # ARF: Likely prerenal. Creatinine stable from yesterday, 2. Kept I/Os
   close to even yesterday.
   - continue to monitor creatinine
   - monitor I/O's
   - avoid nephrotoxins
   - Goal fluid balance: even to positive +500 today
   # MAT: had more tachycardia not that she is awake, incresed to 25mg [**Hospital1 **]
   last night.
   - Will increase again to 50mg lopressor  [**Hospital1 **]
   # Diastolic heart failure: Appears more volume overloaded on CXR. Will
   try to keep her I/O even given acute renal failure. Good urine output
   o/n.
   - monitor clinically
   - consider restarting lasix/spironolactone when renal failure improved
   # Depression: continue OP meds
   - holding abilify, consider restarting when extubated
   -restart when extubated
   # OSA: Does not wear CPAP on home:
   - now intubated
   - will retry CPAP when extubated.
   # Candidal skin infection: improved significantly
   - Topical miconazole
   - Monitor for improvement.
   ICU Care
   Nutrition: Tube feeds being held while weaning vent
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2192-8-14**] 07:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: protonix
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition: ICU for now

2192-08-24 11:51:00 Physician Attending Progress Note
Chief Complaint: Cellulitis, respiratory failure.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Remains sedated and not fully alert on ventilator. low grade fever.
   Sputum with GNR.
   Allergies:
   Amoxicillin
   Rash;
   Nortriptyline
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2192-8-22**] 02:00 PM
   Ciprofloxacin - [**2192-8-23**] 10:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2192-8-24**] 08:08 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2192-8-23**] 12:30 PM
   Heparin Sodium (Prophylaxis) - [**2192-8-24**] 12:00 AM
   Other medications:
   miconazole cream, chlorhexidine, albuterola nd atrovent MDi, prozac 20
   daily, RISS, pantoprazole. lopressor
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-8-24**] 11:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.3
C (99.2
   HR: 89 (63 - 108) bpm
   BP: 151/101(110) {114/63(78) - 181/106(117)} mmHg
   RR: 17 (14 - 27) insp/min
   SpO2: 98%
   Heart rhythm: MAT (Multifocal atrial tachycardia)
   Height: 66 Inch
             Total In:
                                                                  1,735 mL
                                                                    375 mL
   PO:
             TF:
                                                                    225 mL
   IVF:
                                                                  1,400 mL
                                                                    315 mL
   Blood products:
   Total out:
                                                                  1,618 mL
                                                                    535 mL
   Urine:
                                                                  1,618 mL
                                                                    535 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    117 mL
                                                                   -161 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 269 (269 - 374) mL
   PS : 14 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 214
   PIP: 19 cmH2O
   SpO2: 98%
   ABG: ///29/
   NIF: -32 cmH2O
   Ve: 6.3 L/min
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Normal
   Labs / Radiology
   10.6 g/dL
   359 K/uL
   174 mg/dL
   2.1 mg/dL
   29 mEq/L
   3.9 mEq/L
   40 mg/dL
   111 mEq/L
   149 mEq/L
   36.3 %
   10.5 K/uL
        [image002.jpg]
                             [**2192-8-17**]  03:52 AM
                             [**2192-8-17**]  06:26 PM
                             [**2192-8-18**]  04:44 AM
                             [**2192-8-19**]  04:11 AM
                             [**2192-8-19**]  05:50 PM
                             [**2192-8-20**]  03:28 AM
                             [**2192-8-21**]  04:05 AM
                             [**2192-8-22**]  03:08 AM
                             [**2192-8-23**]  05:15 AM
                             [**2192-8-24**]  06:02 AM
   WBC
   5.9
   10.0
   8.8
   10.9
   12.7
   11.7
   10.0
   10.5
   Hct
   39.2
   43.4
   41.2
   41.1
   40.5
   38.1
   35.1
   36.3
   Plt
   274
   336
   362
   362
   399
   414
   365
   359
   Cr
   1.0
   1.2
   1.4
   1.8
   2.0
   2.1
   2.1
   2.3
   2.0
   2.1
   Glucose
   [**Telephone/Fax (3) 8139**]95
   176
   176
   168
   159
   174
   Other labs: PT / PTT / INR:14.2/30.9/1.2, Differential-Neuts:73.8 %,
   Lymph:18.3 %, Mono:7.3 %, Eos:0.2 %, Lactic Acid:0.9 mmol/L,
   Albumin:3.0 g/dL, Ca++:9.4 mg/dL, Mg++:2.1 mg/dL, PO4:3.1 mg/dL
   Imaging: CXR with ? infiltrate in RMl
   Microbiology: sputum with 4+ GNR senses pending.
   Assessment and Plan
 MAT: resume home bblocker and titrate up as tolerate as she wakes up
   her HR seams to be trending up.
 FRACTURE, OTHER
   in CAST, surgery down the line when infection is completely cleared.
   Will touch base with orthopedics before plan for extubation
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**]):
   will perform spontaneous breathing trial today.  Bronch today to assess
   for secretions. If SBT allows, will have anaesthesia at bedside with
   extubation attempt
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   Continue to allow her to requilibrate and [**Last Name (un) **] TBB evento +500cc
 Fever: low [**Last Name (un) 8031**]
   follow up pancultures, follow up sputum GNR speciation and senses.
   continue zosyn, cipro, may be coloniser vs [**Last Name (LF) 8218**], [**First Name3 (LF) 116**] perform
   bronchoscopy today.
 IMPAIRED SKIN INTEGRITY
   cellulitis healing, continue wound care.
 INEFFECTIVE COPING: communicationwtih boyfriend and patient
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2192-8-14**] 07:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2192-08-25 06:42:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: - BAL showed no secretions
   - unable to extubate - need to call IP in am for trach c/s
   - added Ativan 0.5mg iv q4h prn agitation
   - speciation on sputum did not return
   24 Hour Events:
 BRONCHOSCOPY - At [**2192-8-24**] 03:00 PM
   Patient unable to provide history: Sedated
   Allergies:
   Amoxicillin
   Rash;
   Nortriptyline
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2192-8-22**] 02:00 PM
   Ciprofloxacin - [**2192-8-23**] 10:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2192-8-25**] 02:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2192-8-25**] 12:51 AM
   Lorazepam (Ativan) - [**2192-8-25**] 04:39 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-8-25**] 06:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.7
C (99.8
   HR: 72 (63 - 97) bpm
   BP: 127/58(73) {127/58(73) - 174/106(115)} mmHg
   RR: 19 (15 - 34) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  1,392 mL
                                                                    464 mL
   PO:
             TF:
                                                                    186 mL
                                                                    198 mL
   IVF:
                                                                  1,036 mL
                                                                    166 mL
   Blood products:
   Total out:
                                                                  1,378 mL
                                                                    360 mL
   Urine:
                                                                  1,378 mL
                                                                    360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     14 mL
                                                                    104 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 315 (209 - 423) mL
   PS : 14 cmH2O
   RR (Set): 16
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 193
   PIP: 19 cmH2O
   Plateau: 26 cmH2O
   SpO2: 100%
   ABG: ///30/
   Ve: 7.3 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   347 K/uL
   10.1 g/dL
   158 mg/dL
   2.0 mg/dL
   30 mEq/L
   3.8 mEq/L
   37 mg/dL
   115 mEq/L
   152 mEq/L
   34.3 %
   10.8 K/uL
        [image002.jpg]
                             [**2192-8-17**]  06:26 PM
                             [**2192-8-18**]  04:44 AM
                             [**2192-8-19**]  04:11 AM
                             [**2192-8-19**]  05:50 PM
                             [**2192-8-20**]  03:28 AM
                             [**2192-8-21**]  04:05 AM
                             [**2192-8-22**]  03:08 AM
                             [**2192-8-23**]  05:15 AM
                             [**2192-8-24**]  06:02 AM
                             [**2192-8-25**]  03:58 AM
   WBC
   10.0
   8.8
   10.9
   12.7
   11.7
   10.0
   10.5
   10.8
   Hct
   43.4
   41.2
   41.1
   40.5
   38.1
   35.1
   36.3
   34.3
   Plt
   [**Telephone/Fax (3) 8222**]99
   [**Telephone/Fax (2) 8223**]47
   Cr
   1.2
   1.4
   1.8
   2.0
   2.1
   2.1
   2.3
   2.0
   2.1
   2.0
   Glucose
   287
   206
   295
   176
   176
   168
   159
   174
   158
   Other labs: PT / PTT / INR:15.0/29.3/1.3, Differential-Neuts:73.8 %,
   Lymph:18.3 %, Mono:7.3 %, Eos:0.2 %, Lactic Acid:0.9 mmol/L,
   Albumin:3.0 g/dL, Ca++:9.1 mg/dL, Mg++:2.1 mg/dL, PO4:3.0 mg/dL
   Sputum
   Assessment and Plan
 BRADYCARDIA
 CELLULITIS
 FRACTURE, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 PNEUMONIA, ASPIRATION
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITHOUT ACUTE EXACERBATION
 OBSTRUCTIVE SLEEP APNEA (OSA)
 ATRIAL FIBRILLATION (AFIB)
 IMPAIRED SKIN INTEGRITY
 INEFFECTIVE COPING
   A/P 62 yo W with LLE cellulitis, R ankle fracture and respiratory
   failure likely secondary to underlying COPD/sleep apnea and possible
   obesity hypoventilation syndrome.
   # Respiratory distress/COPD: Increased CO2 retention on PSV due to
   insufficient tidal volumes. Unclear whether this is secondary to a
   combination of sedation and increased CO2 production given underlying
   infectious process. Does not appear volume overloaded as pt has been
   diuresing, not hypoxic and Cr has bumped. BAL without secretions
   yesterday. Now day 10 of intubation and low likelihood of success.
   Sputum is positive for GNRs on prior cultures and on sputum cx today
   prelim gram stain, concering that infection is worsening her resp
   status. Still no speciation.
   - Consult IP for trach today
   - contact family
   - Follow [**Name (NI) 8225**]
   - hold lasix for now due to rise in Cr
   - ipratroprium nebs
   - continue abx.
   - d/c prednisone
   - f/u sputum cx, has GNRs; will advance converage given fevers to
   vanco/[**Last Name (un) **]
   # Hypernatremia:  Fee H20 deficit calculated at 5.1L, started on D5E
   150 cc/hr
   - recheck lytes at noon
   # Fever: spiked to 100.3 yesterday in AM. Spiked again to 100.4. Also
   GNRs in sputum. Had d/c'd vanco yesterday as MRSA negative.
   Pancultured, sputum already showing GNRs as seen on prior cultures.
   Possible colonization. No rise in WBC count Restart vanco and change
   GNR to meropenem.
   - continue abx
   - f/u cultures
   -
   # Pneumonia: Growing moderate GNRs from sputum. Awaiting speciation and
   sensis.
   -continue abx- advance as above
   -suctioning as needed
   -monitor fever curve and wbc
   -bronch without evidence of thick secretions
   # Cellulitis: WBC 10.6. GS of wound with GNRs. MRSA swab negative so
   Vanco d/c'd yesterday.
   - continue abx of zosyn/cipro for double coverage
   - f/u culture data
   - f/u vascular recs
   # R Ankle Fracture: Trimalleolar right ankle fx. Currently in splint.
   Will get final word from Ortho about risk of procedure on this
   admission.
   - Follow ortho recs
   - Will need surgical fixation at some point
   # ARF: Likely prerenal. Creatinine stable from yesterday, 2. Kept I/Os
   close to even yesterday.
   - continue to monitor creatinine
   - monitor I/O's
   - avoid nephrotoxins
   - Goal fluid balance: even to positive: +500
 1L today
   # MAT: had more tachycardia not that she is awake. Brady
d on higher
   doe os lopressor
   - Can decrease dose to lopressor 25 tid
   # Diastolic heart failure: Appears more volume overloaded on CXR. Will
   try to keep her I/O even given acute renal failure. Good urine output
   o/n.
   - monitor clinically
   - consider restarting lasix/spironolactone when renal failure improved
   # Depression: continue OP meds
   - holding abilify, consider restarting when extubated
   -restart when extubated
   # OSA: Does not wear CPAP on home:
   - now intubated
   - will retry CPAP when extubated.
   # Candidal skin infection: improved significantly
   - Topical miconazole
   - Monitor for improvement.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2192-8-24**] 05:48 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2192-8-14**] 07:00 PM
   Prophylaxis:
   DVT: heparin SC
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2192-08-25 10:32:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, cellulitis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
    BRONCHOSCOPY with no significant distal secretions.
   Recurrent fever to 100.4.
   More awake overnight and bucking vent and requiring ativan.
   Allergies:
   Amoxicillin
   Rash;
   Nortriptyline
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2192-8-22**] 02:00 PM
   Ciprofloxacin - [**2192-8-23**] 10:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2192-8-25**] 08:36 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2192-8-25**] 05:45 AM
   Heparin Sodium (Prophylaxis) - [**2192-8-25**] 08:00 AM
   Other medications:
   colace, prozac, RISS, pantoprazole, prednisone 20mg po daily, lopressor
   50 [**Hospital1 **],
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-8-25**] 10:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 36.4
C (97.5
   HR: 64 (63 - 97) bpm
   BP: 142/83(96) {123/58(73) - 174/100(113)} mmHg
   RR: 21 (16 - 34) insp/min
   SpO2: 99%
   Heart rhythm: WAP (Wandering atrial pacemaker)
   Height: 66 Inch
             Total In:
                                                                  1,392 mL
                                                                  1,269 mL
   PO:
             TF:
                                                                    186 mL
                                                                    304 mL
   IVF:
                                                                  1,036 mL
                                                                    765 mL
   Blood products:
   Total out:
                                                                  1,378 mL
                                                                    660 mL
   Urine:
                                                                  1,378 mL
                                                                    660 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     14 mL
                                                                    609 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 349 (209 - 423) mL
   PS : 14 cmH2O
   RR (Set): 16
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 193
   PIP: 19 cmH2O
   Plateau: 26 cmH2O
   SpO2: 99%
   ABG: ///30/
   Ve: 4.7 L/min
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   scattered likely )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Non -purposeful, Tone: Normal
   Labs / Radiology
   10.1 g/dL
   347 K/uL
   158 mg/dL
   2.0 mg/dL
   30 mEq/L
   3.8 mEq/L
   37 mg/dL
   115 mEq/L
   152 mEq/L
   34.3 %
   10.8 K/uL
        [image002.jpg]
                             [**2192-8-17**]  06:26 PM
                             [**2192-8-18**]  04:44 AM
                             [**2192-8-19**]  04:11 AM
                             [**2192-8-19**]  05:50 PM
                             [**2192-8-20**]  03:28 AM
                             [**2192-8-21**]  04:05 AM
                             [**2192-8-22**]  03:08 AM
                             [**2192-8-23**]  05:15 AM
                             [**2192-8-24**]  06:02 AM
                             [**2192-8-25**]  03:58 AM
   WBC
   10.0
   8.8
   10.9
   12.7
   11.7
   10.0
   10.5
   10.8
   Hct
   43.4
   41.2
   41.1
   40.5
   38.1
   35.1
   36.3
   34.3
   Plt
   [**Telephone/Fax (3) 8222**]99
   [**Telephone/Fax (2) 8223**]47
   Cr
   1.2
   1.4
   1.8
   2.0
   2.1
   2.1
   2.3
   2.0
   2.1
   2.0
   Glucose
   287
   206
   295
   176
   176
   168
   159
   174
   158
   Other labs: PT / PTT / INR:15.0/29.3/1.3, Differential-Neuts:73.8 %,
   Lymph:18.3 %, Mono:7.3 %, Eos:0.2 %, Lactic Acid:0.9 mmol/L,
   Albumin:3.0 g/dL, Ca++:9.1 mg/dL, Mg++:2.1 mg/dL, PO4:3.0 mg/dL
   Imaging: CXR pending.
   Microbiology: sputum with multiple GNR to be speciated.
   Assessment and Plan
 BRADYCARDIA: will decrease lopressor to 25mg tid.
 CELLULITIS: improved on antibiotics.
 FRACTURE, OTHER: contact ortho regarding timming of surgery. continue
   splint.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**]): remains hypoventilatory,
   more awake overnight and bucking vent and requiring  ativan, will
   consult IP for Trach for chronic sleep apnea, failure to wean off
   ventilator.
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF): goal + 500cc today,
   Getting D5W for hypernatremia.
 Fever: pan culture, broaden to vanco, and meropenem, if culture
   unrevealing will narrow accordingly.
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITHOUT ACUTE EXACERBATION: d/c prednisone completed 10 day course.
 IMPAIRED SKIN INTEGRITY: continue wound care.
 INEFFECTIVE COPING: will contact daughter today regarding
   tracheostomy tube.
 Hypernatremia: start free water repletion, recheck lytes this pm.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2192-8-24**] 05:48 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2192-8-14**] 07:00 PM
   Comments: poor access continues to need this.
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Pt is critically ill.
   Total time spent: 34 minutes

2192-08-26 05:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - free H2O deficit calculated at 5.1 L - should be corrected over 24
   hours (12 mEq rise to correct by <0.5mEq/hr) -- 200cc free H2o an hour
   -- started D5W at 100cc/hr for 1L and free water flushes
   -Continued to spike temps 100.4 yesterday afternoon. Therefore coverage
   advanced to vanco/[**Last Name (un) **].
   - Changed lopressor to 25 tid as brady day prior. Did not receive noon
   time dose b/c brady
   - Noted to have 150cc TF residuals. TF held temporarily.
   - Unable to withdraw off triple lumen though still able to run in meds.
   Will likely need to be changed over wire.
   - Ordered bedside PICC eval
   Allergies:
   Amoxicillin
   Rash;
   Nortriptyline
   Rash;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2192-8-23**] 10:00 AM
   Vancomycin - [**2192-8-25**] 10:45 AM
   Piperacillin/Tazobactam (Zosyn) - [**2192-8-25**] 04:00 PM
   Meropenem - [**2192-8-25**] 11:05 PM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2192-8-25**] 05:45 AM
   Pantoprazole (Protonix) - [**2192-8-25**] 12:16 PM
   Heparin Sodium (Prophylaxis) - [**2192-8-25**] 04:00 PM
   Fentanyl - [**2192-8-26**] 04:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-8-26**] 05:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.6
C (97.9
   HR: 79 (57 - 87) bpm
   BP: 158/94(107) {103/24(56) - 159/128(133)} mmHg
   RR: 25 (15 - 30) insp/min
   SpO2: 100%
   Heart rhythm: WAP (Wandering atrial pacemaker)
   Height: 66 Inch
             Total In:
                                                                  3,560 mL
                                                                    362 mL
   PO:
             TF:
                                                                    674 mL
                                                                    125 mL
   IVF:
                                                                  2,336 mL
                                                                     57 mL
   Blood products:
   Total out:
                                                                  1,650 mL
                                                                    300 mL
   Urine:
                                                                  1,500 mL
                                                                    270 mL
   NG:
                                                                    150 mL
                                                                     30 mL
   Stool:
   Drains:
   Balance:
                                                                  1,910 mL
                                                                     62 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 279 (215 - 349) mL
   PS : 14 cmH2O
   RR (Set): 16
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 127
   PIP: 20 cmH2O
   SpO2: 100%
   ABG: ///28/
   Ve: 6.8 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Crackles : , No(t) Wheezes : , Diminished: throughout)
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm, Rash: cellulitis LLE
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   347 K/uL
   10.1 g/dL
   253 mg/dL
   2.0 mg/dL
   28 mEq/L
   4.0 mEq/L
   36 mg/dL
   113 mEq/L
   149 mEq/L
   34.3 %
   10.8 K/uL
        [image002.jpg]
                             [**2192-8-18**]  04:44 AM
                             [**2192-8-19**]  04:11 AM
                             [**2192-8-19**]  05:50 PM
                             [**2192-8-20**]  03:28 AM
                             [**2192-8-21**]  04:05 AM
                             [**2192-8-22**]  03:08 AM
                             [**2192-8-23**]  05:15 AM
                             [**2192-8-24**]  06:02 AM
                             [**2192-8-25**]  03:58 AM
                             [**2192-8-25**]  12:04 PM
   WBC
   10.0
   8.8
   10.9
   12.7
   11.7
   10.0
   10.5
   10.8
   Hct
   43.4
   41.2
   41.1
   40.5
   38.1
   35.1
   36.3
   34.3
   Plt
   [**Telephone/Fax (3) 8222**]99
   [**Telephone/Fax (2) 8223**]47
   Cr
   1.4
   1.8
   2.0
   2.1
   2.1
   2.3
   2.0
   2.1
   2.0
   2.0
   Glucose
   [**Telephone/Fax (3) 8159**]76
   168
   159
   174
   158
   253
   Other labs: PT / PTT / INR:15.0/29.3/1.3, Differential-Neuts:73.8 %,
   Lymph:18.3 %, Mono:7.3 %, Eos:0.2 %, Lactic Acid:1.2 mmol/L,
   Albumin:3.0 g/dL, Ca++:9.1 mg/dL, Mg++:2.1 mg/dL, PO4:3.0 mg/dL
   Microbiology: [**2192-8-24**] 5:56 am SPUTUM      Source: Catheter.
      GRAM STAIN (Final [**2192-8-24**]):
         [**10-7**] PMNs and <10 epithelial cells/100X field.
         4+   (>10 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
         1+    (<1 per 1000X FIELD):   BUDDING YEAST WITH PSEUDOHYPHAE.
      RESPIRATORY CULTURE (Preliminary):
         Further incubation required to determine the presence or absence
   of
         Oropharyngeal flora.
         GRAM NEGATIVE ROD(S).    MODERATE GROWTH.
         GRAM NEGATIVE ROD #2.    SPARSE GROWTH.
         YEAST.    RARE GROWTH.
   Assessment and Plan
 BRADYCARDIA
 CELLULITIS
 FRACTURE, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 PNEUMONIA, ASPIRATION
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITHOUT ACUTE EXACERBATION
 OBSTRUCTIVE SLEEP APNEA (OSA)
 ATRIAL FIBRILLATION (AFIB)
 IMPAIRED SKIN INTEGRITY
 INEFFECTIVE COPING
   A/P 62 yo W with LLE cellulitis, R ankle fracture and respiratory
   failure likely secondary to underlying COPD/sleep apnea and possible
   obesity hypoventilation syndrome.
   # Respiratory distress/COPD: Increased CO2 retention on PSV due to
   insufficient tidal volumes. Unclear whether this is secondary to a
   combination of sedation and increased CO2 production given underlying
   infectious process. Does not appear volume overloaded as pt has been
   diuresing, not hypoxic and Cr has bumped. BAL without secretions
   yesterday. Now day 11 of intubation and low likelihood of success with
   extubation.  Sputum is positive for GNRs on prior cultures and on
   sputum cx today prelim gram stain, concering that infection is
   worsening her resp status. Still no speciation. IP consulted and
   recommend placement of trach in OR given high risk with extubation.
   - contact family
   - Follow [**Name (NI) 8238**]
   - hold lasix for now due to rise in Cr
   - ipratroprium nebs
   - continue abx.
   - continue vanco/[**Last Name (un) **]
   # Hypernatremia:  Fee H20 deficit calculated at 5.1L, started on D5E
   150 cc/hr
   - monitor
   # Fever: No fevers overnight on broadened abx. Still awaiting
   speciation of GNRs in sputum.
   - continue abx
   - f/u cultures
   # Pneumonia: Growing moderate GNRs from sputum. Awaiting speciation and
   sensis.
   -continue abx- advance as above
   -suctioning as needed
   -monitor fever curve and wbc
   -bronch without evidence of thick secretions
   # Cellulitis: WBC 10.6. GS of wound with GNRs. Abx coverage as above
   - continue abx of zosyn/cipro for double coverage
   - f/u culture data
   - f/u vascular recs
   # R Ankle Fracture: Trimalleolar right ankle fx. Currently in splint.
   Will get final word from Ortho about risk of procedure on this
   admission.
   - Follow ortho recs
   - Will need surgical fixation at some point
   # ARF: Likely prerenal. Creatinine stable from yesterday, 2. Kept I/Os
   close to even yesterday. + 2L yesterday [**1-16**] free water.
   - continue to monitor creatinine
   - monitor I/O's
   - avoid nephrotoxins
   - Goal fluid balance: even to positive: +500
 1L today
   # MAT: had more tachycardia not that she is awake. Brady
d on higher
   doe os lopressor
   - Can decrease dose to lopressor 25 tid
   # Diastolic heart failure:
   - monitor clinically
   - consider restarting lasix/spironolactone when renal failure improved
   # Depression: continue OP meds
   - holding abilify, consider restarting when extubated
   -restart when extubated
   # OSA: Does not wear CPAP on home:
   - now intubated
   - will retry CPAP when extubated.
   # Candidal skin infection: improved significantly
   - Topical miconazole
   - Monitor for improvement.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2192-8-14**] 07:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Above note was signed prior to following final plan ajustments:
   # Resp:
   - a trach would require OR for [**Last Name (LF) 8243**], [**First Name3 (LF) **] need thoracics involvment
   per IP yesterday, will need to confirm with family
   - call lab for GNR species
   - continue abx- [**Last Name (un) **]/vanco/zosyn, will adjust
   - keep fluid balance 500 to even
   # Hypernatremia:
   - TID na
   - 100ml/hr D5W
   - free water with tube feeds 100ml Q4H
   # Bradycarida/Tachycarida:
   - will keep metoprolol 25mg TID, hold dose if brady
   # Lines: PICC evaluation this AM
   ------ Protected Section Addendum Entered By:[**Name (NI) 3513**] [**Last Name (NamePattern1) 3434**], MD
   on:[**2192-8-26**] 09:27 ------

2192-08-26 09:27:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: respiratory failure, fever
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   60yo F with obesity, OSA, COPD and witnessed aspiraiton with recent
   low-grade temp and recently no cuff leak; being evaluated for
   tracheostomy
   24 Hour Events:  IP evaluation for tracheostomy
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Amoxicillin
   Rash;
   Nortriptyline
   Rash;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2192-8-23**] 10:00 AM
   Vancomycin - [**2192-8-25**] 10:45 AM
   Piperacillin/Tazobactam (Zosyn) - [**2192-8-25**] 04:00 PM
   Meropenem - [**2192-8-25**] 11:05 PM
   Piperacillin - [**2192-8-26**] 08:00 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2192-8-25**] 12:16 PM
   Heparin Sodium (Prophylaxis) - [**2192-8-25**] 04:00 PM
   Fentanyl - [**2192-8-26**] 08:00 AM
   Other medications:
   Changes to medical and family history:  NONE
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-8-26**] 09:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98
   HR: 73 (57 - 87) bpm
   BP: 131/82(92) {103/24(56) - 159/128(133)} mmHg
   RR: 16 (15 - 30) insp/min
   SpO2: 97%
   Heart rhythm: WAP (Wandering atrial pacemaker)
   Height: 66 Inch
             Total In:
                                                                  3,560 mL
                                                                  1,009 mL
   PO:
             TF:
                                                                    674 mL
                                                                    227 mL
   IVF:
                                                                  2,336 mL
                                                                    453 mL
   Blood products:
   Total out:
                                                                  1,650 mL
                                                                    500 mL
   Urine:
                                                                  1,500 mL
                                                                    470 mL
   NG:
                                                                    150 mL
                                                                     30 mL
   Stool:
   Drains:
   Balance:
                                                                  1,910 mL
                                                                    509 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 279 (215 - 337) mL
   PS : 14 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 127
   PIP: 33 cmH2O
   SpO2: 97%
   ABG: ///28/
   Ve: 7.9 L/min
   Physical Examination
   Gen
l: sedated, arousable to tactile stimuli
   HEENT: Pupils equal and reactive, anicteric
   CV: distant, regular
   Pulm: good air movement bilaterally but diminished at bases
   Abd: soft, non-tender, obese
   Ext: LLE with gauze wrapping, chronic skin changes; RLE in hard boot
   Labs / Radiology
   10.4 g/dL
   348 K/uL
   141 mg/dL
   1.8 mg/dL
   28 mEq/L
   3.5 mEq/L
   33 mg/dL
   111 mEq/L
   149 mEq/L
   35.4 %
   10.3 K/uL
        [image002.jpg]
                             [**2192-8-19**]  04:11 AM
                             [**2192-8-19**]  05:50 PM
                             [**2192-8-20**]  03:28 AM
                             [**2192-8-21**]  04:05 AM
                             [**2192-8-22**]  03:08 AM
                             [**2192-8-23**]  05:15 AM
                             [**2192-8-24**]  06:02 AM
                             [**2192-8-25**]  03:58 AM
                             [**2192-8-25**]  12:04 PM
                             [**2192-8-26**]  05:00 AM
   WBC
   8.8
   10.9
   12.7
   11.7
   10.0
   10.5
   10.8
   10.3
   Hct
   41.2
   41.1
   40.5
   38.1
   35.1
   36.3
   34.3
   35.4
   Plt
   362
   362
   399
   [**Telephone/Fax (3) **]
   347
   348
   Cr
   1.8
   2.0
   2.1
   2.1
   2.3
   2.0
   2.1
   2.0
   2.0
   1.8
   Glucose
   295
   176
   176
   168
   159
   174
   158
   253
   141
   Other labs: PT / PTT / INR:12.7/27.9/1.1, Differential-Neuts:73.8 %,
   Lymph:18.3 %, Mono:7.3 %, Eos:0.2 %, Lactic Acid:1.2 mmol/L,
   Albumin:3.0 g/dL, Ca++:9.5 mg/dL, Mg++:1.9 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   - planning for tracheostomy if c/w goals of care
   - continue VC ventilation, increased pl effusion on R today but stable
   oxygenation
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   - creatinine stable to slightly improving
   - goal TBB even to (+) 500
 PNEUMONIA, ASPIRATION
   - awaiting speciation of her sputum specimens with GNR
   - continue two-drug coverage with [**Last Name (un) **]/zosyn
Hypernatremia
   - stable to slightly improved
   - on D5W, will follow PM lytes, will increase free water boluses
   - likely insensible losses, will
 CELLULITIS
   - wound care following
   - coverage as above
 FRACTURE, OTHER
   - awaiting ortho recs
ATRIAL FIBRILLATION
   - on lopressor, stable
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2192-8-26**] 05:47 AM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2192-8-14**] 07:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes

2192-08-27 07:19:00 Physician Resident Progress Note
Chief Complaint: LE cellulitis
   24 Hour Events:
 PICC LINE - START [**2192-8-26**] 10:15 AM
   - PICC placed at bedside
   - daughter was updated, is okay with pt having a trach
   - talked to lab to speciate her GNRs
   - ET tube pulled back 3cm
   - Na improved to 147, but still with a 3.7L free water deficit
   Allergies:
   Amoxicillin
   Rash;
   Nortriptyline
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2192-8-25**] 10:45 AM
   Piperacillin - [**2192-8-26**] 08:00 AM
   Meropenem - [**2192-8-27**] 12:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2192-8-27**] 02:00 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl (Concentrate) - 150 mcg/hour
   Other ICU medications:
   Fentanyl - [**2192-8-26**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-8-27**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.7
C (98
   HR: 62 (56 - 81) bpm
   BP: 118/70(83) {108/54(62) - 147/96(108)} mmHg
   RR: 16 (16 - 17) insp/min
   SpO2: 99%
   Heart rhythm: WAP (Wandering atrial pacemaker)
   Height: 66 Inch
             Total In:
                                                                  2,722 mL
                                                                  1,224 mL
   PO:
             TF:
                                                                    673 mL
                                                                      2 mL
   IVF:
                                                                  1,369 mL
                                                                    972 mL
   Blood products:
   Total out:
                                                                  1,170 mL
                                                                    420 mL
   Urine:
                                                                  1,140 mL
                                                                    420 mL
   NG:
                                                                     30 mL
   Stool:
   Drains:
   Balance:
                                                                  1,552 mL
                                                                    804 mL
   Respiratory support
   O2 Delivery Device: Venti mask , Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 34 cmH2O
   Plateau: 28 cmH2O
   SpO2: 99%
   ABG: ///30/
   Ve: 6.7 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   311 K/uL
   9.5 g/dL
   155 mg/dL
   1.7 mg/dL
   30 mEq/L
   3.6 mEq/L
   27 mg/dL
   111 mEq/L
   146 mEq/L
   31.9 %
   8.2 K/uL
        [image002.jpg]
                             [**2192-8-21**]  04:05 AM
                             [**2192-8-22**]  03:08 AM
                             [**2192-8-23**]  05:15 AM
                             [**2192-8-24**]  06:02 AM
                             [**2192-8-25**]  03:58 AM
                             [**2192-8-25**]  12:04 PM
                             [**2192-8-26**]  05:00 AM
                             [**2192-8-26**]  01:17 PM
                             [**2192-8-26**]  07:18 PM
                             [**2192-8-27**]  05:40 AM
   WBC
   12.7
   11.7
   10.0
   10.5
   10.8
   10.3
   8.2
   Hct
   40.5
   38.1
   35.1
   36.3
   34.3
   35.4
   31.9
   Plt
   399
   414
   365
   359
   347
   348
   311
   Cr
   2.1
   2.3
   2.0
   2.1
   2.0
   2.0
   1.8
   1.8
   1.8
   1.7
   Glucose
   176
   168
   159
   174
   158
   253
   141
   171
   174
   155
   Other labs: PT / PTT / INR:14.8/31.3/1.3, Differential-Neuts:73.8 %,
   Lymph:18.3 %, Mono:7.3 %, Eos:0.2 %, Lactic Acid:1.2 mmol/L,
   Albumin:3.0 g/dL, Ca++:8.7 mg/dL, Mg++:1.8 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   A/P 62 yo W with LLE cellulitis, R ankle fracture and respiratory
   failure likely secondary to underlying COPD/sleep apnea and possible
   obesity hypoventilation syndrome.
   # Respiratory distress/COPD: Increased CO2 retention on PSV due to
   insufficient tidal volumes. Unclear whether this is secondary to a
   combination of sedation and increased CO2 production given underlying
   infectious process. Does not appear volume overloaded as pt has been
   diuresing, not hypoxic and Cr has bumped. BAL without secretions
   yesterday. Now day 11 of intubation and low likelihood of success with
   extubation.  Sputum is positive for GNRs on prior cultures and on
   sputum cx today prelim gram stain, concering that infection is
   worsening her resp status. Still no speciation. IP consulted and
   recommend placement of trach in OR given high risk with extubation.
   - contact family
   - Follow [**Name (NI) 8238**]
   - hold lasix for now due to rise in Cr
   - ipratroprium nebs
   - continue abx.
   - continue vanco/[**Last Name (un) **]
   # Hypernatremia:  Fee H20 deficit calculated at 5.1L, started on D5E
   150 cc/hr
   - monitor
   # Fever: No fevers overnight on broadened abx. Still awaiting
   speciation of GNRs in sputum.
   - continue abx
   - f/u cultures
   # Pneumonia: Growing moderate GNRs from sputum. Awaiting speciation and
   sensis.
   -continue abx- advance as above
   -suctioning as needed
   -monitor fever curve and wbc
   -bronch without evidence of thick secretions
   # Cellulitis: WBC 10.6. GS of wound with GNRs. Abx coverage as above
   - continue abx of zosyn/cipro for double coverage
   - f/u culture data
   - f/u vascular recs
   # R Ankle Fracture: Trimalleolar right ankle fx. Currently in splint.
   Will get final word from Ortho about risk of procedure on this
   admission.
   - Follow ortho recs
   - Will need surgical fixation at some point
   # ARF: Likely prerenal. Creatinine stable from yesterday, 2. Kept I/Os
   close to even yesterday. + 2L yesterday [**1-16**] free water.
   - continue to monitor creatinine
   - monitor I/O's
   - avoid nephrotoxins
   - Goal fluid balance: even to positive: +500
 1L today
   # MAT: had more tachycardia not that she is awake. Brady
d on higher
   doe os lopressor
   - Can decrease dose to lopressor 25 tid
   # Diastolic heart failure:
   - monitor clinically
   - consider restarting lasix/spironolactone when renal failure improved
   # Depression: continue OP meds
   - holding abilify, consider restarting when extubated
   -restart when extubated
   # OSA: Does not wear CPAP on home:
   - now intubated
   - will retry CPAP when extubated.
   # Candidal skin infection: improved significantly
   - Topical miconazole
   - Monitor for improvement.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2192-8-14**] 07:00 PM
   PICC Line - [**2192-8-26**] 10:15 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition:ICU

2192-08-27 11:02:00 Physician Attending Progress Note
Chief Complaint: Cellulitis, respiratory failure.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Quiet night. PICC placed. Sodium improving on free water repletion.
   Patient unable to provide history: Sedated
   Allergies:
   Amoxicillin
   Rash;
   Nortriptyline
   Rash;
   Last dose of Antibiotics:
   Piperacillin - [**2192-8-26**] 08:00 AM
   Meropenem - [**2192-8-27**] 12:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2192-8-27**] 08:35 AM
   Vancomycin - [**2192-8-27**] 09:06 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl (Concentrate) - 150 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-8-27**] 11:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.6
C (97.9
   HR: 77 (56 - 81) bpm
   BP: 111/69(78) {108/54(62) - 147/96(108)} mmHg
   RR: 16 (16 - 17) insp/min
   SpO2: 100%
   Heart rhythm: WAP (Wandering atrial pacemaker)
   Height: 66 Inch
             Total In:
                                                                  2,722 mL
                                                                  2,127 mL
   PO:
             TF:
                                                                    673 mL
                                                                      2 mL
   IVF:
                                                                  1,369 mL
                                                                  1,626 mL
   Blood products:
   Total out:
                                                                  1,170 mL
                                                                    560 mL
   Urine:
                                                                  1,140 mL
                                                                    560 mL
   NG:
                                                                     30 mL
   Stool:
   Drains:
   Balance:
                                                                  1,552 mL
                                                                  1,567 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 38 cmH2O
   Plateau: 34 cmH2O
   Compliance: 25 cmH2O/mL
   SpO2: 100%
   ABG: ///30/
   Ve: 8.2 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: No(t) Follows simple commands, Responds to: Verbal stimuli,
   Movement: Purposeful, Tone: Normal, opens eyes to verbal stimuli
   Labs / Radiology
   9.5 g/dL
   311 K/uL
   155 mg/dL
   1.7 mg/dL
   30 mEq/L
   3.6 mEq/L
   27 mg/dL
   111 mEq/L
   146 mEq/L
   31.9 %
   8.2 K/uL
        [image002.jpg]
                             [**2192-8-21**]  04:05 AM
                             [**2192-8-22**]  03:08 AM
                             [**2192-8-23**]  05:15 AM
                             [**2192-8-24**]  06:02 AM
                             [**2192-8-25**]  03:58 AM
                             [**2192-8-25**]  12:04 PM
                             [**2192-8-26**]  05:00 AM
                             [**2192-8-26**]  01:17 PM
                             [**2192-8-26**]  07:18 PM
                             [**2192-8-27**]  05:40 AM
   WBC
   12.7
   11.7
   10.0
   10.5
   10.8
   10.3
   8.2
   Hct
   40.5
   38.1
   35.1
   36.3
   34.3
   35.4
   31.9
   Plt
   399
   414
   365
   359
   347
   348
   311
   Cr
   2.1
   2.3
   2.0
   2.1
   2.0
   2.0
   1.8
   1.8
   1.8
   1.7
   Glucose
   176
   168
   159
   174
   158
   253
   141
   171
   174
   155
   Other labs: PT / PTT / INR:14.8/31.3/1.3, Differential-Neuts:73.8 %,
   Lymph:18.3 %, Mono:7.3 %, Eos:0.2 %, Lactic Acid:1.2 mmol/L,
   Albumin:3.0 g/dL, Ca++:8.7 mg/dL, Mg++:1.8 mg/dL, PO4:2.3 mg/dL
   Imaging: CXR stable, ETT in good position.
   Microbiology: Sputum E.coli susciptible to meropenem and zosyn.
   Assessment and Plan
 HYPERNATREMIA (HIGH SODIUM)
   improving on free water repletion.
 BRADYCARDIA;
   continue to follow in wandering atrial rhythm, on bblocker due to prior
   MAT/tachycardia
 CELLULITIS:
   completed 2 week course of antibiotics cipro/flagyl/vanco -->
   zosyn/cipro --> [**Last Name (un) **]/zosyn
 FRACTURE, OTHER;
   will need ABI to be performed priro to surgery, cannot be done portably
   will perform this after trach is placed. Will likely not get surgery
   durign this admission, but will likely get full cast.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**]):
   plan for trach today vs tomorrow. TF off.
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   improving with fluids. continue to monitor
 Fever: only low grade, has not recurred all cultures  apart from gram
   negative in sputum were negative. Will d/c vanco/[**Last Name (un) **], and d/c zosyn in
   am to complete 8 day course from time of first growth. Other sparse
   growth of GNR in sputum unlikely pathogen.
 IMPAIRED SKIN INTEGRITY
   continue wound care.
 INEFFECTIVE COPING: communication with daugter
   ICU Care
   Nutrition: Tf on hold for trach
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2192-8-14**] 07:00 PM
   PICC Line - [**2192-8-26**] 10:15 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   Persistent respiratory failure. Plan is for trach tomorrow.
   Exam notable for Tmax: 36.8
C (98.3
F)  Tcurrent: 36.6
C (97.9
   HR: 77 (56 - 81) bpm  BP: 111/69(78) {108/54(62) - 147/96(108)} mmHg
   RR: 16 (16 - 17) insp/min  SpO2: 100%
   Urine:  1,140 mL   Balance:  1,552 mL
   CMV 16/500/5/40%   PIP: 38 cmH2O  Plateau: 34 cmH2O  Compliance: 25
   cmH2O/mL
   Obese intubated, following simple commands
   Lungs decreased
   RRR
   Abd benign
   Extreme obese
   Labs reviewed and documented above
   Imaging: reviewed, ETT OK, stable pulmonary edema, cardiomeg, LLL
   atelectasis
   Problems: resp failure, renal failure, ankle fracture, difficult airway
   Agree with plan to pursue trach, continue vent support
   Remainder of plan as outlined above.
   Patient is critically ill.
   Total time: 36 min
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2192-8-27**] 16:15 ------

2192-08-28 07:33:00 Physician Resident Progress Note
24 Hour Events:
 MULTI LUMEN - STOP [**2192-8-27**] 01:00 PM
   - IP recs: to OR on Thursday by Dr. [**Last Name (STitle) 1523**]
   - [**8-24**] sputum e.coli susceptible to zosyn, 3 other rod speciation
   pending --> on contact precautions
   - d/c'ed CVL
   - d/c'ed vanco and meropenem
   - I/O even, +1 L so had to give 40 IV lasix x 1
   - increased free water flushes 150 cc q 4 hours
   - Tube feeds restarted given no OR
   - Vasc [**Doctor First Name 3**] recs: none
   - Ortho recs: hold off surgery until pt awake and can put full cast on
   first before considering
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Amoxicillin
   Rash;
   Nortriptyline
   Rash;
   Last dose of Antibiotics:
   Piperacillin - [**2192-8-26**] 08:00 AM
   Meropenem - [**2192-8-27**] 12:00 AM
   Vancomycin - [**2192-8-27**] 09:06 AM
   Piperacillin/Tazobactam (Zosyn) - [**2192-8-28**] 02:00 AM
   Infusions:
   Fentanyl (Concentrate) - 150 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2192-8-27**] 04:11 PM
   Heparin Sodium (Prophylaxis) - [**2192-8-28**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-8-28**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.8
C (98.2
   HR: 62 (62 - 84) bpm
   BP: 130/92(93) {107/54(65) - 136/93(101)} mmHg
   RR: 16 (16 - 16) insp/min
   SpO2: 98%
   Heart rhythm: WAP (Wandering atrial pacemaker)
   Height: 66 Inch
             Total In:
                                                                  4,250 mL
                                                                  1,353 mL
   PO:
             TF:
                                                                    198 mL
                                                                     72 mL
   IVF:
                                                                  3,252 mL
                                                                    881 mL
   Blood products:
   Total out:
                                                                  2,700 mL
                                                                    820 mL
   Urine:
                                                                  2,700 mL
                                                                    820 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,550 mL
                                                                    533 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 125
   PIP: 33 cmH2O
   Plateau: 28 cmH2O
   Compliance: 23.8 cmH2O/mL
   SpO2: 98%
   ABG: ///29/
   Ve: 8 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: )
   Abdominal: Soft, Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed, LLE ulceration
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   369 K/uL
   10.1 g/dL
   158 mg/dL
   1.7 mg/dL
   29 mEq/L
   4.0 mEq/L
   23 mg/dL
   105 mEq/L
   140 mEq/L
   33.6 %
   7.7 K/uL
        [image002.jpg]
                             [**2192-8-23**]  05:15 AM
                             [**2192-8-24**]  06:02 AM
                             [**2192-8-25**]  03:58 AM
                             [**2192-8-25**]  12:04 PM
                             [**2192-8-26**]  05:00 AM
                             [**2192-8-26**]  01:17 PM
                             [**2192-8-26**]  07:18 PM
                             [**2192-8-27**]  05:40 AM
                             [**2192-8-27**]  11:00 PM
                             [**2192-8-28**]  04:30 AM
   WBC
   10.0
   10.5
   10.8
   10.3
   8.2
   7.7
   Hct
   35.1
   36.3
   34.3
   35.4
   31.9
   33.6
   Plt
   365
   359
   347
   348
   311
   369
   Cr
   2.0
   2.1
   2.0
   2.0
   1.8
   1.8
   1.8
   1.7
   1.7
   1.7
   Glucose
   159
   174
   158
   [**Telephone/Fax (3) 8289**]
   174
   155
   138
   158
   Other labs: PT / PTT / INR:14.4/32.9/1.2, Alk Phos / T Bili:/3.8,
   Differential-Neuts:73.8 %, Lymph:18.3 %, Mono:7.3 %, Eos:0.2 %, Lactic
   Acid:1.2 mmol/L, Albumin:3.0 g/dL, Ca++:8.5 mg/dL, Mg++:1.8 mg/dL,
   PO4:3.0 mg/dL
   Assessment and Plan
   62 yo F with LLE cellulitis, R ankle fracture and respiratory failure
   likely secondary to underlying COPD/sleep apnea and possible obesity
   hypoventilation syndrome.
    # Respiratory distress/COPD:  Stable on AC for now. Plan on trach in
   OR for Thursday.  Sputum growing ESBL E.coli among other GNRs not yet
   speciated.
   - Follow VBGs
   - trach in OR Thursday per IP
   - ipratroprium nebs
   - d/c zosyn and give abx holiday
   # Hypernatremia:  Sodium normalized.
   - monitor daily Na
   - decrease free water flush to 100 q6 to minimze volume overload
   # Anemia: may be [**1-16**] fluids. HCT stable over last several days.
   - guaiac stools
   - active t and s
   - daily hct
   # Pneumonia: Growing moderate GNRs including E. coli from sputum.
   Awaiting sensis.
   -d/c zosyn today; monitor clinically for symptoms
   -suctioning as needed
   -monitor fever curve and wbc
   # Cellulitis:
   - s/p completion of abx
   - f/u culture data
   - f/u vascular recs
   # R Ankle Fracture: Trimalleolar right ankle fx. Currently in splint.
   Will get final word from Ortho about risk of procedure on this
   admission.
   - Follow ortho recs
   - Will need surgical fixation at some point, not during this
   hospitalization
   - will need to recontact orthro to replace cast once awake
   # ARF: Likely prerenal. Creatinine down to 1.7 but still elevated from
   baseline
   - continue to monitor creatinine
   - monitor I/O's
   - avoid nephrotoxins
   - Goal fluid balance: even
   # MAT: had more tachycardia not that she is awake. Brady
d on higher
   dose  lopressor
   - Llopressor 25 tid, hold dose if needed for bradycardia
   # Diastolic heart failure:
   - monitor clinically
   - holding diuresis
   # Depression: continue OP meds
   - holding abilify, consider restarting when extubated
   -restart when extubated
   # OSA: Does not wear CPAP on home:
   - now intubated and awaiting trach
   .
   # Candidal skin infection: improved significantly
   - Topical miconazole
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2192-8-28**] 04:30 AM 20 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2192-8-26**] 10:15 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition: ICU
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   She continues on the vent and the trach remains scheduled for tomorrow.
   No significant new clinical events.
   Exam notable for
   Tmax: 36.9
C (98.4
   Tcurrent: 36.8
C (98.2
   HR: 62 (62 - 84) bpm
   BP: 130/92(93) {107/54(65) - 136/93(101)} mmHg
   RR: 16 (16 - 16) insp/min
   SpO2: 98%
   Heart rhythm: WAP (Wandering atrial pacemaker)
   Height: 66 Inch
             Total In:
                                                                  4,250 mL
                                                                  1,353 mL
   PO:
             TF:
                                                                    198 mL
                                                                     72 mL
   IVF:
                                                                  3,252 mL
                                                                    881 mL
   Blood products:
   Total out:
                                                                  2,700 mL
                                                                    820 mL
   Urine:
                                                                  2,700 mL
                                                                    820 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,550 mL
                                                                    533 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 125
   PIP: 33 cmH2O
   Plateau: 28 cmH2O
   Compliance: 23.8 cmH2O/mL
   SpO2: 98%
   ABG: ///29/
   Ve: 8 L/min
   Obese, intubated, sedated
   No distress
   Distant breath and heart sounds
   Abd benign
   Extreme edematous
   Labs notable for slowly improving creatinine, other labs recorded above
   Imaging: CXR reviewed, no sig change
   Problems: resp failure, ankle fracture, obesity, OSA
   Agree with plan to cont vent support, trach, eventual ankle surgery
   Remainder of plan as outlined above.
   Patient is critically ill.
   Total time: 36 min
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2192-8-28**] 15:09 ------

2192-08-28 09:23:00 Physician Attending Progress Note
Chief Complaint: cellulitis, Respiratory failure acute on chronic.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Sputum culture now characterized as ESBL E.coli. Yesterday Meropenem
   was discontinued and vanomycin discontinued. Awaiting trach with
   thoracic surgery back up in the OR on thursday. Continues on free water
   repletion. Right subclavian CVC d/c yesterday. Suctioning moderate
   yellow q4h.
   Patient unable to provide history: Sedated
   Allergies:
   Amoxicillin
   Rash;
   Nortriptyline
   Rash;
   Last dose of Antibiotics:
   Piperacillin - [**2192-8-26**] 08:00 AM
   Meropenem - [**2192-8-27**] 12:00 AM
   Vancomycin - [**2192-8-27**] 09:06 AM
   Piperacillin/Tazobactam (Zosyn) - [**2192-8-28**] 08:00 AM
   Infusions:
   Fentanyl (Concentrate) - 150 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2192-8-27**] 04:11 PM
   Heparin Sodium (Prophylaxis) - [**2192-8-28**] 12:00 AM
   Other medications:
   miconazole, chlorhexidine, colace, albuterol, ipratropium, prozac,
   insulin sliding scale, pantoprazole. Free water flushes 150ml q4h.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-8-28**] 09:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.5
   HR: 67 (62 - 84) bpm
   BP: 129/64(80) {107/54(65) - 133/93(101)} mmHg
   RR: 16 (16 - 16) insp/min
   SpO2: 98%
   Heart rhythm: WAP (Wandering atrial pacemaker)
   Height: 66 Inch
             Total In:
                                                                  4,250 mL
                                                                  1,829 mL
   PO:
             TF:
                                                                    198 mL
                                                                    114 mL
   IVF:
                                                                  3,252 mL
                                                                  1,065 mL
   Blood products:
   Total out:
                                                                  2,700 mL
                                                                    940 mL
   Urine:
                                                                  2,700 mL
                                                                    940 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,550 mL
                                                                    889 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 125
   PIP: 28 cmH2O
   Plateau: 18 cmH2O
   Compliance: 45.5 cmH2O/mL
   SpO2: 98%
   ABG: ///29/
   Ve: 7.7 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal, Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Obese
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   10.1 g/dL
   369 K/uL
   158 mg/dL
   1.7 mg/dL
   29 mEq/L
   4.0 mEq/L
   23 mg/dL
   105 mEq/L
   140 mEq/L
   33.6 %
   7.7 K/uL
        [image002.jpg]
                             [**2192-8-23**]  05:15 AM
                             [**2192-8-24**]  06:02 AM
                             [**2192-8-25**]  03:58 AM
                             [**2192-8-25**]  12:04 PM
                             [**2192-8-26**]  05:00 AM
                             [**2192-8-26**]  01:17 PM
                             [**2192-8-26**]  07:18 PM
                             [**2192-8-27**]  05:40 AM
                             [**2192-8-27**]  11:00 PM
                             [**2192-8-28**]  04:30 AM
   WBC
   10.0
   10.5
   10.8
   10.3
   8.2
   7.7
   Hct
   35.1
   36.3
   34.3
   35.4
   31.9
   33.6
   Plt
   365
   359
   347
   348
   311
   369
   Cr
   2.0
   2.1
   2.0
   2.0
   1.8
   1.8
   1.8
   1.7
   1.7
   1.7
   Glucose
   159
   174
   158
   [**Telephone/Fax (3) 8289**]
   174
   155
   138
   158
   Other labs: PT / PTT / INR:14.4/32.9/1.2, Alk Phos / T Bili:/3.8,
   Differential-Neuts:73.8 %, Lymph:18.3 %, Mono:7.3 %, Eos:0.2 %, Lactic
   Acid:1.2 mmol/L, Albumin:3.0 g/dL, Ca++:8.5 mg/dL, Mg++:1.8 mg/dL,
   PO4:3.0 mg/dL
   Imaging: CXR ETT in position, remains with LLL atelectasis vs
   infiltrate.
   Microbiology: Sputum with ESBL E.coli
   Assessment and Plan
 HYPERNATREMIA (HIGH SODIUM)
   improved, d/c D5W IV. continue on 100ml flush q6.
 BRADYCARDIA:
   stable wandering pacer on bblocker
 CELLULITIS
   completed 14 day course of antibiotics
 FRACTURE, OTHER
   to get full cast post trach and weaning of vent.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   Awaiting trach. No clinical or radiological evidence of [**Last Name (LF) 1934**], [**First Name3 (LF) 116**] stop
   all anitbiotics, she has ESBL E.coli in sputum, will monitor for fever,
   elevated white count increased secretions or other signs.
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   Cr trended down. Keep body balance even.
 IMPAIRED SKIN INTEGRITY
   reassess wounds today.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2192-8-28**] 04:30 AM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2192-8-26**] 10:15 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   [**Year (4 digits) 1934**]: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2192-08-29 10:53:00 Physician Attending Progress Note
Chief Complaint: Cellulitis, respiratory failure.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   NPO tonight for OR tomorrow. Continues on free water repletion.
   Allergies:
   Amoxicillin
   Rash;
   Nortriptyline
   Rash;
   Last dose of Antibiotics:
   Meropenem - [**2192-8-27**] 12:00 AM
   Vancomycin - [**2192-8-27**] 09:06 AM
   Piperacillin/Tazobactam (Zosyn) - [**2192-8-28**] 08:00 AM
   Infusions:
   Fentanyl (Concentrate) - 150 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2192-8-29**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2192-8-29**] 08:00 AM
   Other medications:
   miconazole tid, chlorhexidine, albuterol, ipratropium, prozac 20mg
   daily, RISS, lorpessor po tid, FW 100cc q6.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-8-29**] 10:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.3
C (99.2
   HR: 81 (65 - 96) bpm
   BP: 96/56(64) {96/43(57) - 130/81(86)} mmHg
   RR: 16 (16 - 17) insp/min
   SpO2: 100%
   Heart rhythm: WAP (Wandering atrial pacemaker)
   Height: 66 Inch
             Total In:
                                                                  2,621 mL
                                                                    658 mL
   PO:
             TF:
                                                                    567 mL
                                                                    318 mL
   IVF:
                                                                  1,304 mL
                                                                    180 mL
   Blood products:
   Total out:
                                                                  1,790 mL
                                                                    540 mL
   Urine:
                                                                  1,790 mL
                                                                    540 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    831 mL
                                                                    118 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 27 cmH2O
   Plateau: 25 cmH2O
   Compliance: 35.7 cmH2O/mL
   SpO2: 100%
   ABG: ///27/
   Ve: 6.9 L/min
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese, sedated
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.6 g/dL
   325 K/uL
   178 mg/dL
   1.6 mg/dL
   27 mEq/L
   3.6 mEq/L
   19 mg/dL
   106 mEq/L
   142 mEq/L
   32.1 %
   8.6 K/uL
        [image002.jpg]
                             [**2192-8-24**]  06:02 AM
                             [**2192-8-25**]  03:58 AM
                             [**2192-8-25**]  12:04 PM
                             [**2192-8-26**]  05:00 AM
                             [**2192-8-26**]  01:17 PM
                             [**2192-8-26**]  07:18 PM
                             [**2192-8-27**]  05:40 AM
                             [**2192-8-27**]  11:00 PM
                             [**2192-8-28**]  04:30 AM
                             [**2192-8-29**]  04:45 AM
   WBC
   10.5
   10.8
   10.3
   8.2
   7.7
   8.6
   Hct
   36.3
   34.3
   35.4
   31.9
   33.6
   32.1
   Plt
   359
   347
   348
   [**Telephone/Fax (3) 8295**]
   Cr
   2.1
   2.0
   2.0
   1.8
   1.8
   1.8
   1.7
   1.7
   1.7
   1.6
   Glucose
   174
   158
   253
   141
   171
   174
   155
   138
   158
   178
   Other labs: PT / PTT / INR:14.4/32.9/1.2, ALT / AST:18/16, Alk Phos / T
   Bili:/3.8, Differential-Neuts:73.8 %, Lymph:18.3 %, Mono:7.3 %, Eos:0.2
   %, Lactic Acid:1.2 mmol/L, Albumin:3.0 g/dL, Ca++:8.3 mg/dL, Mg++:1.7
   mg/dL, PO4:3.0 mg/dL
   Imaging: CXR ETT in good position, underpenetrated film cannot rule out
   increased pulmonary edema.
   Microbiology: no new
   Assessment and Plan
 HYPERNATREMIA (HIGH SODIUM)
   resolved s/p free water repletion.
 BRADYCARDIA
   stable on bblocker.
 CELLULITIS
   completed 14day course.
 FRACTURE, OTHER
   will need full leg cast when she start to ambulate.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   Will do daily wake up today, transition versed to propofol. Trach
   planned for tomorrow.
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   continue to follow.
 PNEUMONIA, ASPIRATION:
   remains afebrile off antibotics.
 Constipation: check KUB due to palpable hernia. last BM 3 days ago.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2192-8-28**] 09:35 PM 30 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2192-8-26**] 10:15 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2192-08-30 07:25:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - consented for trach
   - daughter was updated, would like call in afternoon after procedure
   - KUB without evidence of obstruction, so have more bowel meds
   Allergies:
   Amoxicillin
   Rash;
   Nortriptyline
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2192-8-27**] 09:06 AM
   Piperacillin/Tazobactam (Zosyn) - [**2192-8-28**] 08:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl (Concentrate) - 125 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2192-8-29**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2192-8-29**] 11:29 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-8-30**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.2
C (99
   HR: 79 (68 - 88) bpm
   BP: 113/59(74) {96/56(64) - 131/86(98)} mmHg
   RR: 18 (13 - 22) insp/min
   SpO2: 98%
   Heart rhythm: WAP (Wandering atrial pacemaker)
   Height: 66 Inch
             Total In:
                                                                  1,516 mL
                                                                    157 mL
   PO:
             TF:
                                                                    720 mL
   IVF:
                                                                    377 mL
                                                                    157 mL
   Blood products:
   Total out:
                                                                  1,190 mL
                                                                    210 mL
   Urine:
                                                                  1,190 mL
                                                                    210 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    326 mL
                                                                    -53 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 31 cmH2O
   Plateau: 26 cmH2O
   SpO2: 98%
   ABG: ///28/
   Ve: 6.9 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   336 K/uL
   9.4 g/dL
   135 mg/dL
   1.5 mg/dL
   28 mEq/L
   3.2 mEq/L
   16 mg/dL
   107 mEq/L
   142 mEq/L
   30.6 %
   10.3 K/uL
        [image002.jpg]
                             [**2192-8-25**]  03:58 AM
                             [**2192-8-25**]  12:04 PM
                             [**2192-8-26**]  05:00 AM
                             [**2192-8-26**]  01:17 PM
                             [**2192-8-26**]  07:18 PM
                             [**2192-8-27**]  05:40 AM
                             [**2192-8-27**]  11:00 PM
                             [**2192-8-28**]  04:30 AM
                             [**2192-8-29**]  04:45 AM
                             [**2192-8-30**]  03:59 AM
   WBC
   10.8
   10.3
   8.2
   7.7
   8.6
   10.3
   Hct
   34.3
   35.4
   31.9
   33.6
   32.1
   30.6
   Plt
   [**Telephone/Fax (3) 8316**]
   Cr
   2.0
   2.0
   1.8
   1.8
   1.8
   1.7
   1.7
   1.7
   1.6
   1.5
   Glucose
   158
   253
   141
   171
   174
   155
   138
   158
   178
   135
   Other labs: PT / PTT / INR:14.0/34.8/1.2, ALT / AST:18/16, Alk Phos / T
   Bili:/3.8, Differential-Neuts:73.8 %, Lymph:18.3 %, Mono:7.3 %, Eos:0.2
   %, Lactic Acid:1.2 mmol/L, Albumin:3.0 g/dL, Ca++:8.2 mg/dL, Mg++:1.7
   mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   62 yo F with LLE cellulitis, R ankle fracture and respiratory failure
   likely secondary to underlying COPD/sleep apnea and possible obesity
   hypoventilation syndrome.
    # Respiratory distress/COPD:  Stable on AC vent settings. Plan for
   trach in OR tomorrow.  Sputum growing ESBL E.coli among other GNRs not
   yet speciated, but these may be colonizers since afebrile off abx
   - Follow VBGs as needed
   - trach in OR Thursday per IP
   - ipratroprium nebs
   # Anemia: may be [**1-16**] fluids. HCT stable over last several days.
   - guaiac stools
   - active t and s
   - daily hct
   # Pneumonia: Growing moderate GNRs including ESBL from sputum, s/p
   complete course of abx treatment
   - monitor clinically for symptoms
   -suctioning as needed
   -monitor fever curve and wbc
   - if spikes, would add back meropenem
   # Abdominal Mass/ Possible Hernia/Constipation: on exam today, had
   nodular area midline in vertral area, no BM for 3 days
   - will check KUB
   - add senna if KUB okay
   # Cellulitis: s/p full abx treatment
   - f/u vascular recs
   - ABIs once awake to assess need for vascular procedure
   # R Ankle Fracture: Trimalleolar right ankle fx. Currently in splint.
   Will get final word from Ortho about risk of procedure on this
   admission.
   - Follow ortho recs
   - Will need surgical fixation at some point, not during this
   hospitalization
   - will need to recontact orthro to replace cast once awake
   # ARF: Likely prerenal. Creatinine down to 1.6 but still elevated from
   baseline
   - continue to monitor creatinine
   - monitor I/O's
   - avoid nephrotoxins
   - Goal fluid balance: even
   # Diastolic heart failure: appears euvolemic
   - monitor clinically
   - holding diuresis
   # Depression: continue OP meds
   - holding abilify, restart when extubated and mental status cleared
   # OSA: Does not wear CPAP on home:
   - now intubated and awaiting trach
   .
   # Candidal skin infection: improved significantly
   - Topical miconazole
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2192-8-26**] 10:15 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2192-08-30 10:32:00 Physician Attending Progress Note
Chief Complaint: shortness of breath, cellulitis.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   KUB no evidence of obstruction. Sedation doses decreased yesterday.
   Daughter consented for tracheostomy.
   Allergies:
   Amoxicillin
   Rash;
   Nortriptyline
   Rash;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2192-8-28**] 08:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl (Concentrate) - 125 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2192-8-29**] 11:29 PM
   Other medications:
   miconazole powder, colace, albuterol, atrovent, paroxetine, HISS,
   metoprolol, fentanyl drip 125, versed 2.5/hr, senna, freewater bolus
   50cc q6h.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-8-30**] 10:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.9
C (98.4
   HR: 78 (68 - 87) bpm
   BP: 98/60(67) {98/55(67) - 131/86(98)} mmHg
   RR: 14 (13 - 22) insp/min
   SpO2: 96%
   Heart rhythm: WAP (Wandering atrial pacemaker)
   Height: 66 Inch
             Total In:
                                                                  1,516 mL
                                                                    299 mL
   PO:
             TF:
                                                                    720 mL
   IVF:
                                                                    377 mL
                                                                    299 mL
   Blood products:
   Total out:
                                                                  1,190 mL
                                                                    410 mL
   Urine:
                                                                  1,190 mL
                                                                    410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    326 mL
                                                                   -111 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 31 cmH2O
   Plateau: 26 cmH2O
   SpO2: 96%
   ABG: ///28/
   Ve: 6.4 L/min
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , Diminished: )
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, opens eyes to commands,  and turns to voice, doesnot
   consistently follow other commands.
   Labs / Radiology
   9.4 g/dL
   336 K/uL
   135 mg/dL
   1.5 mg/dL
   28 mEq/L
   3.2 mEq/L
   16 mg/dL
   107 mEq/L
   142 mEq/L
   30.6 %
   10.3 K/uL
        [image002.jpg]
                             [**2192-8-25**]  03:58 AM
                             [**2192-8-25**]  12:04 PM
                             [**2192-8-26**]  05:00 AM
                             [**2192-8-26**]  01:17 PM
                             [**2192-8-26**]  07:18 PM
                             [**2192-8-27**]  05:40 AM
                             [**2192-8-27**]  11:00 PM
                             [**2192-8-28**]  04:30 AM
                             [**2192-8-29**]  04:45 AM
                             [**2192-8-30**]  03:59 AM
   WBC
   10.8
   10.3
   8.2
   7.7
   8.6
   10.3
   Hct
   34.3
   35.4
   31.9
   33.6
   32.1
   30.6
   Plt
   [**Telephone/Fax (3) 8316**]
   Cr
   2.0
   2.0
   1.8
   1.8
   1.8
   1.7
   1.7
   1.7
   1.6
   1.5
   Glucose
   158
   253
   141
   171
   174
   155
   138
   158
   178
   135
   Other labs: PT / PTT / INR:14.0/34.8/1.2, ALT / AST:18/16, Alk Phos / T
   Bili:/3.8, Differential-Neuts:73.8 %, Lymph:18.3 %, Mono:7.3 %, Eos:0.2
   %, Lactic Acid:1.2 mmol/L, Albumin:3.0 g/dL, Ca++:8.2 mg/dL, Mg++:1.7
   mg/dL, PO4:3.1 mg/dL
   Imaging: CXR stable.
   Assessment and Plan
 HYPERNATREMIA (HIGH SODIUM): stable on standing free water flushes.
 BRADYCARDIA: stable.
 CELLULITIS: s/p course of IV antibiotics x 14days.
 FRACTURE, OTHER
   needs full cast when more stable. Will contact ortho to plan for this.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   For trach in OR today. Then wean sedation as tolerated.
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   Creatinine trending down.
 URINARY TRACT INFECTION (UTI)
   s/p antibiotic course.
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   continue inhalers.
 IMPAIRED SKIN INTEGRITY: continue wound care
 INEFFECTIVE COPING:
   continue to update her daughter .
 Constipation: advance bowel regimen.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2192-8-26**] 10:15 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2192-08-31 07:47:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - updated daughter s/p trach
   - successful trach with #8 cuffed tube
   - CTS recs: keep prolene stitches in 1 week then d/c (if in house, they
   will remove stitches), keep velcro tie
   - pt actively being screened, no bed until 48-72 hours after trach
   - 3 pm HCT 33.2
   - ortho recs: repeat R ankle xray, keep current cast, likely no surgery
   while hospitlized if xray unchanged
   - vsurg recs: get ABIs when alert, if we can get them, they will see
   her again but for now, they have signed off.
   - off sedation
   - NPO after MN for possible R ankle surgery by ortho
   Allergies:
   Amoxicillin
   Rash;
   Nortriptyline
   Rash;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2192-8-28**] 08:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2192-8-31**] 01:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-8-31**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.5
C (99.5
   HR: 78 (71 - 93) bpm
   BP: 112/47(63) {98/47(63) - 149/97(113)} mmHg
   RR: 16 (14 - 21) insp/min
   SpO2: 96%
   Heart rhythm: WAP (Wandering atrial pacemaker)
   Height: 66 Inch
             Total In:
                                                                    850 mL
                                                                     98 mL
   PO:
             TF:
   IVF:
                                                                    670 mL
                                                                     78 mL
   Blood products:
   Total out:
                                                                  1,120 mL
                                                                    330 mL
   Urine:
                                                                  1,120 mL
                                                                    330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -270 mL
                                                                   -232 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 27 cmH2O
   Plateau: 22 cmH2O
   SpO2: 96%
   ABG: ///25/
   Ve: 6.5 L/min
   Physical Examination
   Gen: Sedated on vent, minimally responsive
   Heart: RRR, distant heart sounds
   Lungs
   Abd: Obese
   Ext:
   Labs / Radiology
   352 K/uL
   9.3 g/dL
   102 mg/dL
   1.4 mg/dL
   25 mEq/L
   3.9 mEq/L
   14 mg/dL
   107 mEq/L
   142 mEq/L
   30.0 %
   9.3 K/uL
        [image002.jpg]
                             [**2192-8-26**]  05:00 AM
                             [**2192-8-26**]  01:17 PM
                             [**2192-8-26**]  07:18 PM
                             [**2192-8-27**]  05:40 AM
                             [**2192-8-27**]  11:00 PM
                             [**2192-8-28**]  04:30 AM
                             [**2192-8-29**]  04:45 AM
                             [**2192-8-30**]  03:59 AM
                             [**2192-8-30**]  02:58 PM
                             [**2192-8-31**]  04:47 AM
   WBC
   10.3
   8.2
   7.7
   8.6
   10.3
   9.3
   Hct
   35.4
   31.9
   33.6
   32.1
   30.6
   33.2
   30.0
   Plt
   348
   311
   369
   [**Telephone/Fax (3) 8334**]
   Cr
   1.8
   1.8
   1.8
   1.7
   1.7
   1.7
   1.6
   1.5
   1.4
   Glucose
   141
   171
   174
   155
   138
   158
   178
   135
   102
   Other labs: PT / PTT / INR:14.0/34.8/1.2, ALT / AST:18/16, Alk Phos / T
   Bili:/3.8, Differential-Neuts:73.8 %, Lymph:18.3 %, Mono:7.3 %, Eos:0.2
   %, Lactic Acid:1.2 mmol/L, Albumin:3.0 g/dL, Ca++:8.5 mg/dL, Mg++:1.8
   mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   62 yo F with LLE cellulitis, R ankle fracture and respiratory failure
   likely secondary to underlying COPD/sleep apnea and possible obesity
   hypoventilation syndrome now s/p Trach in OR.
    # Respiratory distress/COPD:  Stable on AC vent settings. Trach in OR
   yesterday.
   - Follow VBGs as needed
   - will need sutures out of trach site in one week
   - ipratroprium nebs
   - Meropenem if spikes given Hx of ESBL E coli in sputum.
   # Anemia: may be 2/2 blood draws/critical illness. HCT stable
   - Minimize blood draws
   - guaiac stools
   - active t and s
   # Abdominal Mass/ Possible Hernia/Constipation: on exam today, had
   nodular area midline in vertral area, no BM for 3 days. KUB without
   obstruction.
   - added miralax
   - continue senna and colace
   # Cellulitis: s/p full abx treatment, will need assessment for arterial
   insufficiency
   - f/u vascular recs
 ask about ABIs and need for being awake
   - ABIs once awake to assess need for vascular procedure
   # R Ankle Fracture: Trimalleolar right ankle fx. Currently in splint.
   Ortho to do sometime during this admission but deferred for today.
   - Follow ortho recs
   - Will need surgical fixation at some point, during this
   hospitalization
   - will need to recontact orthro to replace cast once awake
   # ARF: Likely prerenal. Creatinine down to 1.4 but still elevated from
   baseline
   - continue to monitor creatinine
   - monitor I/O's
   - avoid nephrotoxins
   - Goal fluid balance: even
   - renally dose meds
   # Diastolic heart failure: appears euvolemic
   - monitor clinically
   - holding diuresis
   # Depression: continue OP meds
   - holding abilify, restart when extubated and mental status cleared
   # OSA: Does not wear CPAP on home:
   - now intubated and awaiting trach today
   .
   # Candidal skin infection: improved significantly
   - Topical miconazole
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2192-8-26**] 10:15 AM
   Prophylaxis:
   DVT: HSQ
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2192-8-31**] 12:26 ------

2192-08-31 11:24:00 Physician Attending Progress Note
Chief Complaint: Cellulitis, respiratory failure.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Tracheostomy placed yesterday at 1:30pm. Off sedation since yesterday
   night.
   Allergies:
   Amoxicillin
   Rash;
   Nortriptyline
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2192-8-31**] 01:10 AM
   Other medications:
   HISS, atrovent, albuterol, lopressor.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-8-31**] 11:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 76 (71 - 93) bpm
   BP: 123/65(80) {104/47(63) - 149/97(113)} mmHg
   RR: 21 (14 - 28) insp/min
   SpO2: 96%
   Heart rhythm: WAP (Wandering atrial pacemaker)
   Height: 66 Inch
             Total In:
                                                                    850 mL
                                                                    399 mL
   PO:
             TF:
             64 mL
   IVF:
                                                                    670 mL
                                                                    114 mL
   Blood products:
   Total out:
                                                                  1,120 mL
                                                                    585 mL
   Urine:
                                                                  1,120 mL
                                                                    585 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -270 mL
                                                                   -186 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 450) mL
   Vt (Spontaneous): 212 (212 - 212) mL
   PS : 18 cmH2O
   RR (Set): 0
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 24 cmH2O
   Plateau: 22 cmH2O
   SpO2: 96%
   ABG: ///25/
   Ve: 6.2 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal, Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Obese
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Non -purposeful, Tone: Normal
   Labs / Radiology
   9.3 g/dL
   352 K/uL
   102 mg/dL
   1.4 mg/dL
   25 mEq/L
   3.9 mEq/L
   14 mg/dL
   107 mEq/L
   142 mEq/L
   30.0 %
   9.3 K/uL
        [image002.jpg]
                             [**2192-8-26**]  05:00 AM
                             [**2192-8-26**]  01:17 PM
                             [**2192-8-26**]  07:18 PM
                             [**2192-8-27**]  05:40 AM
                             [**2192-8-27**]  11:00 PM
                             [**2192-8-28**]  04:30 AM
                             [**2192-8-29**]  04:45 AM
                             [**2192-8-30**]  03:59 AM
                             [**2192-8-30**]  02:58 PM
                             [**2192-8-31**]  04:47 AM
   WBC
   10.3
   8.2
   7.7
   8.6
   10.3
   9.3
   Hct
   35.4
   31.9
   33.6
   32.1
   30.6
   33.2
   30.0
   Plt
   348
   311
   369
   [**Telephone/Fax (3) 8334**]
   Cr
   1.8
   1.8
   1.8
   1.7
   1.7
   1.7
   1.6
   1.5
   1.4
   Glucose
   141
   171
   174
   155
   138
   158
   178
   135
   102
   Other labs: PT / PTT / INR:14.0/34.8/1.2, ALT / AST:18/16, Alk Phos / T
   Bili:/3.8, Differential-Neuts:73.8 %, Lymph:18.3 %, Mono:7.3 %, Eos:0.2
   %, Lactic Acid:1.2 mmol/L, Albumin:3.0 g/dL, Ca++:8.5 mg/dL, Mg++:1.8
   mg/dL, PO4:3.6 mg/dL
   Imaging: CXR stable
   Assessment and Plan
 HYPERNATREMIA (HIGH SODIUM)
   improved on free water repeltion
 FRACTURE, OTHER;
   follow up with orthopedics
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   wean vent as tolerated, off sedation
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   creatinine trending down
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2192-8-31**] 07:58 AM 20 mL/hour
   Glycemic Control: HISS
   Lines:
   PICC Line - [**2192-8-26**] 10:15 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU to rehab likely early next week.
   Total time spent: 30 minutes
   Patient is critically ill

2192-09-01 07:34:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**8-31**]
   - PICC was cleared w/ TPA
   - Ortho said that her ankle Fx was reduced and did not require
   fixation.
   - Vascular said that they would evaluate as an outpt.
   - Got shampooed and conditioned
   Allergies:
   Amoxicillin
   Rash;
   Nortriptyline
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2192-8-31**] 08:05 AM
   Fentanyl - [**2192-8-31**] 04:00 PM
   Heparin Sodium (Prophylaxis) - [**2192-9-1**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-9-1**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.8
C (100.1
   HR: 77 (69 - 87) bpm
   BP: 100/52(64) {93/41(53) - 138/87(130)} mmHg
   RR: 21 (12 - 28) insp/min
   SpO2: 96%
   Heart rhythm: WAP (Wandering atrial pacemaker)
   Height: 66 Inch
             Total In:
                                                                  1,052 mL
                                                                    638 mL
   PO:
             TF:
                                                                    560 mL
                                                                    370 mL
   IVF:
                                                                    252 mL
                                                                    107 mL
   Blood products:
   Total out:
                                                                  1,200 mL
                                                                    310 mL
   Urine:
                                                                  1,200 mL
                                                                    310 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -148 mL
                                                                    328 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 0) mL
   Vt (Spontaneous): 391 (212 - 519) mL
   PS : 18 cmH2O
   RR (Set): 0
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 219
   PIP: 24 cmH2O
   SpO2: 96%
   ABG: ///27/
   Ve: 7.3 L/min
   Physical Examination
   Gen: Sedated on trach vent, minimally responsive
   Heart: RRR, distant heart sounds
   Lungs CTA B
   Abd: Obese
   Ext: ulcer on left leg, cast on righ leg
   Labs / Radiology
   342 K/uL
   8.4 g/dL
   141 mg/dL
   1.4 mg/dL
   27 mEq/L
   3.5 mEq/L
   13 mg/dL
   107 mEq/L
   141 mEq/L
   27.4 %
   7.6 K/uL
        [image002.jpg]
                             [**2192-8-26**]  01:17 PM
                             [**2192-8-26**]  07:18 PM
                             [**2192-8-27**]  05:40 AM
                             [**2192-8-27**]  11:00 PM
                             [**2192-8-28**]  04:30 AM
                             [**2192-8-29**]  04:45 AM
                             [**2192-8-30**]  03:59 AM
                             [**2192-8-30**]  02:58 PM
                             [**2192-8-31**]  04:47 AM
                             [**2192-9-1**]  03:36 AM
   WBC
   8.2
   7.7
   8.6
   10.3
   9.3
   7.6
   Hct
   31.9
   33.6
   32.1
   30.6
   33.2
   30.0
   27.4
   Plt
   [**Telephone/Fax (3) 8352**]
   Cr
   1.8
   1.8
   1.7
   1.7
   1.7
   1.6
   1.5
   1.4
   1.4
   Glucose
   171
   174
   155
   138
   158
   178
   135
   102
   141
   Other labs: PT / PTT / INR:14.0/34.8/1.2, ALT / AST:18/16, Alk Phos / T
   Bili:/3.8, Differential-Neuts:73.8 %, Lymph:18.3 %, Mono:7.3 %, Eos:0.2
   %, Lactic Acid:1.2 mmol/L, Albumin:3.0 g/dL, Ca++:8.4 mg/dL, Mg++:1.8
   mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 HYPERNATREMIA (HIGH SODIUM)
 BRADYCARDIA
 CELLULITIS
 FRACTURE, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 URINARY TRACT INFECTION (UTI)
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 PNEUMONIA, ASPIRATION
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITHOUT ACUTE EXACERBATION
 OBSTRUCTIVE SLEEP APNEA (OSA)
 ATRIAL FIBRILLATION (AFIB)
 IMPAIRED SKIN INTEGRITY
 INEFFECTIVE COPING
   62 yo F with LLE cellulitis, R ankle fracture and respiratory failure
   likely secondary to underlying COPD/sleep apnea and possible obesity
   hypoventilation syndrome now s/p Trach in OR.
    # Respiratory distress/COPD:  Stable on AC vent settings. Trach in OR
   placed last Thursday.
   - Check VBG today and PRN
   - will need sutures out of trach site in one week
   - ipratroprium nebs
   - Meropenem if spikes given Hx of ESBL E coli in sputum (thought to be
   colonization at this pt)
   # Anemia: may be 2/2 blood draws/critical illness. Hct slightly
   decreased today to 27.
   - recheck in 5PM
   - guaiac stools
   - active t and s
   # Abdominal Mass/ Possible Hernia/Constipation: Passing stool.
   - continue miralax
   - continue senna and colace
   # Cellulitis: s/p full abx treatment, will need assessment for arterial
   insufficiency
   - f/u vascular recs
 ask about ABIs and need for being awake
   - ABIs once awake to assess need for vascular procedure
   # R Ankle Fracture: Trimalleolar right ankle fx. Currently in splint.
   Had closed reduction.
   - Ortho to follow as out pt
   - 1g Tylenol Q8
   - D/c Fentanyl
   - oxycodone
   # ARF: Likely prerenal. Creatinine down to 1.4 but still elevated from
   baseline
   - continue to monitor creatinine
   - monitor I/O's
   - avoid nephrotoxins
   - Goal fluid balance: even
   - renally dose meds
   # Diastolic heart failure: appears euvolemic
   - monitor clinically
   - holding diuresis
   # Depression: continue OP meds
   - holding abilify, restart when extubated and mental status cleared
   # OSA: Does not wear CPAP on home:
   - now with trach
   .
   # Candidal skin infection: improved significantly
   - Topical miconazole
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2192-8-31**] 06:22 PM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2192-8-26**] 10:15 AM
   Prophylaxis:
   DVT: hep sc
   Stress ulcer: ppi
   VAP:  standard protocol
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now, will go to rehab on Monday or Tuesday
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2192-9-1**] 15:01 ------

2192-09-01 10:00:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: respiratory failure, ankle fracture
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   60 yo F with PMH morbid obesity, OSA, COPD and DMT2 who was admitted
   with ankle fracture, cellulitis and hypercarbic respiratory failure in
   setting of pain medications
   24 Hour Events:
  No events overnight
   Allergies:
   Amoxicillin
   Rash;
   Nortriptyline
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Fentanyl - [**2192-8-31**] 04:00 PM
   Heparin Sodium (Prophylaxis) - [**2192-9-1**] 08:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-9-1**] 10:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.4
C (99.4
   HR: 76 (69 - 87) bpm
   BP: 115/60(72) {93/41(53) - 138/87(130)} mmHg
   RR: 23 (12 - 27) insp/min
   SpO2: 97%
   Heart rhythm: WAP (Wandering atrial pacemaker)
   Height: 66 Inch
             Total In:
                                                                  1,052 mL
                                                                    875 mL
   PO:
             TF:
                                                                    560 mL
                                                                    508 mL
   IVF:
                                                                    252 mL
                                                                    148 mL
   Blood products:
   Total out:
                                                                  1,200 mL
                                                                    410 mL
   Urine:
                                                                  1,200 mL
                                                                    410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -148 mL
                                                                    465 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 352 (247 - 519) mL
   PS : 18 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 219
   PIP: 24 cmH2O
   SpO2: 97%
   ABG: ///27/
   Ve: 6.7 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.4 g/dL
   342 K/uL
   141 mg/dL
   1.4 mg/dL
   27 mEq/L
   3.5 mEq/L
   13 mg/dL
   107 mEq/L
   141 mEq/L
   27.4 %
   7.6 K/uL
        [image002.jpg]
                             [**2192-8-26**]  01:17 PM
                             [**2192-8-26**]  07:18 PM
                             [**2192-8-27**]  05:40 AM
                             [**2192-8-27**]  11:00 PM
                             [**2192-8-28**]  04:30 AM
                             [**2192-8-29**]  04:45 AM
                             [**2192-8-30**]  03:59 AM
                             [**2192-8-30**]  02:58 PM
                             [**2192-8-31**]  04:47 AM
                             [**2192-9-1**]  03:36 AM
   WBC
   8.2
   7.7
   8.6
   10.3
   9.3
   7.6
   Hct
   31.9
   33.6
   32.1
   30.6
   33.2
   30.0
   27.4
   Plt
   [**Telephone/Fax (2) 8352**]
   Cr
   1.8
   1.8
   1.7
   1.7
   1.7
   1.6
   1.5
   1.4
   1.4
   Glucose
   171
   174
   155
   138
   158
   178
   135
   102
   141
   Other labs: PT / PTT / INR:14.0/34.8/1.2, ALT / AST:18/16, Alk Phos / T
   Bili:/3.8, Differential-Neuts:73.8 %, Lymph:18.3 %, Mono:7.3 %, Eos:0.2
   %, Lactic Acid:1.2 mmol/L, Albumin:3.0 g/dL, Ca++:8.4 mg/dL, Mg++:1.8
   mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 Hypercarbic espiratory Failure: sleep apnea, ? obesity
   hypoventilation syndrome
   - s/p trach on pressure support
   - mental status slowly improving
 Anemia: trending downward but no obvious source of beleding
   - check PM crit, follow clinically
 Chronic ulcers
   - no plan for intervention at this time, vascular surgery following
   - completed abx for celluitis
   - plan for ABIs when more awake
 Ankle Fracture
   - no further procedure per orthopedics
   - will start tylenol, fentanyl if not controlled with non-narcotics
 Constipation
   - continue bowel regimen, improved
 Renal failure
   - slowly improving, goal TBB even
   - baseline creatinine 1.0
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2192-8-31**] 06:22 PM 60 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2192-8-26**] 10:15 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to rehab / long term care facility
   Total time spent: 15 minutes

2192-09-02 07:33:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - tube feeds became obstructed intermitently (has been an issue for
   last several days), changed to bolus feeds, likely needs a doboff
   before going to rehab
   - vent changed to CPAP 18/5 to 14/5
   - was positive with fluids, but had low UO so did not give lasix
   - pt A&O throughout day, but then became agitated overnight
   Allergies:
   Amoxicillin
   Rash;
   Nortriptyline
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2192-9-1**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-9-2**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.6
C (99.7
   HR: 72 (63 - 76) bpm
   BP: 99/47(58) {99/47(58) - 133/69(81)} mmHg
   RR: 19 (8 - 27) insp/min
   SpO2: 96%
   Heart rhythm: WAP (Wandering atrial pacemaker)
   Height: 66 Inch
             Total In:
                                                                  2,065 mL
                                                                    655 mL
   PO:
             TF:
                                                                  1,235 mL
                                                                    480 mL
   IVF:
                                                                    290 mL
                                                                     75 mL
   Blood products:
   Total out:
                                                                    958 mL
                                                                    380 mL
   Urine:
                                                                    958 mL
                                                                    380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,107 mL
                                                                    275 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 524 (299 - 524) mL
   PS : 12 cmH2O
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 18 cmH2O
   SpO2: 96%
   ABG: ///27/
   Ve: 6.5 L/min
   Physical Examination
   Gen: on trach mask, responsive
   Heart: RRR, distant heart sounds
   Lungs CTA B
   Abd: Obese
   Ext: ulcer on left leg, cast on righ leg
   Labs / Radiology
   336 K/uL
   9.0 g/dL
   127 mg/dL
   1.3 mg/dL
   27 mEq/L
   4.0 mEq/L
   13 mg/dL
   108 mEq/L
   143 mEq/L
   30.0 %
   7.0 K/uL
        [image002.jpg]
                             [**2192-8-27**]  05:40 AM
                             [**2192-8-27**]  11:00 PM
                             [**2192-8-28**]  04:30 AM
                             [**2192-8-29**]  04:45 AM
                             [**2192-8-30**]  03:59 AM
                             [**2192-8-30**]  02:58 PM
                             [**2192-8-31**]  04:47 AM
                             [**2192-9-1**]  03:36 AM
                             [**2192-9-1**]  10:40 AM
                             [**2192-9-2**]  12:16 AM
   WBC
   8.2
   7.7
   8.6
   10.3
   9.3
   7.6
   7.0
   Hct
   31.9
   33.6
   32.1
   30.6
   33.2
   30.0
   27.4
   26.9
   30.0
   Plt
   [**Telephone/Fax (3) 8352**]
   336
   Cr
   1.7
   1.7
   1.7
   1.6
   1.5
   1.4
   1.4
   1.3
   Glucose
   155
   138
   158
   178
   135
   102
   141
   127
   Other labs: PT / PTT / INR:14.0/34.8/1.2, ALT / AST:18/16, Alk Phos / T
   Bili:/3.8, Differential-Neuts:73.8 %, Lymph:18.3 %, Mono:7.3 %, Eos:0.2
   %, Lactic Acid:1.2 mmol/L, Albumin:3.0 g/dL, Ca++:8.8 mg/dL, Mg++:2.1
   mg/dL, PO4:3.1 mg/dL
   [**8-24**] BCx x 2: negative
   [**8-31**] CXR:
   FINDINGS: There has been interval placement of an ET tube, with a
   tracheostomy which is appropriately placed at the thoracic inlet. The
   NG tube
   courses inferiorly and out of field of view, unchanged from previous
   study.
   There is no evidence of pneumothorax or pneumomediastinum. The cardia
   and
   mediastinal contours are unchanged from previous study. Previously
   mentioned
   right basilar opacity with no appreciable change.
   IMPRESSION: Appropriate tracheostomy placement without evidence of
   complication.
   Assessment and Plan
   62 yo F with LLE cellulitis, R ankle fracture and respiratory failure
   likely secondary to underlying COPD/sleep apnea and possible obesity
   hypoventilation syndrome now s/p Trach in OR.
    # Respiratory distress/COPD:  Stable on current vent settings. Trach
   in OR placed last Thursday.
   - now on trach mask
   - Check VBG this AM
   - sutures out on Thursday at rehab
   - will need sutures out of trach site in one week
   - ipratroprium nebs
   - Meropenem if spikes given Hx of ESBL E coli in sputum (thought to be
   colonization at this pt)
   # Feedings: NGT with intermitent obstuction on continuos feeds, changed
   to bolus
   - will transition to swallowing at rehab
   # Anemia: may be 2/2 blood draws/critical illness. Hct today 30.
   - monitor daily Hct
   - guaiac stools
   - active t and s
   # Abdominal Mass/ Possible Hernia/Constipation: Passing stool.
   - continue miralax PRN
   - continue senna and colace
   # Cellulitis: s/p full abx treatment, will need assessment for arterial
   insufficiency
   - f/u vascular recs
 ABIs deferred until outpatient
   # R Ankle Fracture: Trimalleolar right ankle fx. Currently in splint.
   Had closed reduction.
   - Ortho to follow asout pt
   - 1g Tylenol Q8
   - oxycodone
   # ARF: Likely prerenal. Creatinine down to 1.3 (baseline 0.6-0.7).
   - continue to monitor creatinine
   - monitor I/O's
   - avoid nephrotoxins
   - Goal fluid balance: even
   - renally dose meds
   # Diastolic heart failure: appears euvolemic
   - monitor clinically
   - consider restarting home diuretics if needed at rehab
   # Depression: continue OP meds
   - restart abilify today
   # OSA: Does not wear CPAP on home, now with trach
   .
   # Candidal skin infection: improved significantly
   - Topical miconazole
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2192-8-31**] 06:22 PM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2192-8-26**] 10:15 AM
   Prophylaxis:
   DVT: hep sc
   Stress ulcer: ppi
   VAP:  standard protocol
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Rehab today

2192-09-02 10:52:00 Physician Attending Progress Note
Chief Complaint: cellulitis, respiratory failure.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Sundowned yesterday, agitated, mouthing bad words to medical team.
   Currently on trach mask.
   Allergies:
   Amoxicillin
   Rash;
   Nortriptyline
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2192-9-2**] 07:50 AM
   Heparin Sodium (Prophylaxis) - [**2192-9-2**] 07:50 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-9-2**] 10:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.3
C (99.1
   HR: 70 (63 - 74) bpm
   BP: 107/50(63) {99/47(58) - 133/69(81)} mmHg
   RR: 22 (8 - 27) insp/min
   SpO2: 98%
   Heart rhythm: WAP (Wandering atrial pacemaker)
   Height: 66 Inch
             Total In:
                                                                  2,065 mL
                                                                    756 mL
   PO:
             TF:
                                                                  1,235 mL
                                                                    480 mL
   IVF:
                                                                    290 mL
                                                                    116 mL
   Blood products:
   Total out:
                                                                    958 mL
                                                                    430 mL
   Urine:
                                                                    958 mL
                                                                    430 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,107 mL
                                                                    326 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   Vt (Spontaneous): 524 (299 - 524) mL
   PS : 10 cmH2O
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 18 cmH2O
   SpO2: 98%
   ABG: ///27/
   Ve: 6.5 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal, Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Diminished: )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   9.0 g/dL
   336 K/uL
   127 mg/dL
   1.3 mg/dL
   27 mEq/L
   4.0 mEq/L
   13 mg/dL
   108 mEq/L
   143 mEq/L
   30.0 %
   7.0 K/uL
        [image002.jpg]
                             [**2192-8-27**]  05:40 AM
                             [**2192-8-27**]  11:00 PM
                             [**2192-8-28**]  04:30 AM
                             [**2192-8-29**]  04:45 AM
                             [**2192-8-30**]  03:59 AM
                             [**2192-8-30**]  02:58 PM
                             [**2192-8-31**]  04:47 AM
                             [**2192-9-1**]  03:36 AM
                             [**2192-9-1**]  10:40 AM
                             [**2192-9-2**]  12:16 AM
   WBC
   8.2
   7.7
   8.6
   10.3
   9.3
   7.6
   7.0
   Hct
   31.9
   33.6
   32.1
   30.6
   33.2
   30.0
   27.4
   26.9
   30.0
   Plt
   [**Telephone/Fax (3) 8352**]
   336
   Cr
   1.7
   1.7
   1.7
   1.6
   1.5
   1.4
   1.4
   1.3
   Glucose
   155
   138
   158
   178
   135
   102
   141
   127
   Other labs: PT / PTT / INR:14.0/34.8/1.2, ALT / AST:18/16, Alk Phos / T
   Bili:/3.8, Differential-Neuts:73.8 %, Lymph:18.3 %, Mono:7.3 %, Eos:0.2
   %, Lactic Acid:1.2 mmol/L, Albumin:3.0 g/dL, Ca++:8.8 mg/dL, Mg++:2.1
   mg/dL, PO4:3.1 mg/dL
   Imaging: CXR stable
   Assessment and Plan
 CELLULITIS:
   s/p antibiotics.
 FRACTURE, OTHER:
   continue current cast, schedule follow up in orthopedics clinic
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   weaning from vent, TM trial, follow up VBG
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION:
   continue inhalers.
 ALTERATION IN NUTRITION:
   continue NG tube feeds
 OBSTRUCTIVE SLEEP APNEA (OSA)
   now s/p trach
Skin ulcers:outpatient ABI
 Sundowning: restart home abilify qhs
 Renal dysfunction: autocorrecting, hold off on starting home
   diuretics, may need them restarted at nursing home.
 Fever: low grade at 100.3, will give clear recommendations to rehab
   facility that has known ESBL E.coli  insputum, as she is otherwise
   stable will not hold off on transfer.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2192-8-26**] 10:15 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to rehab / long term care facility
   Total time spent: 20 minutes

2192-09-03 07:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - vasc surgery recs: ABIs as outpatient
   - ortho recs: f/u as outpt with appt
   - abilify restarted
   - tolerated trach mask
   - had rehab bed, but problem with insurance so d/c held up
   - need to address nutrition - resistance with feeds
   Allergies:
   Amoxicillin
   Rash;
   Nortriptyline
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2192-9-2**] 07:50 AM
   Heparin Sodium (Prophylaxis) - [**2192-9-2**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   FSG:
   Abbreviation:: Glucose finger stick
   [**Known lastname **] [**Known lastname **] [**Known firstname **]
   MR#:[**Numeric Identifier 8367**]Time                                       Value
   ------------------------------------------
   [**2192-9-2**] 12:00                128
   [**2192-9-2**] 18:00                147
   [**2192-9-3**] 0:00                  130
   Flowsheet Data as of  [**2192-9-3**] 07:48 AM
   Vital signs
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37
C (98.6
   HR: 74 (66 - 88) bpm
   BP: 104/50(62) {91/47(58) - 144/81(94)} mmHg
   RR: 25 (16 - 31) insp/min
   SpO2: 100%
   Heart rhythm: WAP (Wandering atrial pacemaker)
   Height: 66 Inch
                Total In:
                                                                  1,630 mL
                                                                    367 mL
   PO:
                TF:
                                                                    960 mL
                                                                    240 mL
   IVF:
                                                                    250 mL
                                                                     77 mL
   Blood products:
   Total out:
                                                                    965 mL
                                                                    235 mL
   Urine:
                                                                    965 mL
                                                                    235 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    665 mL
                                                                    132 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: Standby
   Vt (Spontaneous): 627 (627 - 627) mL
   PS : 10 cmH2O
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 0 cmH2O
   SpO2: 100%
   ABG: ///27/
   Physical Examination
   GEN: on trach mask, interactive
   HEENT: EOMI, no cervical LAD
   CHEST: CTAB anteriorly
   CV: RRR, nl s1, S2, no m/r/g
   ABD: NDNT soft NABS
   EXT: no c/c/e
   NEURO: interactive
   Labs / Radiology
   330 K/uL
   8.6 g/dL
   136 mg/dL
   1.3 mg/dL
   27 mEq/L
   3.6 mEq/L
   12 mg/dL
   107 mEq/L
   144 mEq/L
   28.5 %
   6.1 K/uL
        [image002.jpg]
                             [**2192-8-27**]  11:00 PM
                             [**2192-8-28**]  04:30 AM
                             [**2192-8-29**]  04:45 AM
                             [**2192-8-30**]  03:59 AM
                             [**2192-8-30**]  02:58 PM
                             [**2192-8-31**]  04:47 AM
                             [**2192-9-1**]  03:36 AM
                             [**2192-9-1**]  10:40 AM
                             [**2192-9-2**]  12:16 AM
                             [**2192-9-3**]  04:06 AM
   WBC
   7.7
   8.6
   10.3
   9.3
   7.6
   7.0
   6.1
   Hct
   33.6
   32.1
   30.6
   33.2
   30.0
   27.4
   26.9
   30.0
   28.5
   Plt
   [**Telephone/Fax (3) 8368**]
   330
   Cr
   1.7
   1.7
   1.6
   1.5
   1.4
   1.4
   1.3
   1.3
   Glucose
   138
   158
   178
   135
   102
   141
   127
   136
   Other labs: PT / PTT / INR:14.0/34.8/1.2, ALT / AST:18/16, Alk Phos / T
   Bili:/3.8, Differential-Neuts:73.8 %, Lymph:18.3 %, Mono:7.3 %, Eos:0.2
   %, Lactic Acid:1.2 mmol/L, Albumin:3.0 g/dL, Ca++:8.8 mg/dL, Mg++:2.1
   mg/dL, PO4:3.1 mg/dL
   Imaging: CXR
   Assessment and Plan
   62 yo F with LLE cellulitis, R ankle fracture and respiratory failure
   likely secondary to underlying COPD/sleep apnea and possible obesity
   hypoventilation syndrome now s/p Trach in OR.
    # Respiratory distress/COPD:  Stable on current vent settings. Trach
   in OR placed last Thursday.
   - now on trach mask
   - sutures out on Thursday at rehab, - will need sutures out of trach
   site in one week
   - ipratroprium nebs
   - Meropenem if spikes given Hx of ESBL E coli in sputum (thought to be
   colonization at this pt)
    # Feedings: NGT with intermitent obstuction on continuos feeds,
   changed to bolus
   - change back to low continuous tube feeds
   # Anemia: may be 2/2 blood draws/critical illness. Hct today 30.
   - monitor daily Hct
   - guaiac stools
   - active t and s
   # Abdominal Mass/ Possible Hernia/Constipation: Passing stool.
   - continue miralax PRN
   - continue senna and colace
   # Cellulitis: s/p full abx treatment, will need assessment for arterial
   insufficiency
   - f/u vascular recs
 ABIs deferred until outpatient
   # R Ankle Fracture: Trimalleolar right ankle fx. Currently in splint.
   Had closed reduction.
   - Ortho to follow asout pt
   - oxycodone prn
   - d/c standing tylenol
   # ARF: Likely prerenal. Creatinine down to 1.3 (baseline 0.6-0.7).
   - continue to monitor creatinine
   - monitor I/O's
   - avoid nephrotoxins
   - Goal fluid balance: even
   - renally dose meds
   # Diastolic heart failure: appears euvolemic
   - monitor clinically
   - consider restarting home diuretics if needed at rehab
   # Depression: continue OP meds
   - restarted abiilify
   # OSA: Does not wear CPAP on home, now with trach
   # Candidal skin infection: improved significantly
   - Topical miconazole
   ICU Care
   Nutrition: low rate continuous TF
   Glycemic Control:
   Lines:
   PICC Line - [**2192-8-26**] 10:15 AM
   Prophylaxis:
   DVT: HSQ
   Stress ulcer:
   VAP:  standard VAP bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Likely to rehab today
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2192-9-3**] 15:04 ------

2192-09-03 10:08:00 Physician Attending Progress Note
Chief Complaint: fracture, cellulitis, respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Complains of whole body pain this morning. Has elevated residuals.
   Otherwise stable.
   Allergies:
   Amoxicillin
   Rash;
   Nortriptyline
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2192-9-2**] 04:00 PM
   Pantoprazole (Protonix) - [**2192-9-3**] 07:54 AM
   Other medications:
   miralax, pantoprazole, prozac, colace, HISS, ipratropium, albuterol,
   chlorhexidine, heparin s/c tid, lopressor, miconazole powder, senna,
   bolus tube feeds, tylenol.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-9-3**] 10:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37
C (98.6
   HR: 76 (66 - 88) bpm
   BP: 137/78(93) {91/50(62) - 144/81(94)} mmHg
   RR: 31 (16 - 31) insp/min
   SpO2: 100%
   Heart rhythm: WAP (Wandering atrial pacemaker)
   Height: 66 Inch
             Total In:
                                                                  1,630 mL
                                                                    398 mL
   PO:
             TF:
                                                                    960 mL
                                                                    240 mL
   IVF:
                                                                    250 mL
                                                                    108 mL
   Blood products:
   Total out:
                                                                    965 mL
                                                                    355 mL
   Urine:
                                                                    965 mL
                                                                    355 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    665 mL
                                                                     43 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   Vt (Spontaneous): 627 (627 - 627) mL
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 0 cmH2O
   SpO2: 100%
   ABG: ///27/
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: No(t) PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), irregular
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   8.6 g/dL
   330 K/uL
   136 mg/dL
   1.3 mg/dL
   27 mEq/L
   3.6 mEq/L
   12 mg/dL
   107 mEq/L
   144 mEq/L
   28.5 %
   6.1 K/uL
        [image002.jpg]
                             [**2192-8-27**]  11:00 PM
                             [**2192-8-28**]  04:30 AM
                             [**2192-8-29**]  04:45 AM
                             [**2192-8-30**]  03:59 AM
                             [**2192-8-30**]  02:58 PM
                             [**2192-8-31**]  04:47 AM
                             [**2192-9-1**]  03:36 AM
                             [**2192-9-1**]  10:40 AM
                             [**2192-9-2**]  12:16 AM
                             [**2192-9-3**]  04:06 AM
   WBC
   7.7
   8.6
   10.3
   9.3
   7.6
   7.0
   6.1
   Hct
   33.6
   32.1
   30.6
   33.2
   30.0
   27.4
   26.9
   30.0
   28.5
   Plt
   [**Telephone/Fax (2) 8368**]
   330
   Cr
   1.7
   1.7
   1.6
   1.5
   1.4
   1.4
   1.3
   1.3
   Glucose
   138
   158
   178
   135
   102
   141
   127
   136
   Other labs: PT / PTT / INR:14.0/34.8/1.2, ALT / AST:18/16, Alk Phos / T
   Bili:/3.8, Differential-Neuts:73.8 %, Lymph:18.3 %, Mono:7.3 %, Eos:0.2
   %, Lactic Acid:1.2 mmol/L, Albumin:3.0 g/dL, Ca++:8.8 mg/dL, Mg++:2.1
   mg/dL, PO4:3.1 mg/dL
   Imaging: CXR stable
   Assessment and Plan
 CELLULITIS:
   s/p 14 day course
 FRACTURE, OTHER:
   continue current splint, can pivot to transition on cast, schedule
   follow up with orthopedics as an outpatient.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**]):
   doing well on TM.
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION:
   continue home inhalers.
 ALTERATION IN NUTRITION:
   continue tube feeds transition to continuous feeds.
 OBSTRUCTIVE SLEEP APNEA (OSA);
   s/p trach
 IMPAIRED SKIN INTEGRITY
   continue wound care, ABI as outpatient f/u vascular
 low grade fever: yesterday with no recurrence, will d/c tylenol and
   observe fever curve, culture if she spikes.
Depression/subdowning: continue abilify, prozac
   ICU Care
   Nutrition:
   Comments: TF bolus --> continuous drip TF
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2192-8-26**] 10:15 AM, discuss with case managment if PICC is
   not required for rehab transfer can likely d/c before discharge.
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to rehab / long term care facility
   Total time spent: 30 minutes